2115-04-12 06:49:00 Physician Resident Progress Note
Chief Complaint: 76 year old with history a seizure disorder, chronic
   vent dependence transfered for hypoxia, and altered mental status.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2115-4-11**] 11:11 PM
   -Weaning oxygenation overnight, now down from 100% FiO2 to 50%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2115-4-12**] 02:07 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-12**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 78 (70 - 78) bpm
   BP: 106/49(63) {96/46(59) - 134/73(88)} mmHg
   RR: 14 (14 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
             1,215 mL
   PO:
             TF:
   IVF:
   1,215 mL
   Blood products:
   Total out:
                                                                    245 mL
                                                                    345 mL
   Urine:
                                                                    245 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -245 mL
                                                                    870 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.40/44/433//2
   Ve: 5.8 L/min
   PaO2 / FiO2: 866
   Physical Examination
   General Appearance: No acute distress, chronically ill
   Eyes / Conjunctiva: No(t) PERRL, left pupil 4->2mm. unable to close
   left eye.
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, trach in
   place. Dry mucous membranes
   Cardiovascular: (S1: Normal), (S2: Normal, Widely split )
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant :
   anteriorly), (Breath Sounds: Diminished: at bases), vent water
   obscuring but otherwise clear anteriorly
   Abdominal: Non-tender, Distended, bowel sounds sluggish. Firm stool
   filled colon,  heparin injection bruises
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Musculoskeletal: Flexion contractures at ankles
   Skin:  Cool, 1.5x1.5 sacral pressure ulcer/skin tear
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: spontaneous movement, Tone: Increased
   with cogwheeling/rigidity, right CN VII palsy. Left corneal reflex
   intact. Tongue deviated to left.
   Labs / Radiology
   257 K/uL
   101
   1.3
   22
   4.5 mEq/L
   68
   102
   137
   28.2
   10
        [image002.jpg]
                             [**2115-4-11**]  09:56 PM
                             [**2115-4-11**]  10:12 PM
   WBC
   13.5
   Hct
   30.1
   Plt
   272
   TropT
   0.39
   TCO2
   28
   Other labs: CK / CKMB / Troponin-T:241/12/0.39
   Microbiology: Bcx and ucx on admission NGTD
   Assessment and Plan
   76 year old with history a seizure disorder, chronic vent dependence
   transfered for hypoxia, and altered mental status.
   # Respiratory Failure: underlying respiratory failure of unclear
   etiology given prior evaluation was only revealing for critical illness
   neuropathy. Currently gas exchanging well on home vent settings.
   Recent exacerbation likely from vomiting complicated by aspiration and
   inability to clear secretions.
   - Blood, urine, sputum cultures
   - Empiric VAP therapy for now, if no growth, will dc antibiotics
   (vanc/zosyn) in am tomorrow.
   - Chest PT, aggressive pulmonary toilet
   - Wean FIO2 by O2sats
   # Altered Mental Status: Unclear if generalized toxic metabolic
   encephalopathy from infection, drugs (mildly elevated dilantin level),
   hypoxia, or from underlying seizure disorder (non-convulsive status)
   though this was not captured on EEG monitoring during last admission in
   [**Month (only) 1563**] to the Neuro ICU (showed only encephalopathic background).  At
   that time, appears to have had similar mental/functional status that
   she has now; however, per notes and her son, had been making
   improvements since that time.  During her last admission, had extensive
   neuro work up at that time which was largely unrevealing including LP,
   paraneoplastic labs which were negative, SPEP/UPEP, MRI/MRA brain, EMG
   concerning for critical illness myopathy.  Patient does not appear to
   be in nonconvulsive status as she does react to noxious stimuli and
   appears to calm when addressed.
   - Neuro consult this AM
   - Continue dilatin at prior dosing
   # Vomiting: Unable to assess pain currently given altered mental
   status. Abdominal exam most notable for distension and firm stool
   filled colon in LLQ. KUB showing air throughout colon without evidence
   obstruction.
   - Aggressive bowel regimen, currently having BMs
   # Elevated cardiac enzymes: Unlikely to represent acute ischemia given
   unchanged EKG from prior.  Multiple reasons for elevated troponins
   including hypoxic/PEA arrest and chest compressions per report.
   Trending down overnight.
   - Repeat EKG this AM
   - Continue aspirin
   - DC plavix given rule out as this was started just prior to admission
   at her nursing home.
   # Acute renal failure: Likely from pre-renal etiology in the setting of
   poor intake.  Patient appears dry on exam.  Chronically with foley so
   unlikely obstruction.
   - Will trend Cr
   - IVF with some improvement in BUN/Cr, will continue IVF for now.
   Continue to monitor volume status.
   - Renally dose meds
    # Anemia: Currently elevated above prior baseline of 25 suggesting
   dehydration/volume contraction.
   - Trend Hct
   - IVF prn as above.
   # Hypertension: Per history hypertension mostly a problem during
   breathing trials. Currently normotensive although in the setting of
   dehydration and potential infection.
   - Hold anti-hypertensives for now
   ICU Care
   Nutrition:
   Comments: On TF at nursing home. Currently NPO.
   Glycemic Control:
   Lines:
   18 Gauge - [**2115-4-12**] 04:23 AM
   22 Gauge - [**2115-4-12**] 04:24 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU

2115-04-12 10:51:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   Chief Complaint:
   HPI:
   76 yo F w/chronic resp failure on vent , sz disorder, and recent
   neurologic decline of unclear etiology admitted following tube feed
   aspiration and witnessed seizures.  No signs of infection or
   pneumonitis.  Day PTA had PEA arrest in setting of hypoxemia/mucous
   plugging.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2115-4-11**] 11:11 PM
   FiO2 weaned from 100% to 50% (=b/l)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2115-4-12**] 02:07 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, FH, SH, Review of systems is unchanged from admission except as
   noted
   Review of systems:
   Flowsheet Data as of  [**2115-4-12**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 79 (70 - 79) bpm
   BP: 129/96(104) {96/46(59) - 144/96(104)} mmHg
   RR: 14 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
             1,689 mL
   PO:
             TF:
   IVF:
   1,629 mL
   Blood products:
   Total out:
                                                                    245 mL
                                                                    439 mL
   Urine:
                                                                    245 mL
                                                                    439 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -245 mL
                                                                  1,250 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.40/44/433/22/2
   Ve: 6.3 L/min
   PaO2 / FiO2: 866
   Physical Examination
   General Appearance: tremulous, R facial droop, not responsive
   Eyes / Conjunctiva: R eye open
   Lymphatic: trach in place
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: coarse BS anteriorly b/l
   Abdominal: Soft, Non-tender, hypoactive BS
   Extremities: trace pedal edema b/l, multiple echymoses
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Noxious
   stimuli, No(t) Oriented (to): , Movement: Not assessed, Tone: Increased
   Labs / Radiology
   9.1 g/dL
   257 K/uL
   101 mg/dL
   1.3 mg/dL
   22 mEq/L
   4.5 mEq/L
   68 mg/dL
   102 mEq/L
   137 mEq/L
   28.2 %
   10.0 K/uL
        [image002.jpg]
                             [**2115-4-11**]  09:56 PM
                             [**2115-4-11**]  10:12 PM
                             [**2115-4-12**]  06:00 AM
   WBC
   13.5
   10.0
   Hct
   30.1
   28.2
   Plt
   272
   257
   Cr
   1.3
   TropT
   0.39
   0.39
   TCO2
   28
   Glucose
   101
   Other labs: CK / CKMB / Troponin-T:241/12/0.39
   Imaging: CXR - R sided effusion, retrocardiac opacity
   Assessment and Plan
   76 yo F, chronic vent, h/o seizure disorder, with recent neurologic
   decline of unclear etiology admitted following tube feed aspiration and
   witnessed seizures. No signs of infection or pneumonitis.  PEA arrest
   day PTA [**1-19**] hypoxemia/mucous plugging.
   1) Resp failure/aspiration
   Empiric vanc/zosyn, with plan to d/c abx if cxs negative after 48hrs.
   WBC decreasing, afebrile.  Back on home vent settings.
   2) AMS
   Multiple possible etiologies: s/p post PEA arrest, s/p sz, ?aspiration,
   no electrolyte abnls, head CT w/o acute changes. Neuro consult to help
   guide baseline and prognosis.
   3) Vomiting
   Likely due to constipation; KUB demonstrates gas-filled bowel w/o e/o
   obstruction. Aggressive bowel regimen.  Hold TF until bowels moving.
   4) s/p PEA arrest
   Likely [**1-19**] hypoxemia in setting of mucous plugging. Observe on tele,
   normoxemic now, hemodynamically stable.
   5) ARF
   Likely pre-renal, improving w/IVF
   6) Code status discussion with pt
s husband and family
   Other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2115-4-12**] 04:23 AM
   22 Gauge - [**2115-4-12**] 04:24 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes.

2115-04-13 08:08:00 Physician Resident Progress Note
Chief Complaint: 76 year old with history a seizure disorder, chronic
   vent dependence transfered for hypoxia, and altered mental status.
   24 Hour Events:
   -  Neuro consult- recommended EEG, Keppra, and to cont dilantin
   - still no BM.  given dulcolax
   - [**Name8 (MD) **] RN, TF aspirate found in OP, TF on hold
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2115-4-12**] 02:07 AM
   Vancomycin - [**2115-4-12**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2115-4-13**] 02:17 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Bisacodyl prn
   Levetiracetam [**Hospital1 **]
   Artificial tears
   Vitamin D
   Ca carbonate
   Chlorhexidine
   Dipyridamole
   Levothyroxine
   Lorazepam prn
   Ondansetron prn
   Acetaminophen prn
   Ferrous sulfate
   Carbidopa-levodopa
   Tobramycin-dexamthasone eye oint
   Folic acid
   Ranitidine
   Thiamine
   ASA
   Docusate prn
   Senna prn
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Denies pain or difficulty breathing.
   Flowsheet Data as of  [**2115-4-13**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 83 (80 - 83) bpm
   BP: 162/64(90) {108/46(61) - 162/96(104)} mmHg
   RR: 15 (13 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,518 mL
                                                                    131 mL
   PO:
             TF:
   IVF:
                                                                  2,398 mL
                                                                    131 mL
   Blood products:
   Total out:
                                                                  2,869 mL
                                                                    255 mL
   Urine:
                                                                    869 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -351 mL
                                                                   -125 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   SpO2: 99%
   ABG: ///24/
   Ve: 7.5 L/min
   Physical Examination
   General Appearance: No acute distress, chronically ill
   Eyes / Conjunctiva: No(t) PERRL, left pupil 4->2mm. unable to close
   left eye.
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, trach in
   place. Dry mucous membranes
   Cardiovascular: (S1: Normal), (S2: Normal, Widely split )
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant :
   anteriorly), (Breath Sounds: Diminished: at bases), vent water
   obscuring but otherwise clear anteriorly
   Abdominal: Non-tender, Distended, bowel sounds sluggish. Firm stool
   filled [**Year (4 digits) 800**],  heparin injection bruises
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Musculoskeletal: Flexion contractures at ankles
   Skin:  Cool, 1.5x1.5 sacral pressure ulcer/skin tear
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: spontaneous movement, Tone: Increased
   with cogwheeling/rigidity, right CN VII palsy. Left corneal reflex
   intact. Tongue deviated to left.
   Labs / Radiology
   239 K/uL
   9.1 g/dL
   83 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.7 mEq/L
   62 mg/dL
   104 mEq/L
   141 mEq/L
   26.8 %
   9.5 K/uL
        [image002.jpg]
                             [**2115-4-11**]  09:56 PM
                             [**2115-4-11**]  10:12 PM
                             [**2115-4-12**]  06:00 AM
                             [**2115-4-13**]  04:00 AM
   WBC
   13.5
   10.0
   9.5
   Hct
   30.1
   28.2
   26.8
   Plt
   272
   257
   239
   Cr
   1.3
   1.1
   TropT
   0.39
   0.39
   TCO2
   28
   Glucose
   101
   83
   Other labs: CK / CKMB / Troponin-T:241/12/0.39, Ca++:8.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.2 mg/dL
   Urine culture [**4-11**]: No growth
   Blood culture [**4-11**]: No growth to date
   Sputum culture [**4-12**]: Pending, prelim >25 polys, < 10 epis, 1+ GPRs
   EEG [**4-12**]:
   IMPRESSION: This is an abnormal portable EEG due to the slow and
   disorganized background admixed with bursts of moderate amplitude
   generalized delta frequency slowing. This constellation of findings is
   consistent with a moderate encephalopathy and suggests dysfunction of
   bilateral subcortical or deep midline structures. There were no areas
   of prominent focal slowing, although encephalopathic patterns can
   sometimes obscure focal findings. There were no epileptiform features.
   Assessment and Plan
   76 year old with history a seizure disorder, chronic vent dependence
   transfered for hypoxia, and altered mental status.
   # Respiratory Failure: underlying respiratory failure of unclear
   etiology given prior evaluation was only revealing for critical illness
   neuropathy. Currently gas exchanging well on home vent settings.
   Recent exacerbation likely from vomiting complicated by aspiration and
   inability to clear secretions.  Per 1 son pt was tolerating hours of
   [**Name (NI) **] at NH.
   - Blood, urine, sputum cultures drawn, no growth on urine or blood,
   sputum with 1+ GPRs,  unlikely to be pathogen
   - will d/c VAP coverage with Vanc/Zosyn given lack of culture data,
   fevers, leukocytosis, radiographic evidence for PNA.
   - Chest PT, aggressive pulmonary toilet
   - Wean FIO2 by O2sats, attempt mode change/PS trial today, RSBI in am
   128.
   # Altered Mental Status: Unclear if generalized toxic metabolic
   encephalopathy from infection, drugs (mildly elevated dilantin level),
   hypoxia, or from underlying seizure disorder (non-convulsive status)
   though this was not captured on EEG monitoring during last admission in
   [**Month (only) 1563**] to the Neuro ICU (showed only encephalopathic background).  At
   that time, appears to have had similar mental/functional status that
   she has now; however, per notes and her son, had been making
   improvements since that time.  During her last admission, had extensive
   neuro work up at that time which was largely unrevealing including LP,
   paraneoplastic labs which were negative, SPEP/UPEP, MRI/MRA brain, EMG
   concerning for critical illness myopathy.  Patient does not appear to
   be in nonconvulsive status as she does react to noxious stimuli and
   appears to calm when addressed.
   - Neuro consult recommends continuing dilantin, pt may have missed a
   dose, will check a level on Monday
   - Start Keppra
   -EEG shows encephalopathy without epileptiform activity.
   # Vomiting: Had KUB yesterday which showed stool in [**Last Name (LF) 800**], [**First Name3 (LF) **] have
   been worsening residuals, vomiting and risk for aspiration. S/p
   aggressive bowel regimen with passage of large BM.
   -Continue to hold TF for now.
   - Aggressive bowel regimen, currently having BMs
   # Elevated cardiac enzymes: Unlikely to represent acute ischemia given
   unchanged EKG from prior.  Multiple reasons for elevated troponins
   including hypoxic/PEA arrest and chest compressions per report.
   Trending down overnight.
   - Repeat EKG this AM no change
   - Continue aspirin
   - DC plavix given rule out as this was started just prior to admission
   at her nursing home.
   # Acute renal failure: Likely from pre-renal etiology in the setting of
   poor intake.  Patient appears dry on exam.  Chronically with foley so
   unlikely obstruction.
   - Will trend Cr, improvement since admission from 1.5 to 1.1 with
   hydration
   - IVF with some improvement in BUN/Cr, will continue IVF for now.
   Continue to monitor volume status.
   - Renally dose meds
    # Anemia: Currently elevated above prior baseline of 25 suggesting
   dehydration/volume contraction.
   - Trend Hct
   - IVF prn as above.
   # Hypertension: Per history hypertension mostly a problem during
   breathing trials. Was initially normotensive in the setting of
   dehydration and potential infection so BP meds held.  Was hypertensive
   today to 170s systolic, was restarted on some of her home meds
   -labetalol 800TID, clonidine, will hold starting home metoprolol for
   now and monitor, consider adding back on in am.
   ICU Care
   Nutrition:
   Comments: On TF at nursing home. Currently NPO. Holding for now for
   concern of vomiting, aspiration.
   Glycemic Control:
   Lines:
   18 Gauge - [**2115-4-12**] 04:23 AM
   22 Gauge - [**2115-4-12**] 04:24 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU, begin screening for rehab for trached/vented
   patients, per HCP/Son do not want pt to return to [**Hospital1 82**], CM aware.
   Likely return to rehab when bed available and when back to baseline
   vent settings.

2115-04-13 12:23:00 Physician Attending Progress Note
Chief Complaint: Hypoxia and Altered Mental Status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   EEG--no active seizure activity
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2115-4-12**] 02:07 AM
   Vancomycin - [**2115-4-12**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2115-4-13**] 08:23 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2115-4-13**] 08:23 AM
   Heparin Sodium (Prophylaxis) - [**2115-4-13**] 08:23 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-13**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 84 (80 - 84) bpm
   BP: 155/62(87) {129/52(70) - 162/79(99)} mmHg
   RR: 16 (13 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,518 mL
                                                                    371 mL
   PO:
             TF:
   IVF:
                                                                  2,398 mL
                                                                    221 mL
   Blood products:
   Total out:
                                                                  2,869 mL
                                                                    368 mL
   Urine:
                                                                    869 mL
                                                                    368 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -351 mL
                                                                      3 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 7.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   239 K/uL
   83 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.7 mEq/L
   62 mg/dL
   104 mEq/L
   141 mEq/L
   26.8 %
   9.5 K/uL
        [image002.jpg]
                             [**2115-4-11**]  09:56 PM
                             [**2115-4-11**]  10:12 PM
                             [**2115-4-12**]  06:00 AM
                             [**2115-4-13**]  04:00 AM
   WBC
   13.5
   10.0
   9.5
   Hct
   30.1
   28.2
   26.8
   Plt
   272
   257
   239
   Cr
   1.3
   1.1
   TropT
   0.39
   0.39
   TCO2
   28
   Glucose
   101
   83
   Other labs: CK / CKMB / Troponin-T:241/12/0.39, Ca++:8.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.2 mg/dL
   Microbiology: Sputum-
   <10 epi
   >25 WBC
   GPC's noted
   Assessment and Plan
   76 yo female with chronic respiratory failure now admit with concern
   for seizure onset.  She has had follow up evaluation with no evidence
   of ongoing seizure activity noted.   Neurology input for medication
   changes implemented.
   Respiratory Failure
She has persistent ventilatory failure with
   intermittent trach mask trials at facility.  Her admission at this time
   may well have been triggered by some small aspiration events and
   triggering of respiratory distress.
   -Will try PSV wean today
   -If RSBI favorable will trial brief (30 minute) trach mask trial today
   -Will need to check parameters (nif/VC/Compliance/Resistance) if
   failure seen to better define this source.
   -Will D/C abx as do not have evolution of evidence of significant
   infection and likely have aspiration pneumonitis only
   Seizure Disorder-The reported activity prior to admission is suggested
   to be seizure activity.  Here there has been minimal evidence of
   ongoing insult and EEG findings fail to show this as well which is
   reassuring.
   -Will continue Keppra per neurology team rec
   -Continue to monitor for seizure activity
   -Will continue Dilantin dosing as well.
   Hypertension
Chronic issue and medications held which will be
   re-started given hemodynamic stability.
   -Will re-start Clonidine today
   gg
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2115-4-12**] 04:23 AM
   22 Gauge - [**2115-4-12**] 04:24 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments: Plan discussed with son in detail who was
   present in the patient
s room during rounds
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2115-04-14 07:22:00 Physician Resident Progress Note
Chief Complaint: 76 year old with history a seizure disorder, chronic
   vent dependence transfered for hypoxia, and altered mental status.
   24 Hour Events:
   -RSBI 128 in am
   -Switched to CPAP/PS at ~noon
   -notified CM re: initiating screening
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2115-4-12**] 02:07 AM
   Vancomycin - [**2115-4-12**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2115-4-13**] 08:23 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2115-4-13**] 08:23 AM
   Heparin Sodium (Prophylaxis) - [**2115-4-14**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-14**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98.1
   HR: 85 (82 - 90) bpm
   BP: 160/75(97) {146/62(85) - 177/86(110)} mmHg
   RR: 27 (14 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    662 mL
                                                                    172 mL
   PO:
             TF:
   IVF:
                                                                    342 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                    818 mL
                                                                    380 mL
   Urine:
                                                                    818 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -156 mL
                                                                   -208 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 313 (313 - 340) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 116
   PIP: 17 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: ///19/
   Ve: 6.7 L/min
   Physical Examination
   General Appearance: No acute distress, chronically ill
   Eyes / Conjunctiva: No(t) PERRL, left pupil 4->2mm. unable to close
   left eye.
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, trach in
   place. Dry mucous membranes
   Cardiovascular: (S1: Normal), (S2: Normal, Widely split )
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant :
   anteriorly), (Breath Sounds: Diminished: at bases), vent water
   obscuring but otherwise clear anteriorly
   Abdominal: Non-tender, Distended, bowel sounds diminished but present.
   Heparin injection bruises
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Musculoskeletal: Flexion contractures at ankles
   Skin:  Cool, 1.5x1.5 sacral pressure ulcer/skin tear
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: spontaneous movement, Tone: Increased
   with cogwheeling/rigidity, right CN VII palsy.
   Labs / Radiology
   244 K/uL
   9.0 g/dL
   70 mg/dL
   1.1 mg/dL
   19 mEq/L
   3.7 mEq/L
   54 mg/dL
   105 mEq/L
   140 mEq/L
   27.5 %
   8.9 K/uL
        [image002.jpg]
                             [**2115-4-11**]  09:56 PM
                             [**2115-4-11**]  10:12 PM
                             [**2115-4-12**]  06:00 AM
                             [**2115-4-13**]  04:00 AM
                             [**2115-4-14**]  03:51 AM
   WBC
   13.5
   10.0
   9.5
   8.9
   Hct
   30.1
   28.2
   26.8
   27.5
   Plt
   272
   257
   239
   244
   Cr
   1.3
   1.1
   1.1
   TropT
   0.39
   0.39
   TCO2
   28
   Glucose
   101
   83
   70
   Other labs: CK / CKMB / Troponin-T:241/12/0.39, Ca++:9.2 mg/dL,
   Mg++:2.4 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   76 year old with history a seizure disorder, chronic vent dependence
   transfered for hypoxia, and altered mental status.
   # Respiratory Failure: Underlying respiratory failure of unclear
   etiology given prior evaluation was only revealing for critical illness
   neuropathy. Recent exacerbation likely from vomiting complicated by
   aspiration and inability to clear secretions.  Per son pt was
   tolerating hours of [**Name (NI) **] at NH. Currently gas exchanging well on home
   vent settings. Has been tolerating PSV/CPAP since yesterday at 1:00pm.
   - Blood, urine, sputum cultures drawn, no growth on urine or blood,
   sputum with 1+ GPRs/GNR,  will continue to follow micro
   - D/c
d VAP coverage with Vanc/Zosyn given lack of culture data,
   fevers, leukocytosis, radiographic evidence for PNA, growing what
   appears to be oral flora in sputum culture.
   - Chest PT, aggressive pulmonary toilet
   - Wean FIO2 by O2sats, continue PS trial today ([**11-22**]), did not tolerate
   [**4-22**], RSBI this am 110.
   - Can attempt short trial of trach mask today if patient can tolerate.
   # Altered Mental Status: Siginificantly improved since admission.
   Unclear if generalized toxic metabolic encephalopathy from infection,
   drugs (mildly elevated dilantin level), hypoxia, or from underlying
   seizure disorder (non-convulsive status) though this was not captured
   on EEG monitoring during last admission in [**Month (only) 1563**] to the Neuro ICU
   (showed only encephalopathic background).  At that time, appears to
   have had similar mental/functional status that she has now; however,
   per notes and her son, had been making improvements since that time.
   During her last admission, had extensive neuro work up at that time
   which was largely unrevealing including LP, paraneoplastic labs which
   were negative, SPEP/UPEP, MRI/MRA brain, EMG concerning for critical
   illness myopathy.  Patient is currently interactive and follows
   commands.
   - Neuro consult recommends continuing dilantin, will check a level on
   Monday
   - Started Keppra
   - EEG shows encephalopathy without epileptiform activity.
   # Vomiting/regurgitation: Had KUB on admission showing stool in the
   [**Last Name (LF) 800**], [**First Name3 (LF) **] have led to worsening residuals, vomiting and aspiration.
   S/p aggressive bowel regimen with BM at this time.  Regurgitation also
   improved at this time.
   - Will restart TF this morning and increase as tolerated to goal,
   continue to check for residuals.
   - Aggressive bowel regimen, currently having BMs
   # Elevated cardiac enzymes: Unlikely to represent acute ischemia given
   unchanged EKG from prior.  Multiple reasons for elevated troponins
   including hypoxic/PEA arrest and chest compressions per report.
   Trended down since admission.
   - Repeat EKG with no change
   - Continue aspirin
   - DC'd plavix given rule out as this was started just prior to
   admission at her nursing home.
   # Acute renal failure: Resolved. Likely from pre-renal etiology in the
   setting of poor intake.  Patient initally appeared quite dry on exam.
   Chronically with foley so unlikely obstruction.
   - Trending Cr, improvement since admission from 1.5 to 1.1 with
   hydration
   - IVF with some improvement in BUN/Cr, will continue IVF for now.
   Continue to monitor volume status.
   - Renally dose meds
   # Anemia: Still elevated above prior baseline of 25 suggesting
   dehydration/volume contraction.
   - Trend Hct
   - IVF prn as above.
   # Hypertension: Per history hypertension mostly a problem during
   breathing trials. Was initially normotensive in the setting of
   dehydration and potential infection so BP meds held.  Restarted on home
   meds with some improvement in blood pressure.
   - Labetalol 800 TID, clonidine, will uptitrate clonidine today given
   persistent hypertension.
   ICU Care
   Nutrition:
   Still NPO for now given regurgitation, consider trial of trophic feeds
   today
   Glycemic Control:  Adequate
   Lines:
   18 Gauge - [**2115-4-12**] 04:21 AM
   22 Gauge - [**2115-4-12**] 04:24 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, screening for LTAC

2115-04-14 11:18:00 Physician Attending Progress Note
Chief Complaint: Aspiration pneumonitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   1)Patient to PSV yesterday
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2115-4-12**] 02:07 AM
   Vancomycin - [**2115-4-12**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2115-4-13**] 08:23 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2115-4-14**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2115-4-14**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98.1
   HR: 85 (82 - 90) bpm
   BP: 171/80(104) {146/66(85) - 177/86(110)} mmHg
   RR: 27 (17 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    662 mL
                                                                    360 mL
   PO:
             TF:
   IVF:
                                                                    342 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                    818 mL
                                                                    510 mL
   Urine:
                                                                    818 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -156 mL
                                                                   -150 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 320 (313 - 340) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 155
   PIP: 18 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: ///19/
   NIF: -17 cmH2O
   Ve: 8.9 L/min
   Physical Examination
   Lymphatic: Trach in place
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   244 K/uL
   70 mg/dL
   1.1 mg/dL
   19 mEq/L
   3.7 mEq/L
   54 mg/dL
   105 mEq/L
   140 mEq/L
   27.5 %
   8.9 K/uL
        [image002.jpg]
                             [**2115-4-11**]  09:56 PM
                             [**2115-4-11**]  10:12 PM
                             [**2115-4-12**]  06:00 AM
                             [**2115-4-13**]  04:00 AM
                             [**2115-4-14**]  03:51 AM
   WBC
   13.5
   10.0
   9.5
   8.9
   Hct
   30.1
   28.2
   26.8
   27.5
   Plt
   272
   257
   239
   244
   Cr
   1.3
   1.1
   1.1
   TropT
   0.39
   0.39
   TCO2
   28
   Glucose
   101
   83
   70
   Other labs: CK / CKMB / Troponin-T:241/12/0.39, Ca++:9.2 mg/dL,
   Mg++:2.4 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   76 yo female with history of seizure disorder and chronic ventilator
   dependence who now has admission for hypoxemia and altered mental
   status and aspiration pneumonitis. At this time with reasonable minimal
   change in overall therapy have been able to move to successful trial of
   PSV.  This may well represent an improvement in ventilator
   requirement.  This is likelly attributable to improved pneumonitis and
   patient pulmonary compliance.
   1)Respiratory Failure-
   Does have baseline ventilator dependence which may be related to chest
   wall restriction and need for ventilator support.  Given improvement
   here would work towards wean of support.  What may be required is to
   have patient out of bed and upright to allow mechanical advantage to
   facilitate ventilation.
   -PSV to [**9-22**] today
change supported by good success in PSV mode of
   support at this time
   -Will continue to follow culture results in setting of antibiotics
   discontinued.
   -OOB when possible
   -RSBI-110
   -Will trial return to A/C support at night if worsening hypercarbia
   seen
   2)Seizure-
   -Continue Keppra
   -Continue Dilantin
   -Exam much improved
   -Appreciate neuro support
   2.5)Acute Renal Failure-
   -Improving with adequate fluid support and patient moving to baseline
   clearance by Creatining
   2.8)Hypertension-
   Patient with improved control with return to labetolol.  Will move to
   patient home dosing and return clonidine as next [**Doctor Last Name **] from home
   dosing.  Will tolerate modest elevations in the setting of ventilator
   weaning.
   3)ICU-Paitent with good stability and reasonable to consider transfer
   to facility for chronic ventilatory unit
   ICU Care
   Nutrition: Patient with Bm and will look to advance diet via enteral
   route today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2115-4-12**] 04:21 AM
   22 Gauge - [**2115-4-12**] 04:24 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2115-04-15 15:53:00 Physician Resident Progress Note
Chief Complaint: 76 y/o F w/ h/o seizure disorder, chronic vent
   dependence transferred for hypoxia and altered mental status.
   24 Hour Events:
   - Initiated screening for LTAC facility placement
   - Did not tolerate [**4-22**] yesterday, no trial of trach mask as a result
   History obtained from Medical records
   Allergies:
   History obtained from Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2115-4-12**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2115-4-13**] 08:23 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2115-4-15**] 09:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-15**] 03:53 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 91 (80 - 91) bpm
   BP: 154/75(95) {139/60(78) - 178/84(105)} mmHg
   RR: 32 (23 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
                  Total In:
                                                                  1,005 mL
                                                                    725 mL
   PO:
                  TF:
                                                                    280 mL
                                                                    465 mL
   IVF:
                                                                    185 mL
   Blood products:
   Total out:
                                                                  1,070 mL
                                                                    590 mL
   Urine:
                                                                  1,070 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -65 mL
                                                                    135 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 300 (288 - 326) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 96
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 8.3 L/min
   Physical Examination
   General Appearance: No acute distress, chronically ill appearing with
   R-facial droop
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, trach in
   place, dry mucous membranes
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bases)
   Abdominal: Soft, Distended, heparin bruises
   Skin:  Cool, sacral pressure ulcer/skin tear
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, responds
   to voice, tracks, right CNVII palsy
   Labs / Radiology
   230 K/uL
   10.1 g/dL
   78 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.7 mEq/L
   45 mg/dL
   105 mEq/L
   140 mEq/L
   31.1 %
   8.2 K/uL
        [image002.jpg]
                             [**2115-4-11**]  09:56 PM
                             [**2115-4-11**]  10:12 PM
                             [**2115-4-12**]  06:00 AM
                             [**2115-4-13**]  04:00 AM
                             [**2115-4-14**]  03:51 AM
                             [**2115-4-15**]  04:25 AM
   WBC
   13.5
   10.0
   9.5
   8.9
   8.2
   Hct
   30.1
   28.2
   26.8
   27.5
   31.1
   Plt
   272
   257
   239
   244
   230
   Cr
   1.3
   1.1
   1.1
   1.0
   TropT
   0.39
   0.39
   TCO2
   28
   Glucose
   101
   83
   70
   78
   Other labs: PT / PTT / INR:13.7/29.4/1.2, CK / CKMB /
   Troponin-T:241/12/0.39, Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   76 year old with history a seizure disorder, chronic vent dependence
   transfered for hypoxia, and altered mental status.
   # Respiratory Failure: Underlying respiratory failure of unclear
   etiology given prior evaluation was only revealing for critical illness
   neuropathy. Recent exacerbation likely from vomiting complicated by
   aspiration and inability to clear secretions.  Per son pt was
   tolerating hours of [**Name (NI) **] at NH. Currently gas exchanging well on home
   vent settings. Has been tolerating PSV/CPAP.  This AM on [**9-22**], and
   adjusted to [**4-22**].  Will attempt a trial of trach mask.
   - Blood, urine, sputum cultures drawn, no growth on urine or blood,
   sputum with 1+ GPRs/GNR,  will continue to follow micro
   - D/c
d VAP coverage with Vanc/Zosyn given lack of culture data,
   fevers, leukocytosis, radiographic evidence for PNA, growing what
   appears to be oral flora in sputum culture.
   - Chest PT, aggressive pulmonary toilet
   - Wean FIO2 by O2sats, continue PS trial today, follow RISBI.
   - Can attempt short trial of trach mask today if patient can tolerate.
   # Altered Mental Status: Siginificantly improved since admission and at
   baseline.   Unclear if generalized toxic metabolic encephalopathy from
   infection, drugs (mildly elevated dilantin level), hypoxia, or from
   underlying seizure disorder (non-convulsive status) though this was not
   captured on EEG monitoring during last admission in [**Month (only) 1563**] to the Neuro
   ICU (showed only encephalopathic background).  At that time, appears to
   have had similar mental/functional status that she has now; however,
   per notes and her son, had been making improvements since that time.
   During her last admission, had extensive neuro work up at that time
   which was largely unrevealing including LP, paraneoplastic labs which
   were negative, SPEP/UPEP, MRI/MRA brain, EMG concerning for critical
   illness myopathy.  Patient is currently interactive and follows
   commands.
   - Neuro consult recommends continuing dilantin, -> level subtherapeutic
   this AM, d/w neuro and will give 1x loading dose today.
   - Started Keppra
   - EEG shows encephalopathy without epileptiform activity.
   .
   # Vomiting/regurgitation: Had KUB on admission showing stool in the
   [**Last Name (LF) 800**], [**First Name3 (LF) **] have led to worsening residuals, vomiting and aspiration.
   S/p aggressive bowel regimen with BM at this time.  Regurgitation also
   improved at this time.  Will start reglan standing and senna to assist
   with BM
s and avoid precipitating further aspiration.
   - Will restart TF this morning and increase as tolerated to goal,
   continue to check for residuals.
   - Aggressive bowel regimen, currently having BMs
   # Elevated cardiac enzymes: Unlikely to represent acute ischemia given
   unchanged EKG from prior.  Multiple reasons for elevated troponins
   including hypoxic/PEA arrest and chest compressions per report.
   Trended down since admission.
   - Repeat EKG with no change
   - Continue aspirin
   - DC'd plavix given rule out as this was started just prior to
   admission at her nursing home.
   # Acute renal failure: Resolved. Likely from pre-renal etiology in the
   setting of poor intake.  Patient initally appeared quite dry on exam.
   Chronically with foley so unlikely obstruction.
   - Trending Cr, improvement since admission from 1.5 to 1.0 with
   hydration
   - IVF with some improvement in BUN/Cr, will continue tube feeds for
   now. Continue to monitor volume status.
   # Anemia: Still elevated above prior baseline of 25 suggesting
   dehydration/volume contraction.
   - Trend Hct
   - IVF prn as above.
   # Hypertension: Per history hypertension mostly a problem during
   breathing trials. Was initially normotensive in the setting of
   dehydration and potential infection so BP meds held.  Restarted on some
   home meds with some improvement in blood pressure.
   - Labetalol 800 TID, clonidine, will restart metoprolol as taking as
   outpatient. Follow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2115-4-12**] 04:21 AM
   22 Gauge - [**2115-4-12**] 04:24 AM
   Prophylaxis:
   DVT: heparin SQ TID
   Stress ulcer: ranitidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-04-15 16:03:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No major clinical events
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: trach
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2115-4-12**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2115-4-13**] 08:23 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2115-4-15**] 09:30 AM
   Other medications:
   Per [**Month (only) **] (reviewed on rounds, and esp notable for Zosyn)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-15**] 03:48 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 91 (80 - 91) bpm
   BP: 154/75(95) {139/60(78) - 178/84(105)} mmHg
   RR: 32 (23 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
                  Total In:
                                                                  1,005 mL
                                                                    725 mL
   PO:
                  TF:
                                                                    280 mL
                                                                    465 mL
   IVF:
                                                                    185 mL
   Blood products:
   Total out:
                                                                  1,070 mL
                                                                    590 mL
   Urine:
                                                                  1,070 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -65 mL
                                                                    135 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 300 (288 - 326) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 96
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 8.3 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : scant)
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   10.1 g/dL
   230 K/uL
   78 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.7 mEq/L
   45 mg/dL
   105 mEq/L
   140 mEq/L
   31.1 %
   8.2 K/uL
        [image002.jpg]
                             [**2115-4-11**]  09:56 PM
                             [**2115-4-11**]  10:12 PM
                             [**2115-4-12**]  06:00 AM
                             [**2115-4-13**]  04:00 AM
                             [**2115-4-14**]  03:51 AM
                             [**2115-4-15**]  04:25 AM
   WBC
   13.5
   10.0
   9.5
   8.9
   8.2
   Hct
   30.1
   28.2
   26.8
   27.5
   31.1
   Plt
   272
   257
   239
   244
   230
   Cr
   1.3
   1.1
   1.1
   1.0
   TropT
   0.39
   0.39
   TCO2
   28
   Glucose
   101
   83
   70
   78
   Other labs: PT / PTT / INR:13.7/29.4/1.2, CK / CKMB /
   Troponin-T:241/12/0.39, Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   76-year-old woman with history of seizure disorder and chronic
   ventilator dependence now admitted for increased hypoxemia and altered
   mental status, both of which have improved.
   Respiratory failure
   Aspiration pneumonitis appears to be the most likely cause of her acute
   decompensation; she has improved to low-grade PSV requirement, likely
   attributable to improved pneumonitis and therefore improved pulmonary
   compliance.
   Does have baseline ventilator dependence which may be related to chest
   wall restriction. While she is still here, will work toward weaning
   support
   Try TM trial today
   If unsuccessful, get further mechanics
 suspect she will do best when
   OOB and upright.
   Seizure
   Appreciate neurology
s help; we will continue current AEDs.
   Acute Renal Failure
   Improving
   Hypertension
   Still substantially high.  Will add back in her usual doses of
   metoprolol today (she has a high baseline requirement)
   ICU Care
   Nutrition: TF
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2115-4-12**] 04:21 AM
   22 Gauge - [**2115-4-12**] 04:24 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, etc.
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility.  She is
   stable for this transfer at present, and main ongoing issue is
   ventilator weaning.  Will discuss with case management, patient, and
   family.
   Total time spent: 35 minutes

2115-04-16 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Neuro agreed with reloading with dilantin 250mg q3h given
   subtherapeutic level on AM labs
   - Would also like nerve biopsy to determine why she is weak, page Neuro
   in AM if patient leaving so can arrange biopsy.
   - Restarted at home BP meds.
   - Trach Collar
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2115-4-13**] 08:23 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2115-4-15**] 09:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-16**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 87 (83 - 101) bpm
   BP: 144/71(90) {141/63(81) - 222/117(143)} mmHg
   RR: 27 (24 - 40) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
                  Total In:
                                                                  1,448 mL
                                                                    450 mL
   PO:
                  TF:
                                                                    888 mL
                                                                    290 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,065 mL
                                                                    270 mL
   Urine:
                                                                  1,065 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    383 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 321 (286 - 321) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 111
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   230 K/uL
   10.1 g/dL
   78 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.7 mEq/L
   45 mg/dL
   105 mEq/L
   140 mEq/L
   31.1 %
   8.2 K/uL
        [image002.jpg]
                             [**2115-4-11**]  09:56 PM
                             [**2115-4-11**]  10:12 PM
                             [**2115-4-12**]  06:00 AM
                             [**2115-4-13**]  04:00 AM
                             [**2115-4-14**]  03:51 AM
                             [**2115-4-15**]  04:25 AM
   WBC
   13.5
   10.0
   9.5
   8.9
   8.2
   Hct
   30.1
   28.2
   26.8
   27.5
   31.1
   Plt
   272
   257
   239
   244
   230
   Cr
   1.3
   1.1
   1.1
   1.0
   TropT
   0.39
   0.39
   TCO2
   28
   Glucose
   101
   83
   70
   78
   Other labs: PT / PTT / INR:13.7/29.4/1.2, CK / CKMB /
   Troponin-T:241/12/0.39, Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   76 year old with history a seizure disorder, chronic vent dependence
   transfered for hypoxia, and altered mental status.
   # Respiratory Failure: Underlying respiratory failure of unclear
   etiology given prior evaluation was only revealing for critical illness
   neuropathy. Recent exacerbation likely from vomiting complicated by
   aspiration and inability to clear secretions.  Per son pt was
   tolerating hours of [**Name (NI) **] at NH. Currently gas exchanging well on home
   vent settings. Has been tolerating PSV/CPAP.  This AM on [**9-22**], and
   adjusted to [**4-22**].  Will attempt a trial of trach mask.
   - Blood, urine, sputum cultures drawn, no growth on urine or blood,
   sputum with 1+ GPRs/GNR,  will continue to follow micro
   - D/c
d VAP coverage with Vanc/Zosyn given lack of culture data,
   fevers, leukocytosis, radiographic evidence for PNA, growing what
   appears to be oral flora in sputum culture.
   - Chest PT, aggressive pulmonary toilet
   - Wean FIO2 by O2sats, continue PS trial today, follow RISBI.
   - Can attempt short trial of trach mask today if patient can tolerate.
   # Altered Mental Status: Siginificantly improved since admission and at
   baseline.   Unclear if generalized toxic metabolic encephalopathy from
   infection, drugs (mildly elevated dilantin level), hypoxia, or from
   underlying seizure disorder (non-convulsive status) though this was not
   captured on EEG monitoring during last admission in [**Month (only) 1563**] to the Neuro
   ICU (showed only encephalopathic background).  At that time, appears to
   have had similar mental/functional status that she has now; however,
   per notes and her son, had been making improvements since that time.
   During her last admission, had extensive neuro work up at that time
   which was largely unrevealing including LP, paraneoplastic labs which
   were negative, SPEP/UPEP, MRI/MRA brain, EMG concerning for critical
   illness myopathy.  Patient is currently interactive and follows
   commands.
   - Neuro consult recommends continuing dilantin, -> level subtherapeutic
   this AM, d/w neuro and will give 1x loading dose today.
   - Started Keppra
   - EEG shows encephalopathy without epileptiform activity.
   .
   # Vomiting/regurgitation: Had KUB on admission showing stool in the
   [**Last Name (LF) 800**], [**First Name3 (LF) **] have led to worsening residuals, vomiting and aspiration.
   S/p aggressive bowel regimen with BM at this time.  Regurgitation also
   improved at this time.  Will start reglan standing and senna to assist
   with BM
s and avoid precipitating further aspiration.
   - Will restart TF this morning and increase as tolerated to goal,
   continue to check for residuals.
   - Aggressive bowel regimen, currently having BMs
   # Elevated cardiac enzymes: Unlikely to represent acute ischemia given
   unchanged EKG from prior.  Multiple reasons for elevated troponins
   including hypoxic/PEA arrest and chest compressions per report.
   Trended down since admission.
   - Repeat EKG with no change
   - Continue aspirin
   - DC'd plavix given rule out as this was started just prior to
   admission at her nursing home.
   # Acute renal failure: Resolved. Likely from pre-renal etiology in the
   setting of poor intake.  Patient initally appeared quite dry on exam.
   Chronically with foley so unlikely obstruction.
   - Trending Cr, improvement since admission from 1.5 to 1.0 with
   hydration
   - IVF with some improvement in BUN/Cr, will continue tube feeds for
   now. Continue to monitor volume status.
   # Anemia: Still elevated above prior baseline of 25 suggesting
   dehydration/volume contraction.
   - Trend Hct
   - IVF prn as above.
   # Hypertension: Per history hypertension mostly a problem during
   breathing trials. Was initially normotensive in the setting of
   dehydration and potential infection so BP meds held.  Restarted on some
   home meds with some improvement in blood pressure.
   - Labetalol 800 TID, clonidine, will restart metoprolol as taking as
   outpatient. Follow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2115-4-12**] 04:21 AM
   22 Gauge - [**2115-4-12**] 04:24 AM
   Prophylaxis:
   DVT: heparin SQ TID
   Stress ulcer: ranitidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-04-16 11:54:00 Physician Attending Progress Note
Chief Complaint: altered mental status
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   Neuro consult rec: sural nerve and gastrocnemius nerve bx to r/o
   critical illness myopathy
   BP meds restarted
   Did not tolerate TC trial given hypertension (SBP 200s), tachycardia
   Copious thick yellow sputum
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   SC Heparin
   Peridex
   Levothyroxine
   Folic acid
   Ranitidine
   Thiamine
   Keppra
   Clonidine
   Labetalol
   dilantin
   asa 81
   lopressor
   hydralazine
   reglan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-16**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.4
   HR: 84 (83 - 101) bpm
   BP: 153/82(99) {120/59(74) - 222/117(143)} mmHg
   RR: 32 (16 - 40) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
                  Total In:
                                                                  1,448 mL
                                                                    789 mL
   PO:
                  TF:
                                                                    888 mL
                                                                    469 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,065 mL
                                                                    470 mL
   Urine:
                                                                  1,065 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    383 mL
                                                                    319 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 250 (244 - 321) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 111
   PIP: 16 cmH2O
   Plateau: 22 cmH2O
   SpO2: 96%
   ABG: ////
   Ve: 7.6 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   clear anteriorly b/l, Diminished: laterally b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   230 K/uL
   78 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.7 mEq/L
   45 mg/dL
   105 mEq/L
   140 mEq/L
   31.1 %
   8.2 K/uL
        [image002.jpg]
                             [**2115-4-11**]  09:56 PM
                             [**2115-4-11**]  10:12 PM
                             [**2115-4-12**]  06:00 AM
                             [**2115-4-13**]  04:00 AM
                             [**2115-4-14**]  03:51 AM
                             [**2115-4-15**]  04:25 AM
   WBC
   13.5
   10.0
   9.5
   8.9
   8.2
   Hct
   30.1
   28.2
   26.8
   27.5
   31.1
   Plt
   272
   257
   239
   244
   230
   Cr
   1.3
   1.1
   1.1
   1.0
   TropT
   0.39
   0.39
   TCO2
   28
   Glucose
   101
   83
   70
   78
   Other labs: PT / PTT / INR:13.7/29.4/1.2, CK / CKMB /
   Troponin-T:241/12/0.39, Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Microbiology: Sputum [**4-12**] - rare GNR (>25 pmn, <10 epi)
   Assessment and Plan
   #Altered mental status - back to b/l
   #Weakness - ?critical illness myopathy, nerve bx today
   #Resp failure - rpt sputum cx given thick yellow sputum (no empiric abx
   for now given afebrile, WBC nl).  Rpt TC trial today.
   #HTN - cont current regimen, BP improved
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2115-4-16**] 07:39 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-4-16**] 09:38 AM
   22 Gauge - [**2115-4-16**] 09:47 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent:

2115-04-16 17:39:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2115-4-16**] 03:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-16**] 05:39 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 82 (82 - 90) bpm
   BP: 134/71(87) {120/59(74) - 181/98(112)} mmHg
   RR: 20 (16 - 40) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61 kg (admission): 27.3 kg
   Height: 66 Inch
                  Total In:
                                                                  1,448 mL
                                                                  1,698 mL
   PO:
                  TF:
                                                                    888 mL
                                                                    708 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,065 mL
                                                                    700 mL
   Urine:
                                                                  1,065 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    383 mL
                                                                    998 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 284 (244 - 321) mL
   PS : 14 cmH2O
   RR (Set): 12
   RR (Spontaneous): 35
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 111
   PIP: 16 cmH2O
   Plateau: 22 cmH2O
   SpO2: 96%
   ABG: ///26/
   Ve: 10.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.2 g/dL
   210 K/uL
   143 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.5 mEq/L
   36 mg/dL
   104 mEq/L
   139 mEq/L
   30.8 %
   9.6 K/uL
        [image002.jpg]
                             [**2115-4-11**]  09:56 PM
                             [**2115-4-11**]  10:12 PM
                             [**2115-4-12**]  06:00 AM
                             [**2115-4-13**]  04:00 AM
                             [**2115-4-14**]  03:51 AM
                             [**2115-4-15**]  04:25 AM
                             [**2115-4-16**]  03:29 PM
   WBC
   13.5
   10.0
   9.5
   8.9
   8.2
   9.6
   Hct
   30.1
   28.2
   26.8
   27.5
   31.1
   30.8
   Plt
   272
   257
   239
   244
   230
   210
   Cr
   1.3
   1.1
   1.1
   1.0
   0.9
   TropT
   0.39
   0.39
   TCO2
   28
   Glucose
   101
   83
   70
   78
   143
   Other labs: PT / PTT / INR:13.7/29.4/1.2, CK / CKMB /
   Troponin-T:241/12/0.39, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2115-4-16**] 07:39 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-4-16**] 09:38 AM
   22 Gauge - [**2115-4-16**] 09:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2115-04-16 18:00:00 Physician Attending Progress Note
Chief Complaint: altered mental status, hypoxemia - resolved
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   76 yo F w/chronic resp failure (?NM, ?chest wall restriction) on vent,
   sz d/o, and recent neurologic decline of unclear [**Name2 (NI) **] admitted
   following TF aspiration and ?sz w/hypoxemia and altered mental status.
   Notably, on day PTA, suffered PEA arrest in setting of hypoxemia/mucous
   plugging.
   24 Hour Events:
   -Neuro consult rec: sural nerve and gastrocnemius nerve bx
   -Home BP meds restarted
   -Did not tolerate TC trial [**4-15**] given hypertension (SBP 200s) and
   tachycardia
   -Suctioned for thick yellow sputum
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   SC Heparin
   Peridex
   Levothyroxine
   Folic acid
   Ranitidine
   Thiamine
   Keppra
   Clonidine
   Labetalol
   dilantin
   asa 81
   lopressor
   hydralazine
   reglan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-16**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.4
   HR: 84 (83 - 101) bpm
   BP: 153/82(99) {120/59(74) - 222/117(143)} mmHg
   RR: 32 (16 - 40) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
                  Total In:
                                                                  1,448 mL
                                                                    789 mL
   PO:
                  TF:
                                                                    888 mL
                                                                    469 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,065 mL
                                                                    470 mL
   Urine:
                                                                  1,065 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    383 mL
                                                                    319 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 250 (244 - 321) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 111
   PIP: 16 cmH2O
   Plateau: 22 cmH2O
   SpO2: 96%
   ABG: ////
   Ve: 7.6 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   clear anteriorly b/l, Diminished: laterally b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   230 K/uL
   78 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.7 mEq/L
   45 mg/dL
   105 mEq/L
   140 mEq/L
   31.1 %
   8.2 K/uL
        [image002.jpg]
                             [**2115-4-11**]  09:56 PM
                             [**2115-4-11**]  10:12 PM
                             [**2115-4-12**]  06:00 AM
                             [**2115-4-13**]  04:00 AM
                             [**2115-4-14**]  03:51 AM
                             [**2115-4-15**]  04:25 AM
   WBC
   13.5
   10.0
   9.5
   8.9
   8.2
   Hct
   30.1
   28.2
   26.8
   27.5
   31.1
   Plt
   272
   257
   239
   244
   230
   Cr
   1.3
   1.1
   1.1
   1.0
   TropT
   0.39
   0.39
   TCO2
   28
   Glucose
   101
   83
   70
   78
   Other labs: PT / PTT / INR:13.7/29.4/1.2, CK / CKMB /
   Troponin-T:241/12/0.39, Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Microbiology: Sputum [**4-12**] - rare GNR (>25 pmn, <10 epi)
   Assessment and Plan
   76-year-old woman with history of seizure disorder and chronic
   ventilator dependence now admitted for increased hypoxemia and altered
   mental status, both of which have improved. Notably, on day PTA,
   suffered PEA arrest in setting of hypoxemia/mucous plugging.
   Respiratory failure
          Etiology of chronic resp failure unclear- NM vs. chest wall
   restriction.
          Aspiration pneumonitis appears to be the most likely cause
   of her acute decompensation; she has improved to low-grade PSV
   requirement, likely attributable to improved pneumonitis and therefore
   improved pulmonary compliance.
          Repeat sputum cx today given thick yellow sputum (no empiric
   abx for now given afebrile, WBC nl).
          TC trial today.
   Altered mental status
   ?post PEA arrest.  Head CT wnl, EEG w/o e/o sz, and no obvious
   infection. Currently, the neuro team, who knows her well thinks her
   mental status is at her baseline.  Son is coming tonight to confirm.
   Seizure disorder
   Appreciate neurology
s help; we will continue current AEDs.
   Acute Renal Failure
   Improving
   Hypertension
   Continue present regimen (she has a high baseline requirement but has
   improved over past day)
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2115-4-16**] 07:39 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-4-16**] 09:38 AM
   22 Gauge - [**2115-4-16**] 09:47 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 min

2115-04-17 07:51:00 Physician Resident Progress Note
Chief Complaint: 76 y/o M w/ h/o seizure disorder, chronic vent
   dependence transferred for hypoxia and altered mental status, now
   stabilized and awaiting nerve biopsy prior to discharge
   24 Hour Events:
   -neurosurgery was [**Name (NI) 420**], they will do the sural nerve biopsy on
   Friday
   -Given 500cc NS bolus for decreased UOP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2115-4-16**] 03:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-17**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 81 (79 - 90) bpm
   BP: 134/73(87) {120/59(74) - 181/97(109)} mmHg
   RR: 26 (16 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61 kg (admission): 27.3 kg
   Height: 66 Inch
             Total In:
                                                                  2,426 mL
                                                                  1,131 mL
   PO:
             TF:
                                                                  1,276 mL
                                                                    311 mL
   IVF:
   500 mL
   Blood products:
   Total out:
                                                                    865 mL
                                                                    260 mL
   Urine:
                                                                    865 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,561 mL
                                                                    871 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 312 (244 - 312) mL
   PS : 14 cmH2O
   RR (Set): 12
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 132
   PIP: 20 cmH2O
   Plateau: 22 cmH2O
   SpO2: 97%
   ABG: ///25/
   Ve: 7.5 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   coarse breath sounds
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, tracks to voice
   Labs / Radiology
   233 K/uL
   10.2 g/dL
   116 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.6 mEq/L
   35 mg/dL
   106 mEq/L
   140 mEq/L
   30.3 %
   16.6 K/uL
        [image002.jpg]
                             [**2115-4-11**]  09:56 PM
                             [**2115-4-11**]  10:12 PM
                             [**2115-4-12**]  06:00 AM
                             [**2115-4-13**]  04:00 AM
                             [**2115-4-14**]  03:51 AM
                             [**2115-4-15**]  04:25 AM
                             [**2115-4-16**]  03:29 PM
                             [**2115-4-17**]  03:11 AM
   WBC
   13.5
   10.0
   9.5
   8.9
   8.2
   9.6
   16.6
   Hct
   30.1
   28.2
   26.8
   27.5
   31.1
   30.8
   30.3
   Plt
   272
   257
   239
   244
   230
   210
   233
   Cr
   1.3
   1.1
   1.1
   1.0
   0.9
   0.8
   TropT
   0.39
   0.39
   TCO2
   28
   Glucose
   101
   83
   70
   78
   143
   116
   Other labs: PT / PTT / INR:12.8/26.2/1.1, CK / CKMB /
   Troponin-T:241/12/0.39, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   76 year old with history a seizure disorder, chronic vent dependence
   transfered for hypoxia, and altered mental status.
   #AFB: Patient with a positive AFB reported from lab on basis of
   suspicious gram stain lab took initiative to perform AFB
s.  Now on
   respiratory isolation.  Obtaining repeat AFB smears.  No known history
   of TB.  Would also consider [**Doctor First Name **] or nocardia.
   -          continue respiratory isolation, and await sensitivity and
   speciation on AFB.
   -          Chest X-ray, sputum, AFB as above.
   -          Will need PCR and will need to notifiy LTAC facility if
   positive result.
   .
   #Leukocytosis: New today.  Will work-up with CXR, Ua, Blood culture,
   sputum given slightly more lethargic appearance on exam.
   -          Concern for pneumonia in this patient with aspiration risk
   -          Defer treatment until source identified unless patient
   decompensates.
   .
   # Respiratory Failure: Underlying respiratory failure of unclear
   etiology given prior evaluation was only revealing for critical illness
   neuropathy. Recent exacerbation likely from vomiting complicated by
   aspiration and inability to clear secretions.  Per son pt was
   tolerating hours of [**Name (NI) **] at NH. Currently gas exchanging well on home
   vent settings. Has been tolerating PSV/CPAP.  This AM on [**9-22**], and
   adjusted to [**4-22**].
   - trial of trach mask [**4-16**]
 patient could not tolerate.  Otherwise at
   baseline on home CPAP settings.
   - Blood, urine, sputum cultures drawn, no growth on urine or blood,
   sputum with 1+ GPRs/GNR,  will continue to follow micro
   - repeat sputum given increased sputum production
   - D/c
d VAP coverage with Vanc/Zosyn given lack of culture data,
   fevers, leukocytosis, radiographic evidence for PNA, growing what
   appears to be oral flora in sputum culture.
   - Chest PT, aggressive pulmonary toilet
   - Wean FIO2 by O2sats, continue PS today,
   # Altered Mental Status: Siginificantly improved since admission and at
   baseline although mildly more lethargic today.   Unclear if generalized
   toxic metabolic encephalopathy from infection, drugs (mildly elevated
   dilantin level), hypoxia, or from underlying seizure disorder
   (non-convulsive status) though this was not captured on EEG monitoring
   during last admission in [**Month (only) 1563**] to the Neuro ICU (showed only
   encephalopathic background).  At that time, appears to have had similar
   mental/functional status that she has now; however, per notes and her
   son, had been making improvements since that time.  During her last
   admission, had extensive neuro work up at that time which was largely
   unrevealing including LP, paraneoplastic labs which were negative,
   SPEP/UPEP, MRI/MRA brain, EMG concerning for critical illness
   myopathy.  Patient is currently interactive and follows commands.
   - Neuro consult recommends continuing dilantin, -> level subtherapeutic
   this AM, d/w neuro and will give 1x loading dose today and increase to
   150 TID.
   - Started Keppra
   - daily dilantin level
   - EEG shows encephalopathy without epileptiform activity.
   .
   # Vomiting/regurgitation: Had KUB on admission showing stool in the
   [**Last Name (LF) 800**], [**First Name3 (LF) **] have led to worsening residuals, vomiting and aspiration.
   S/p aggressive bowel regimen with BM at this time.  Regurgitation also
   improved at this time.  Will start reglan standing and senna to assist
   with BM
s and avoid precipitating further aspiration.
   - held TF for increased residuals -> restart today as tolerated.
   - Aggressive bowel regimen, currently having BMs
   # Acute renal failure: Resolved. Likely from pre-renal etiology in the
   setting of poor intake.  Patient initally appeared quite dry on exam.
   Chronically with foley so unlikely obstruction.
   - Trending Cr, improvement since admission from 1.5 to 1.0 with
   hydration
   - IVF with some improvement in BUN/Cr, will continue tube feeds for
   now. Continue to monitor volume status.
   # Anemia: Still elevated above prior baseline of 25 suggesting
   dehydration/volume contraction.
   - Trend Hct
   - IVF prn as above.
   # Hypertension: Per history hypertension mostly a problem during
   breathing trials. Was initially normotensive in the setting of
   dehydration and potential infection so BP meds held.  Restarted on some
   home meds with some improvement in blood pressure.
   - Labetalol 800 TID, clonidine, hydralazine, lopressor
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2115-4-16**] 11:49 PM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-4-16**] 09:38 AM
   22 Gauge - [**2115-4-16**] 09:47 AM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: ranitidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-04-17 11:02:00 Physician Attending Progress Note
Chief Complaint: resp distress, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   24 hr events
   Neuro consult - wants sural nerve Bx, pl,an by Nsurg for Friday
   Low UOP required 500 cc bolus
   Sputum cx with AFB seen on conventional C and S sent down and Infection
   control notified and pt put into isolation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2115-4-17**] 08:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-17**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 82 (79 - 89) bpm
   BP: 125/67(80) {123/64(79) - 181/124(130)} mmHg
   RR: 18 (18 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61 kg (admission): 27.3 kg
   Height: 66 Inch
             Total In:
                                                                  2,426 mL
                                                                  1,378 mL
   PO:
             TF:
                                                                  1,276 mL
                                                                    428 mL
   IVF:
   500 mL
   Blood products:
   Total out:
                                                                    865 mL
                                                                    335 mL
   Urine:
                                                                    865 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,561 mL
                                                                  1,043 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 319 (250 - 319) mL
   PS : 14 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 132
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 8.1 L/min
   Physical Examination
   Gen: lying in bed, not tracking or following commands
   Chest: coase BS right greater than left
   CV: RR
   Abd: soft NT
   Ext: trace edema
   Labs / Radiology
   10.2 g/dL
   233 K/uL
   116 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.6 mEq/L
   35 mg/dL
   106 mEq/L
   140 mEq/L
   30.3 %
   16.6 K/uL
        [image002.jpg]
                             [**2115-4-11**]  09:56 PM
                             [**2115-4-11**]  10:12 PM
                             [**2115-4-12**]  06:00 AM
                             [**2115-4-13**]  04:00 AM
                             [**2115-4-14**]  03:51 AM
                             [**2115-4-15**]  04:25 AM
                             [**2115-4-16**]  03:29 PM
                             [**2115-4-17**]  03:11 AM
   WBC
   13.5
   10.0
   9.5
   8.9
   8.2
   9.6
   16.6
   Hct
   30.1
   28.2
   26.8
   27.5
   31.1
   30.8
   30.3
   Plt
   272
   257
   239
   244
   230
   210
   233
   Cr
   1.3
   1.1
   1.1
   1.0
   0.9
   0.8
   TropT
   0.39
   0.39
   TCO2
   28
   Glucose
   101
   83
   70
   78
   143
   116
   Other labs: PT / PTT / INR:12.8/26.2/1.1, CK / CKMB /
   Troponin-T:241/12/0.39, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   76-year-old woman with history of seizure disorder and chronic
   ventilator dependence now admitted for increased hypoxemia and altered
   mental status, both of which have improved. Notably, on day PTA,
   suffered PEA arrest in setting of hypoxemia/mucous plugging.
   AFB: sputum cx sent to lab and noted to have AFB visible. Infection
   control notified, put in neg pressure room. Will send repeat, sample to
   state lab, and discuss with [**First Name8 (NamePattern2) 1288**] [**Last Name (NamePattern1) 2474**] role of PCR to clarify this
   issue ( both for exposures at this hospital and [**Hospital1 82**])
   Respiratory failure: remains of mech ventilation failed TC yesterday
   due to hypertension and visble distress. Also ++ secretions so placed
   back on CMV
          Etiology of chronic resp failure unclear- NM vs. chest wall
   restriction. Appreciate Neuro input
          Aspiration pneumonitis appears to be the most likely cause
   of her acute decompensation; she has improved to low-grade
              PSV requirement, likely attributable to improved pneumonitis
   and therefore improved pulmonary compliance.
          Repeat sputum cx today given thick yellow sputum (no empiric
   abx for now given afebrile, WBC nl).
   Altered mental status: ?post PEA arrest.  Head CT wnl, EEG w/o e/o sz,
   and no obvious infection. Currently, the neuro team, who knows her well
   thinks her mental status is at her baseline.
   Seizure disorder: Appreciate neurology
s help; we will continue current
   AEDs.
   Acute Renal Failure: Improving
   Hypertension: Continue present regimen (she has a high baseline
   requirement but has improved over past day)
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2115-4-16**] 11:49 PM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-4-16**] 09:38 AM
   22 Gauge - [**2115-4-16**] 09:47 AM
   Prophylaxis:
   DVT: SC
   Stress ulcer: PPI
   VAP: HOB chlor hex
   Comments:
   Communication:  son
   [**Name (NI) 66**] status: Full code
   Disposition : ICU for now
   Total time spent: 35

2115-04-18 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2115-4-17**] 09:16 AM
 BLOOD CULTURED - At [**2115-4-17**] 11:28 AM
 URINE CULTURE - At [**2115-4-17**] 11:29 AM
 BLOOD CULTURED - At [**2115-4-17**] 11:45 AM
   - NIF to be done in AM to assess for post polio syndrome
   - wound care consult
   - given 20mg IV lasix given grossly positive, still retaining fluids
   this AM
   - placed on cefepime for GNR growing in sputum
   - neurosurg rec to d/c asa and stop heparin on thursday prior to biopsy
   - state lab running pcr on sputum specimen, results will be in today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-4-17**] 07:39 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2115-4-17**] 08:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-18**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.6
   HR: 73 (72 - 84) bpm
   BP: 100/57(67) {96/55(65) - 155/124(130)} mmHg
   RR: 21 (16 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.8 kg (admission): 27.3 kg
   Height: 66 Inch
                  Total In:
                                                                  4,505 mL
                                                                  6,864 mL
   PO:
                  TF:
                                                                  3,035 mL
                                                                  6,644 mL
   IVF:
                                                                    600 mL
   Blood products:
   Total out:
                                                                    955 mL
                                                                    230 mL
   Urine:
                                                                    955 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,550 mL
                                                                  6,634 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 344 (319 - 380) mL
   PS : 14 cmH2O
   RR (Set): 0
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 110
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 7.3 L/min
   Physical Examination
   General Appearance: No(t) Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), coarse
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, tracks to voice, does not follow simple
   commands
   Labs / Radiology
   237 K/uL
   11.4 g/dL
   117 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.5 mEq/L
   38 mg/dL
   104 mEq/L
   139 mEq/L
   34.0 %
   13.1 K/uL
        [image002.jpg]
                             [**2115-4-11**]  09:56 PM
                             [**2115-4-11**]  10:12 PM
                             [**2115-4-12**]  06:00 AM
                             [**2115-4-13**]  04:00 AM
                             [**2115-4-14**]  03:51 AM
                             [**2115-4-15**]  04:25 AM
                             [**2115-4-16**]  03:29 PM
                             [**2115-4-17**]  03:11 AM
                             [**2115-4-18**]  04:35 AM
   WBC
   13.5
   10.0
   9.5
   8.9
   8.2
   9.6
   16.6
   13.1
   Hct
   30.1
   28.2
   26.8
   27.5
   31.1
   30.8
   30.3
   34.0
   Plt
   272
   257
   239
   244
   230
   210
   233
   237
   Cr
   1.3
   1.1
   1.1
   1.0
   0.9
   0.8
   0.9
   TropT
   0.39
   0.39
   TCO2
   28
   Glucose
   101
   83
   70
   78
   143
   116
   117
   Other labs: PT / PTT / INR:12.7/30.6/1.1, CK / CKMB /
   Troponin-T:241/12/0.39, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Fluid analysis / Other labs: Phenytoin 8.9 (low)
   Imaging: CXR: The tracheostomy is at the midline with its tip
   projecting 3.7 cm above the carina. The bilateral pleural effusions are
   large, increased in the meantime
   interval. There is also worsening of bilateral perihilar opacities
   consistent
   with pulmonary edema. Underlying infection cannot be excluded in the
   presence of significant superimposed opacities such as pulmonary edema
   and pleural
   effusion.
   Microbiology: Blood Culture: NGTD
   Urine Culture: NGTD
   [**2115-4-16**] 2:09 pm SPUTUM      Source: Endotracheal.
         ACID FAST CULTURE & SMEAR ADDED PER DR.[**First Name (STitle) 2482**],[**First Name3 (LF) 2483**] [**2115-4-17**].
      GRAM STAIN (Final [**2115-4-16**]):
         >25 PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
         ? OROPHARYNGEAL FLORA.
         GRAM NEGATIVE ROD(S).    MODERATE GROWTH.
      ACID FAST CULTURE (Pending):
      ACID FAST SMEAR (Final [**2115-4-17**]):
         REPORTED BY PHONE TO [**Last Name (LF) **],[**First Name3 (LF) **] AND [**Last Name (LF) **],[**First Name3 (LF) **] @ 08:30,
         [**2115-4-17**].
         ACIDFAST BACILLI.    MODERATE SEEN ON CONCENTREATED SMEAR.
      GEN-PROBE AMPLIFIED M. TUBERCULOSIS DIRECT TEST (MTD) (Preliminary):
         SENT TO STATE [**2115-4-17**].
   Assessment and Plan
   76 year old with history a seizure disorder, chronic vent dependence
   transfered for hypoxia, and altered mental status.
   #AFB: Patient with a positive AFB reported from lab on basis of
   suspicious gram stain lab took initiative to perform AFB
s.  Now on
   respiratory isolation.  Obtaining repeat AFB smears.  No known history
   of TB.  Would also consider [**Doctor First Name **] or nocardia.
   -          continue respiratory isolation, and await sensitivity and
   speciation on AFB.
   -          Chest X-ray, sputum, AFB as above.
   -          Will need PCR and will need to notifiy LTAC facility if
   positive result.
   .
   #Leukocytosis: New today.  Will work-up with CXR, Ua, Blood culture,
   sputum given slightly more lethargic appearance on exam.
   -          Concern for pneumonia in this patient with aspiration risk
   -          Defer treatment until source identified unless patient
   decompensates.
   .
   # Respiratory Failure: Underlying respiratory failure of unclear
   etiology given prior evaluation was only revealing for critical illness
   neuropathy. Recent exacerbation likely from vomiting complicated by
   aspiration and inability to clear secretions.  Per son pt was
   tolerating hours of [**Name (NI) **] at NH. Currently gas exchanging well on home
   vent settings. Has been tolerating PSV/CPAP.  This AM on [**9-22**], and
   adjusted to [**4-22**].
   - trial of trach mask [**4-16**]
 patient could not tolerate.  Otherwise at
   baseline on home CPAP settings.
   - Blood, urine, sputum cultures drawn, no growth on urine or blood,
   sputum with 1+ GPRs/GNR,  will continue to follow micro
   - repeat sputum given increased sputum production
   - D/c
d VAP coverage with Vanc/Zosyn given lack of culture data,
   fevers, leukocytosis, radiographic evidence for PNA, growing what
   appears to be oral flora in sputum culture.
   - Chest PT, aggressive pulmonary toilet
   - Wean FIO2 by O2sats, continue PS today,
   # Altered Mental Status: Siginificantly improved since admission and at
   baseline although mildly more lethargic today.   Unclear if generalized
   toxic metabolic encephalopathy from infection, drugs (mildly elevated
   dilantin level), hypoxia, or from underlying seizure disorder
   (non-convulsive status) though this was not captured on EEG monitoring
   during last admission in [**Month (only) 1563**] to the Neuro ICU (showed only
   encephalopathic background).  At that time, appears to have had similar
   mental/functional status that she has now; however, per notes and her
   son, had been making improvements since that time.  During her last
   admission, had extensive neuro work up at that time which was largely
   unrevealing including LP, paraneoplastic labs which were negative,
   SPEP/UPEP, MRI/MRA brain, EMG concerning for critical illness
   myopathy.  Patient is currently interactive and follows commands.
   - Neuro consult recommends continuing dilantin, -> level subtherapeutic
   this AM, d/w neuro and will give 1x loading dose today and increase to
   150 TID.
   - Started Keppra
   - daily dilantin level
   - EEG shows encephalopathy without epileptiform activity.
   .
   # Vomiting/regurgitation: Had KUB on admission showing stool in the
   [**Last Name (LF) 800**], [**First Name3 (LF) **] have led to worsening residuals, vomiting and aspiration.
   S/p aggressive bowel regimen with BM at this time.  Regurgitation also
   improved at this time.  Will start reglan standing and senna to assist
   with BM
s and avoid precipitating further aspiration.
   - held TF for increased residuals -> restart today as tolerated.
   - Aggressive bowel regimen, currently having BMs
   # Acute renal failure: Resolved. Likely from pre-renal etiology in the
   setting of poor intake.  Patient initally appeared quite dry on exam.
   Chronically with foley so unlikely obstruction.
   - Trending Cr, improvement since admission from 1.5 to 1.0 with
   hydration
   - IVF with some improvement in BUN/Cr, will continue tube feeds for
   now. Continue to monitor volume status.
   # Anemia: Still elevated above prior baseline of 25 suggesting
   dehydration/volume contraction.
   - Trend Hct
   - IVF prn as above.
   # Hypertension: Per history hypertension mostly a problem during
   breathing trials. Was initially normotensive in the setting of
   dehydration and potential infection so BP meds held.  Restarted on some
   home meds with some improvement in blood pressure.
   - Labetalol 800 TID, clonidine, hydralazine, lopressor
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2115-4-18**] 04:45 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-4-16**] 09:38 AM
   22 Gauge - [**2115-4-16**] 09:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-04-18 10:37:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2115-4-17**] 09:16 AM
 BLOOD CULTURED - At [**2115-4-17**] 11:28 AM
 URINE CULTURE - At [**2115-4-17**] 11:29 AM
 BLOOD CULTURED - At [**2115-4-17**] 11:45 AM
   20 mg IV lasix yesterday
   Initiated cefipime for 4+ GNR
   repeat sputum AFB +, state lab to run PCR today
   Nsurg stop ASA and hep today for sural nerve Bx
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-4-17**] 07:39 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Colace
   Heparin
   Thaimine
   Zantac
   Sinemet
   Iron, Synthroid,  Persantine, CaCarb
   Vit D
   Keppra and Dilantin
   Tobra eye
   Labetalol
   Clonidine
   Metoprol
   Hydral
   Reglan, senna
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-18**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.2
C (97.2
   HR: 79 (72 - 83) bpm
   BP: 134/77(91) {96/55(65) - 153/80(98)} mmHg
   RR: 24 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.8 kg (admission): 27.3 kg
   Height: 66 Inch
                  Total In:
                                                                  4,505 mL
                                                                  7,190 mL
   PO:
                  TF:
                                                                  3,035 mL
                                                                  6,790 mL
   IVF:
                                                                    600 mL
   Blood products:
   Total out:
                                                                    955 mL
                                                                    345 mL
   Urine:
                                                                    955 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,550 mL
                                                                  6,845 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 341 (341 - 380) mL
   PS : 14 cmH2O
   RR (Set): 0
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 110
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 7.6 L/min
   Physical Examination
   Gen: lying in bed, not tracking or following commands
   Chest: coase BS right greater than left
   CV: RR
   Abd: soft NT
   Ext: trace edema
   Labs / Radiology
   11.4 g/dL
   237 K/uL
   117 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.5 mEq/L
   38 mg/dL
   104 mEq/L
   139 mEq/L
   34.0 %
   13.1 K/uL
        [image002.jpg]
                             [**2115-4-11**]  09:56 PM
                             [**2115-4-11**]  10:12 PM
                             [**2115-4-12**]  06:00 AM
                             [**2115-4-13**]  04:00 AM
                             [**2115-4-14**]  03:51 AM
                             [**2115-4-15**]  04:25 AM
                             [**2115-4-16**]  03:29 PM
                             [**2115-4-17**]  03:11 AM
                             [**2115-4-18**]  04:35 AM
   WBC
   13.5
   10.0
   9.5
   8.9
   8.2
   9.6
   16.6
   13.1
   Hct
   30.1
   28.2
   26.8
   27.5
   31.1
   30.8
   30.3
   34.0
   Plt
   272
   257
   239
   244
   230
   210
   233
   237
   Cr
   1.3
   1.1
   1.1
   1.0
   0.9
   0.8
   0.9
   TropT
   0.39
   0.39
   TCO2
   28
   Glucose
   101
   83
   70
   78
   143
   116
   117
   Other labs: PT / PTT / INR:12.7/30.6/1.1, CK / CKMB /
   Troponin-T:241/12/0.39, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   76-year-old woman with history of seizure disorder and chronic
   ventilator dependence now admitted for increased hypoxemia and altered
   mental status, both of which have improved. Notably, on day PTA,
   suffered PEA arrest in setting of hypoxemia/mucous plugging.
   AFB: sputum cx sent to lab and noted to have AFB visible. Infection
   control notified, put in neg pressure room. Repeat +, sample to state
   lab for PCR now for rule out MTb. Have not started empiric Rx. If
   atypical will have to carefully consider risk/benefit and certainly not
   urgent
   4+ GNR in sputum : with increased secretions
 added cefipime last  PM,
   awaiting data
   Respiratory failure: remains of mech ventilation failed TC yesterday
   due to hypertension and visble distress. Also ++ secretions so placed
   back on CMV
          Etiology of chronic resp failure unclear- NM vs. chest wall
   restriction. Appreciate Neuro input. Plan for sural nerve Bx to   help
   differentiate post poli, crit care myopathy, or other etiologies
   .          PSV requirement, likely attributable to improved pneumonitis
   and therefore improved pulmonary compliance.
   Altered mental status: ?post PEA arrest.  Head CT wnl, EEG w/o e/o sz,
   and no obvious infection. Currently, the neuro team, who knows her well
   thinks her mental status is at her baseline.
   Seizure disorder: Appreciate neurology
s help; we will continue current
   AEDs.
   Acute Renal Failure: Improving, will add lasix to keep closer to even
   Hypertension: Continue present regimen (she has a high baseline
   requirement but has improved over past day)
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2115-4-18**] 04:45 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-4-16**] 09:38 AM
   22 Gauge - [**2115-4-16**] 09:47 AM
   Prophylaxis:
   DVT: sq hep
   Stress ulcer: zantac
   Communication:  son
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 40

2115-04-19 07:19:00 Physician Resident Progress Note
Chief Complaint: 76 Ventilator dependent female with a Pseudomonal PNA,
   mycobacterium in sputum, altered mental status, and myopathy.
   24 Hour Events:
   - AFB positive - but negative M. Tb probe.  d/c'd respiratory
   isolation.
   -Sputum positive for pseudomonas
   - Holding heparin/ASA for biopsy in AM.
   - NPO after midnight for nerve biopsy.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-4-18**] 07:23 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2115-4-18**] 07:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-19**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 78 (74 - 84) bpm
   BP: 132/65(83) {94/45(57) - 143/89(97)} mmHg
   RR: 23 (20 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.8 kg (admission): 27.3 kg
   Height: 66 Inch
                  Total In:
                                                                  1,839 mL
                                                                    280 mL
   PO:
                  TF:
                                                                    939 mL
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,665 mL
                                                                    234 mL
   Urine:
                                                                  1,665 mL
                                                                    234 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    174 mL
                                                                     46 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 323 (298 - 354) mL
   PS : 14 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 107
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: ///25/
   Ve: 7.4 L/min
   Physical Examination
   General Appearance: Thin, tracheotomy
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Tracheostomy tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), regular rhythm, normal rate
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   220 K/uL
   9.8 g/dL
   102 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.1 mEq/L
   41 mg/dL
   102 mEq/L
   136 mEq/L
   28.6 %
   13.9 K/uL
        [image002.jpg]
                             [**2115-4-11**]  09:56 PM
                             [**2115-4-11**]  10:12 PM
                             [**2115-4-12**]  06:00 AM
                             [**2115-4-13**]  04:00 AM
                             [**2115-4-14**]  03:51 AM
                             [**2115-4-15**]  04:25 AM
                             [**2115-4-16**]  03:29 PM
                             [**2115-4-17**]  03:11 AM
                             [**2115-4-18**]  04:35 AM
                             [**2115-4-19**]  03:57 AM
   WBC
   13.5
   10.0
   9.5
   8.9
   8.2
   9.6
   16.6
   13.1
   13.9
   Hct
   30.1
   28.2
   26.8
   27.5
   31.1
   30.8
   30.3
   34.0
   28.6
   Plt
   272
   257
   239
   244
   230
   210
   233
   237
   220
   Cr
   1.3
   1.1
   1.1
   1.0
   0.9
   0.8
   0.9
   0.8
   TropT
   0.39
   0.39
   TCO2
   28
   Glucose
   101
   83
   70
   78
   143
   116
   117
   102
   Other labs: PT / PTT / INR:13.2/30.2/1.1, CK / CKMB /
   Troponin-T:241/12/0.39, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR: pending
   Microbiology: Sputum [**4-16**]: moderate growth of pseudomonas, resistant to
   ceftazadine and zosyn; sensitive to cefepime.  moderate growth of
   mycobacterium, non-TB
   Blood 4/30: NGTD
   Uriine [**4-17**]: negative
   Assessment and Plan
   76 year old F with history a seizure disorder, chronic vent dependence
   transfered for hypoxia, and altered mental status.
   # Pseudomonal pneumonia: Moderate growth of pseudomonas on sputum
   cuilture from [**4-16**], sensitive to cefepime.  Blood cultures with NGTD,
   and urine cultures negative.   Moderate AFB on concentrated smear, non
   TB.  We discontinued respiratory isolation.
   -continue cefepime for a seven day course
   # Respiratory Failure: Underlying respiratory failure of unclear
   etiology given prior evaluation was only revealing for critical illness
   neuropathy. Possibly related to pneumonia.  Currently on CPAP at 14/5,
   which is increased from her baseline given her PNA and volume overload.
   -Continue to wean pressure support as tolerated to home settings.
   - Chest PT, aggressive pulmonary toilet
   # Altered Mental Status: Siginificantly improved since admission and at
   baseline although mildly more lethargic today.   Unclear if generalized
   toxic metabolic encephalopathy from infection, drugs (mildly elevated
   dilantin level), hypoxia, or from underlying seizure disorder
   (non-convulsive status) though this was not captured on EEG monitoring
   during last admission in [**Month (only) 1563**] to the Neuro ICU (showed only
   encephalopathic background).  At that time, appears to have had similar
   mental/functional status that she has now; however, per notes and her
   son, had been making improvements since that time.  During her last
   admission, had extensive neuro work up at that time which was largely
   unrevealing including LP, paraneoplastic labs which were negative,
   SPEP/UPEP, MRI/MRA brain, EMG concerning for critical illness myopathy.
   - Neuro consult recommends continuing dilantin, Phenytoin level mildly
   subtherapeutic.  D/W neurology regarding increased dose
   - Continue Keppra
   - EEG shows encephalopathy without epileptiform activity.
   - Sural nerve biopsy for neuropathy.
   #Volume Status: Even over the last 24 hours with lasix
   -continue lasix bolus of 40mg IV to keep I/O even
   # Vomiting/regurgitation: Had KUB on admission showing stool in the
   [**Last Name (LF) 800**], [**First Name3 (LF) **] have led to worsening residuals, vomiting and aspiration.
   S/p aggressive bowel regimen with BM at this time.  Regurgitation also
   improved at this time.  Will start reglan standing and senna to assist
   with BM
s and avoid precipitating further aspiration.
   - Aggressive bowel regimen, currently having BMs
   # Anemia: Baseline appears to be 27-28.  stable
   # Hypertension: Per history hypertension mostly a problem during
   breathing trials. Was initially normotensive in the setting of
   dehydration and potential infection so BP meds held.  Restarted on some
   home meds with some improvement in blood pressure.
   - Labetalol 800 TID, clonidine, hydralazine, lopressor
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control: Not needed
   Lines:
   20 Gauge - [**2115-4-16**] 09:38 AM
   22 Gauge - [**2115-4-16**] 09:47 AM
   Prophylaxis:
   DVT: Heparin held for biopsy
   Stress ulcer:  Famotidine
   VAP:  Cefepime, HOB elevated, daily wake ups, oral care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: To acute care facility after nerve biopsy

2115-04-19 10:01:00 Physician Attending Progress Note
Chief Complaint: resp failure, weakness
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   State lab confirms PCR NOT Mtb
   Lungs + oseudomonas sensi Cef
   Awaiting nerve Bx
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-4-18**] 07:23 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2115-4-18**] 07:51 PM
   Other medications:
   colcae thiamain zantac sinemet iron synthroid persantine calcium Vit D
   Keppra Tobra eye oint labatallol clonidine reglan senna hydral metop,
   dilantin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-19**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.1
C (97
   HR: 76 (75 - 84) bpm
   BP: 101/53(65) {94/45(57) - 143/89(97)} mmHg
   RR: 26 (20 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.8 kg (admission): 27.3 kg
   Height: 66 Inch
                  Total In:
                                                                  1,839 mL
                                                                    430 mL
   PO:
                  TF:
                                                                    939 mL
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,665 mL
                                                                    334 mL
   Urine:
                                                                  1,665 mL
                                                                    334 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    174 mL
                                                                     96 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 323 (298 - 354) mL
   PS : 14 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 107
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: ///25/
   Ve: 7.8 L/min
   Physical Examination
   Gen: lying in bed, not tracking or following commands
   Chest: coarse BS CV: RR
   Abd: soft NT
   Ext: trace edema
   Labs / Radiology
   9.8 g/dL
   220 K/uL
   102 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.1 mEq/L
   41 mg/dL
   102 mEq/L
   136 mEq/L
   28.6 %
   13.9 K/uL
        [image002.jpg]
                             [**2115-4-11**]  09:56 PM
                             [**2115-4-11**]  10:12 PM
                             [**2115-4-12**]  06:00 AM
                             [**2115-4-13**]  04:00 AM
                             [**2115-4-14**]  03:51 AM
                             [**2115-4-15**]  04:25 AM
                             [**2115-4-16**]  03:29 PM
                             [**2115-4-17**]  03:11 AM
                             [**2115-4-18**]  04:35 AM
                             [**2115-4-19**]  03:57 AM
   WBC
   13.5
   10.0
   9.5
   8.9
   8.2
   9.6
   16.6
   13.1
   13.9
   Hct
   30.1
   28.2
   26.8
   27.5
   31.1
   30.8
   30.3
   34.0
   28.6
   Plt
   272
   257
   239
   244
   230
   210
   233
   237
   220
   Cr
   1.3
   1.1
   1.1
   1.0
   0.9
   0.8
   0.9
   0.8
   TropT
   0.39
   0.39
   TCO2
   28
   Glucose
   101
   83
   70
   78
   143
   116
   117
   102
   Other labs: PT / PTT / INR:13.2/30.2/1.1, CK / CKMB /
   Troponin-T:241/12/0.39, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Microbiology: Moderate Pseudomonas sensi to Cefipime
   Blood Cx NGTD
   Urine Neg
   Assessment and Plan
   76-year-old woman with history of seizure disorder and chronic
   ventilator dependence now admitted for increased hypoxemia and altered
   mental status, both of which have improved. Notably, on day PTA,
   suffered PEA arrest in setting of hypoxemia/mucous plugging.
   Pseudomonas PNA : with increased secretions Day [**2-25**] on cefipime, wbc
   better, still with secretions
   Respiratory failure: Etiology of chronic resp failure unclear- NM vs.
   chest wall restriction. Appreciate Neuro input.
   Plan for sural nerve Bx to   help differentiate post poli, crit care
   myopathy, or other etiologies
   PSV requirement up will wean as can tolerate
   AFB: state lab for PCR now for ruled out MTb. Have not started empiric
   Rx. If atypical will have to carefully consider risk/benefit and
   certainly not urgent
 will need old records and chest imaging
   Altered mental status: ?post PEA arrest.  Head CT wnl, EEG w/o e/o sz,
   and no obvious infection. Currently, the neuro team, who knows her well
   thinks her mental status is at her baseline.  We will discuss with them
   role of repeat imaging and EEG as eveb over past day she is less
   interactive.
   Seizure disorder: Appreciate neurology
s help; we will continue current
   AEDs.
   Acute Renal Failure: Improving, will add lasix to keep closer to even
   Hypertension: Continue present regimen (she has a high baseline
   requirement but has improved over past day)
   ICU Care
   Nutrition: TFs
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-4-16**] 09:38 AM
   22 Gauge - [**2115-4-16**] 09:47 AM
   Prophylaxis:
   DVT: sq
   Stress ulcer: h2 blocker
   Communication: son
   [**Name (NI) 66**] status: Full code
   Disposition : ICU
   Total time spent: 40 minutes

2115-04-20 08:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2115-4-19**] 04:10 PM
 EEG - At [**2115-4-20**] 12:18 AM
   We did an EEG to assess for subclinical status epilepticus, which was
   positive.  Per neuro recs, we gave 2mg IV lorazapam and 1g of IV
   dilantin over four hours per epileptologist recs given her risk of
   hypotension.  We also increased her  maintenance dose of dilantin to
   150/150/200
   -Her MAPs and respiratory rate dropped with the ativan, requiring fluid
   boluses all night and a switch back to AC from CPAP.  Overall she
   received 3.5L until her MAPs stabilized.
   -Brain MRI held for now, until stabilized
   -Family meeting held, they wanted to hold off on the sural nerve biopsy
   given acute decompensation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-4-19**] 07:46 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2115-4-19**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-20**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 72 (68 - 78) bpm
   BP: 111/56(70) {70/41(48) - 130/71(84)} mmHg
   RR: 17 (13 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.8 kg (admission): 27.3 kg
   Height: 66 Inch
             Total In:
                                                                  3,240 mL
                                                                  1,740 mL
   PO:
             TF:
             80 mL
   IVF:
                                                                  2,600 mL
                                                                  1,500 mL
   Blood products:
   Total out:
                                                                    614 mL
                                                                    125 mL
   Urine:
                                                                    614 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,626 mL
                                                                  1,615 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 354 (316 - 354) mL
   PS : 14 cmH2O
   RR (Set): 12
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 138
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.45/39/113/19/2
   Ve: 5.5 L/min
   PaO2 / FiO2: 283
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: unequal pupils, unchangec
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: , Rhonchorous: )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, Cyanosis
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Not assessed
   Labs / Radiology
   259 K/uL
   10.2 g/dL
   113 mg/dL
   0.9 mg/dL
   19 mEq/L
   4.4 mEq/L
   39 mg/dL
   105 mEq/L
   135 mEq/L
   30.0 %
   12.0 K/uL
        [image002.jpg]
                             [**2115-4-12**]  06:00 AM
                             [**2115-4-13**]  04:00 AM
                             [**2115-4-14**]  03:51 AM
                             [**2115-4-15**]  04:25 AM
                             [**2115-4-16**]  03:29 PM
                             [**2115-4-17**]  03:11 AM
                             [**2115-4-18**]  04:35 AM
                             [**2115-4-19**]  03:57 AM
                             [**2115-4-19**]  03:28 PM
                             [**2115-4-20**]  03:10 AM
   WBC
   10.0
   9.5
   8.9
   8.2
   9.6
   16.6
   13.1
   13.9
   12.0
   Hct
   28.2
   26.8
   27.5
   31.1
   30.8
   30.3
   34.0
   28.6
   30.0
   Plt
   257
   239
   244
   230
   [**Telephone/Fax (2) 2511**]20
   259
   Cr
   1.3
   1.1
   1.1
   1.0
   0.9
   0.8
   0.9
   0.8
   0.9
   TropT
   0.39
   TCO2
   28
   Glucose
   101
   83
   70
   78
   143
   116
   117
   102
   113
   Other labs: PT / PTT / INR:13.2/30.2/1.1, CK / CKMB /
   Troponin-T:241/12/0.39, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:5.0 mg/dL
   Imaging: cxr [**4-19**]
   1. Stable moderate bilateral pleural effusion with atelectasis.
   2. Tracheostomy tube is in a satisfactory location.
   Microbiology: none new
   Assessment and Plan
   76 year old F with history a seizure disorder, chronic vent dependence
   transfered for hypoxia, and altered mental status.
   # Pseudomonal pneumonia: Moderate growth of pseudomonas on sputum
   cuilture from [**4-16**], sensitive to cefepime.  Blood cultures with NGTD,
   and urine cultures negative.   Moderate AFB on concentrated smear, non
   TB.  We discontinued respiratory isolation.
   - continue cefepime for a seven day course
   - continue with AC for now given tenuous hemodynamic status,  RSBI 138
   this am
   .
    # Altered Mental Status: more lethargic last 3 days, found to be in
   status epilepticus, ddx anoxi brain injury s/p cardiac arrest ,
   infection.   Unclear if generalized toxic metabolic encephalopathy from
   infection, drugs (mildly elevated dilantin level), hypoxia, or from
   underlying seizure disorder (non-convulsive status) though this was not
   captured on EEG monitoring during last admission in [**Month (only) 1563**] to the Neuro
   ICU (showed only encephalopathic background).  At that time, appears to
   have had similar mental/functional status that she has now; however,
   per notes and her son, had been making improvements since that time.
   During her last admission, had extensive neuro work up at that time
   which was largely unrevealing including LP, paraneoplastic labs which
   were negative, SPEP/UPEP, MRI/MRA brain, EMG concerning for critical
   illness myopathy.
   - subclinical status epilepticus- keppra, phenytoin, follow daily
   phenytoin levels
   - Neuro recs, MRI brain to be coordinated with neuro, currently on 24
   hour EEG monitoring
   - Continue Keppra
   - continuous EEG monitoring
   - Sural nerve biopsy for neuropathy once stable
   #Volume Status: 600 cc urine last 24 hours in setting hypotension
   - bolus for UOP<30cc/hr
   - hold BP meds
   .
   # Vomiting/regurgitation: Had KUB on admission showing stool in the
   [**Last Name (LF) 800**], [**First Name3 (LF) **] have led to worsening residuals, vomiting and aspiration.
   S/p aggressive bowel regimen with BM at this time.  Regurgitation also
   improved at this time.  Will start reglan standing and senna to assist
   with BM
s and avoid precipitating further aspiration.
   - Aggressive bowel regimen, currently having BMs
   .
   # Anemia: Baseline appears to be 27-28.  stable
   .
   # Hypertension: Per history hypertension mostly a problem during
   breathing trials. Was initially normotensive in the setting of
   dehydration and potential infection so BP meds held.  Restarted on some
   home meds with some improvement in blood pressure.
   - hold BP meds
   - Labetalol 800 TID, clonidine, hydralazine, lopressor all being HELD
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2115-4-20**] 12:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2115-4-16**] 09:47 AM
   20 Gauge - [**2115-4-20**] 05:47 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-04-20 10:49:00 Physician Attending Progress Note
Chief Complaint: hypoxia and alertered MS.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 yo women with post-polio syndrome, chronic respiratory failure, vent
   dependent.  Admitted with hypoxemia, altered MS, and weakness.  Thought
   to have critical illness neuropathy and maybe PNA.  Over last two days
   had worsened MS, and EEG yesterday.
   24 Hour Events:
 EEG - At [**2115-4-19**] 04:10 PM
 EEG - At [**2115-4-20**] 12:18 AM
   EEG yesterday showed subclinical status epilepticus.  Hypotensive after
   receiving dilantin and ativan.  Responded to 3L IVF repletion.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-4-19**] 07:46 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2115-4-19**] 04:30 PM
   Other medications:
   thiamine/folate
   sinemet
   Fe
   synthroid
   persantine
   CaCO3
   dilantin
   reglan
   seena
   hydral
   zantac
   hep s/q
   ASA
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-20**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36
C (96.8
   HR: 73 (68 - 78) bpm
   BP: 141/63(82) {70/41(48) - 141/71(84)} mmHg
   RR: 19 (13 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.8 kg (admission): 27.3 kg
   Height: 66 Inch
             Total In:
                                                                  3,240 mL
                                                                  2,305 mL
   PO:
             TF:
             85 mL
   IVF:
                                                                  2,600 mL
                                                                  2,000 mL
   Blood products:
   Total out:
                                                                    614 mL
                                                                    150 mL
   Urine:
                                                                    614 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,626 mL
                                                                  2,155 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 354 (316 - 354) mL
   PS : 14 cmH2O
   RR (Set): 12
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 138
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.45/39/113/19/2
   Ve: 6.3 L/min
   PaO2 / FiO2: 283
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: Right Eye non reactive
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash:
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed,
   Unresponsive
   Labs / Radiology
   10.2 g/dL
   259 K/uL
   113 mg/dL
   0.9 mg/dL
   19 mEq/L
   4.4 mEq/L
   39 mg/dL
   105 mEq/L
   135 mEq/L
   30.0 %
   12.0 K/uL
        [image002.jpg]
                             [**2115-4-12**]  06:00 AM
                             [**2115-4-13**]  04:00 AM
                             [**2115-4-14**]  03:51 AM
                             [**2115-4-15**]  04:25 AM
                             [**2115-4-16**]  03:29 PM
                             [**2115-4-17**]  03:11 AM
                             [**2115-4-18**]  04:35 AM
                             [**2115-4-19**]  03:57 AM
                             [**2115-4-19**]  03:28 PM
                             [**2115-4-20**]  03:10 AM
   WBC
   10.0
   9.5
   8.9
   8.2
   9.6
   16.6
   13.1
   13.9
   12.0
   Hct
   28.2
   26.8
   27.5
   31.1
   30.8
   30.3
   34.0
   28.6
   30.0
   Plt
   257
   239
   244
   230
   [**Telephone/Fax (2) 2511**]20
   259
   Cr
   1.3
   1.1
   1.1
   1.0
   0.9
   0.8
   0.9
   0.8
   0.9
   TropT
   0.39
   TCO2
   28
   Glucose
   101
   83
   70
   78
   143
   116
   117
   102
   113
   Other labs: PT / PTT / INR:13.2/30.2/1.1, CK / CKMB /
   Troponin-T:241/12/0.39, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:5.0 mg/dL
   Imaging: CXR: Large b/l effusions
   Assessment and Plan
   Status Epilepticus:  on Continuous EEG monitoring.  kepra/dilantin.
   Still unresponsive.  Will review with neuro her EEG results.
   Respiratory Failure:  [**Month (only) 60**] be due to VAP plus critical illness
   neuropathy.  Sural nerve biopsy on hold.  Continue Cefepime for PNA
   Pseudomonal PNA: Cefepime
   Volume Status:  Required IVF for HOTN
   Vomitting:  No further vomiting.
   Anemia
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2115-4-20**] 12:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-4-20**] 05:47 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 45 minutes
   Patient is critically ill

2115-04-21 07:12:00 Physician Resident Progress Note
Chief Complaint: 76 year old F with history a seizure disorder, chronic
   vent dependence transfered for hypoxia, and altered mental status.
   24 Hour Events:
 EEG - At [**2115-4-20**] 01:34 PM
   continuous
   -phenytoin switched to IV
   -added propofol given status epilepticus
   -MRI brain tomorrow, held off given her MAP's were tenuous with
   propofol on board
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-4-20**] 08:00 PM
   Infusions:
   Propofol - 18 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-21**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.6
C (96
   HR: 74 (70 - 77) bpm
   BP: 122/56(73) {85/45(53) - 141/84(90)} mmHg
   RR: 19 (15 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.8 kg (admission): 27.3 kg
   Height: 66 Inch
             Total In:
                                                                  2,759 mL
                                                                    140 mL
   PO:
             TF:
                                                                    320 mL
                                                                    120 mL
   IVF:
                                                                  2,129 mL
                                                                     20 mL
   Blood products:
   Total out:
                                                                    392 mL
                                                                    195 mL
   Urine:
                                                                    392 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,367 mL
                                                                    -55 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 196
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: ///18/
   Ve: 8.6 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: L-pupil reactive
   Head, Ears, Nose, Throat: Normocephalic, Chronic R-facial droop
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases), coarse lung sounds
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, no clonus on right, 1 beat on left
   Labs / Radiology
   248 K/uL
   10.3 g/dL
   98 mg/dL
   0.8 mg/dL
   18 mEq/L
   4.1 mEq/L
   41 mg/dL
   103 mEq/L
   133 mEq/L
   31.1 %
   12.2 K/uL
        [image002.jpg]
                             [**2115-4-13**]  04:00 AM
                             [**2115-4-14**]  03:51 AM
                             [**2115-4-15**]  04:25 AM
                             [**2115-4-16**]  03:29 PM
                             [**2115-4-17**]  03:11 AM
                             [**2115-4-18**]  04:35 AM
                             [**2115-4-19**]  03:57 AM
                             [**2115-4-19**]  03:28 PM
                             [**2115-4-20**]  03:10 AM
                             [**2115-4-21**]  04:52 AM
   WBC
   9.5
   8.9
   8.2
   9.6
   16.6
   13.1
   13.9
   12.0
   12.2
   Hct
   26.8
   27.5
   31.1
   30.8
   30.3
   34.0
   28.6
   30.0
   31.1
   Plt
   [**Telephone/Fax (2) 2525**]
   220
   259
   248
   Cr
   1.1
   1.1
   1.0
   0.9
   0.8
   0.9
   0.8
   0.9
   0.8
   TCO2
   28
   Glucose
   83
   70
   78
   143
   116
   117
   102
   113
   98
   Other labs: PT / PTT / INR:13.3/29.1/1.1, CK / CKMB /
   Troponin-T:241/12/0.39, Albumin:2.9 g/dL, LDH:214 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Imaging: CXR: Tracheostomy tube is in a standard position. Chest
   examination is unchanged
   with large bilateral pleural effusions and bilateral atelectases.
   Cardiomediastinal contours are obscured by pleuro- parenchymal
   opacities.
   .
   EEG: IMPRESSION: This is an abnormal EEG due to the presence of near
   continuous discharges consistent with nonconvulsive seizures at the
   beginning of the tracing, resolving into a slow and disorganized
   background consistent with a moderate encephalopathy of toxic,
   metabolic, or anoxic etiology
   Microbiology:  Sputum:
   PSEUDOMONAS AERUGINOSA
                              |
   CEFEPIME--------------     4 S
   CEFTAZIDIME-----------  =>64 R
   CIPROFLOXACIN---------   0.5 S
   GENTAMICIN------------     2 S
   MEROPENEM-------------     2 S
   PIPERACILLIN---------- =>128 R
   PIPERACILLIN/TAZO----- =>128 R
   TOBRAMYCIN------------   <=1 S
   Assessment and Plan
   76 year old F with history a seizure disorder, chronic vent dependence
   transfered for hypoxia, and altered mental status.
   # Pseudomonal pneumonia: Moderate growth of pseudomonas on sputum
   cuilture from [**4-16**], sensitive to cefepime.  Blood cultures with NGTD,
   and urine cultures negative.   Moderate AFB on concentrated smear, non
   TB.  Have discontinued respiratory isolation.
   - continue cefepime for a seven day course through [**2115-4-23**] (adjust
   dose for renal function)
   - continue with AC for now given propofol and status, wean as tolerated
   - Check ABG this AM given Bicarbonate of 18.
   .
    # Altered Mental Status: more lethargic last 3 days, found to be in
   status epilepticus, ddx anoxi brain injury s/p cardiac arrest ,
   infection.   Unclear if generalized toxic metabolic encephalopathy from
   infection, drugs (mildly elevated dilantin level), hypoxia, or from
   underlying seizure disorder (non-convulsive status) though this was not
   captured on EEG monitoring during last admission in [**Month (only) 1563**] to the Neuro
   ICU (showed only encephalopathic background).  At that time, appears to
   have had similar mental/functional status that she has now; however,
   per notes and her son, had been making improvements since that time.
   During her last admission, had extensive neuro work up at that time
   which was largely unrevealing including LP, paraneoplastic labs which
   were negative, SPEP/UPEP, MRI/MRA brain, EMG concerning for critical
   illness myopathy.
   - subclinical status epilepticus- keppra, phenytoin, follow daily
   phenytoin levels
   - Neuro recs, MRI brain to be coordinated with neuro, currently on 24
   hour EEG monitoring, d/w neuro regarding change from propofol to versed
   given hypotension.
   - Continue Keppra, increase as tolerated.
   - continuous EEG monitoring,
   - Sural nerve biopsy for neuropathy once stable - family not willing to
   consent as patient in satus
   .
    #Volume Status: 348 cc UOP yesterday.  Will bolus fluids today for
   increased urine output.
   - bolus for UOP<30cc/hr
   - hold BP meds, bolus as tolerated.
   .
   # Vomiting/regurgitation: Had KUB on admission showing stool in the
   [**Last Name (LF) 800**], [**First Name3 (LF) **] have led to worsening residuals, vomiting and aspiration.
   S/p aggressive bowel regimen with BM at this time.  Regurgitation also
   improved at this time.  Will start reglan standing and senna to assist
   with BM
s and avoid precipitating further aspiration.
   - Aggressive bowel regimen, currently having BMs
   .
    # Anemia: Baseline appears to be 27-28.  stable
   .
   # Hypertension: Per history hypertension mostly a problem during
   breathing trials. Was initially normotensive in the setting of
   dehydration and potential infection so BP meds held.  Restarted on some
   home meds with some improvement in blood pressure.
   - hold BP meds given hypotension and need for propofol.
   - Labetalol 800 TID, clonidine, hydralazine, lopressor all being HELD
   given hypotension with dilantin/propofol.  Would restart labetalol
   first w/ hydralazine next for afterload reduction.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-4-20**] 05:47 AM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: H2 blocker
   VAP: Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-04-21 11:06:00 Physician Attending Progress Note
Chief Complaint: PSA PNA and status epilepticus
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 yo with post-polio syndrome, chronic respiratory failure, vent
   dependant
   24 Hour Events:
 EEG - At [**2115-4-20**] 01:34 PM
   continuous
   Phenytoin changed to IV.
   Started on propofol for continued status.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-4-20**] 08:00 PM
   Infusions:
   Propofol - 18 mcg/Kg/min
   Other ICU medications:
   Other medications:
   folate
   sinemet
   Fe
   Synthroid
   Persantine
   Chlorhex
   CaCO3
   Vitamin D
   Kepra
   Dilantin
   Senna
   ASA
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-21**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 73 (70 - 77) bpm
   BP: 120/67(80) {85/45(53) - 141/84(90)} mmHg
   RR: 16 (15 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.8 kg (admission): 27.3 kg
   Height: 66 Inch
             Total In:
                                                                  2,759 mL
                                                                    352 mL
   PO:
             TF:
                                                                    320 mL
                                                                    120 mL
   IVF:
                                                                  2,129 mL
                                                                    131 mL
   Blood products:
   Total out:
                                                                    392 mL
                                                                    325 mL
   Urine:
                                                                    392 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,367 mL
                                                                     27 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 196
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: ///18/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: Right conjunctive is injected
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases)
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Decreased
   Labs / Radiology
   10.3 g/dL
   248 K/uL
   98 mg/dL
   0.8 mg/dL
   18 mEq/L
   4.1 mEq/L
   41 mg/dL
   103 mEq/L
   133 mEq/L
   31.1 %
   12.2 K/uL
         [image002.jpg]
                             [**2115-4-13**]  04:00 AM
                             [**2115-4-14**]  03:51 AM
                             [**2115-4-15**]  04:25 AM
                             [**2115-4-16**]  03:29 PM
                             [**2115-4-17**]  03:11 AM
                             [**2115-4-18**]  04:35 AM
                             [**2115-4-19**]  03:57 AM
                             [**2115-4-19**]  03:28 PM
                             [**2115-4-20**]  03:10 AM
                             [**2115-4-21**]  04:52 AM
   WBC
   9.5
   8.9
   8.2
   9.6
   16.6
   13.1
   13.9
   12.0
   12.2
   Hct
   26.8
   27.5
   31.1
   30.8
   30.3
   34.0
   28.6
   30.0
   31.1
   Plt
   [**Telephone/Fax (3) 2525**]
   220
   259
   248
   Cr
   1.1
   1.1
   1.0
   0.9
   0.8
   0.9
   0.8
   0.9
   0.8
   TCO2
   28
   Glucose
   83
   70
   78
   143
   116
   117
   102
   113
   98
   Other labs: PT / PTT / INR:13.3/29.1/1.1, CK / CKMB /
   Troponin-T:241/12/0.39, Albumin:2.9 g/dL, LDH:214 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Imaging: CR:  large b/l effusions.
   Assessment and Plan
   Status Epilepticus:  EEG monitoring, on kepra/dilantin/propofol.  Will
   review with neuro on her current progress.  Will get MRI today.
   Respiratory failure:  Polyneurophathy, chronic debiliation, status
   epilepticus.
   PSA PNA:  continue Cefepime
   Oliguria:  Seems fluid overloaded, doubt hypovolumia, but relative [**Name (NI) 2245**]
   from Antiseizure medications may be contribution.
   Anemia:
   HTN:  D/C BP meds as is HOTNsive
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-4-20**] 05:47 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2115-04-22 07:17:00 Physician Resident Progress Note
Chief Complaint: 76F ventilator-dependent with hospital acquired
   pneumonia and subclinical status epilepticus
   24 Hour Events:
 PICC LINE - START [**2115-4-21**] 05:45 PM
 MAGNETIC RESONANCE IMAGING - At [**2115-4-21**] 11:47 PM
   -phenytoin switched back to PO due to difficulty with IV administration
   -Keppra increased to 1500mg [**Hospital1 **]
   -Midazolam started for better control of status epilepticus as patient
   still with frequent bursts of seizure activity and hypotension on
   propofol.  Patient with complete control of seizure activity on
   Midazolam and able to wean propofol completely off, currently at 2mg/hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-4-21**] 08:36 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Keppra 1500 [**Hospital1 **]
   Phenytoid 175 TID
   Heparin SC
   ASA 81
   Ranitidine 150 qd
   Tobradex
   Lactulose/senna/bisacodyl
   Dipyridamole
   Levothyroxine
   Carbidopa/levodopa
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-22**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 72 (70 - 74) bpm
   BP: 131/66(83) {100/51(63) - 144/83(98)} mmHg
   RR: 14 (12 - 19) insp/min
   SpO2: 77%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.8 kg (admission): 69 kg
   Height: 66 Inch
             Total In:
                                                                  1,807 mL
                                                                    114 mL
   PO:
             TF:
                                                                    120 mL
   IVF:
                                                                  1,387 mL
                                                                     14 mL
   Blood products:
   Total out:
                                                                    594 mL
                                                                    305 mL
   Urine:
                                                                    594 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,213 mL
                                                                   -191 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   SpO2: 77%
   ABG: ///22/
   Ve: 4.2 L/min
   Physical Examination
   General Appearance: Thin, Sedated on CPAP
   Eyes / Conjunctiva: Left eye proptosis
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), regular rhythm, normal rate
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), coarse ventilated breath
   sounds
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   211 K/uL
   10.3 g/dL
   85 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.0 mEq/L
   38 mg/dL
   108 mEq/L
   138 mEq/L
   31.1 %
   9.3 K/uL
        [image002.jpg]
                             [**2115-4-14**]  03:51 AM
                             [**2115-4-15**]  04:25 AM
                             [**2115-4-16**]  03:29 PM
                             [**2115-4-17**]  03:11 AM
                             [**2115-4-18**]  04:35 AM
                             [**2115-4-19**]  03:57 AM
                             [**2115-4-19**]  03:28 PM
                             [**2115-4-20**]  03:10 AM
                             [**2115-4-21**]  04:52 AM
                             [**2115-4-22**]  04:23 AM
   WBC
   8.9
   8.2
   9.6
   16.6
   13.1
   13.9
   12.0
   12.2
   9.3
   Hct
   27.5
   31.1
   30.8
   30.3
   34.0
   28.6
   30.0
   31.1
   31.1
   Plt
   244
   230
   210
   233
   237
   220
   259
   248
   211
   Cr
   1.1
   1.0
   0.9
   0.8
   0.9
   0.8
   0.9
   0.8
   0.7
   TCO2
   28
   Glucose
   70
   78
   143
   116
   117
   102
   113
   98
   85
   Other labs: PT / PTT / INR:13.2/30.5/1.1, CK / CKMB /
   Troponin-T:241/12/0.39, Albumin:2.9 g/dL, LDH:214 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Imaging: MRI head: wet read: +for microvascular ischemic changes but no
   other clear seizure foci, infection, stroke or other.
   Microbiology: Sputum [**4-17**]: Moderate pan-sensitive pseudomonas, many
   acid fast bacilli
   Blood 4/30: NGTD
   Urine [**4-17**]: Urine negative
   Assessment and Plan
   76 year old F with history a seizure disorder, chronic vent dependence
   transfered for hypoxia, and altered mental status.
   # Pseudomonal pneumonia: Moderate growth of pseudomonas on sputum
   cuilture from [**2037-4-14**], sensitive to cefepime.  Blood cultures with
   NGTD, and urine cultures negative.   Moderate AFB on concentrated
   smear, non TB.  Have discontinued respiratory isolation.
   - continue cefepime for a seven day course through [**2115-4-23**] (adjust
   dose for renal function)
   .
    # Altered Mental Status: Ffound to be in sub-clinical status
   epilepticus- unclear etiology.  Differential includes anoxic brain
   injury as patient had a PEA prior to admission, toxic/metabolic
   encephalopathy from infection vs drugs (patient had  mildly elevated
   dilantin level), or underlying seizure disorder..  MRI negative for
   mass or infectious focus.   She had a prior admission with similar
   altered mental status, however, EEG was negative at that time.  She had
   an extensive neuro work up at that time which was largely unrevealing
   including LP, paraneoplastic labs which were negative, SPEP/UPEP,
   MRI/MRA brain, EMG concerning for critical illness myopathy.
   - continue midazolam, keppra, phenytoin, follow daily phenytoin levels
   - follow up final read of MRI
   - Follow up EEG read
   - Neuro recs
   - Sural nerve biopsy for neuropathy once stable - family not willing to
   consent as patient in satus
   .
    #Volume Status:
   - bolus for UOP<30cc/hr/ MAP <65
   - hold BP meds
   .
   # Vomiting/regurgitation: Had KUB on admission showing stool in the
   [**Last Name (LF) 800**], [**First Name3 (LF) **] have led to worsening residuals, vomiting and aspiration.
   S/p aggressive bowel regimen with BM at this time.  Regurgitation also
   improved at this time.  Will start senna and colace to assist with BM
   and avoid precipitating further aspiration.
   - Aggressive bowel regimen, currently having BMs
   .
    # Anemia: Baseline appears to be 27-28.  stable
   .
   # Hypertension: Per history hypertension mostly a problem during
   breathing trials. Was initially normotensive in the setting of
   dehydration and potential infection so BP meds held.  Restarted on some
   home meds with some improvement in blood pressure.
   - Labetalol 800 TID, clonidine, hydralazine, lopressor all being HELD
   given hypotension with dilantin/propofol.  Would restart labetalol
   first w/ hydralazine next for afterload reduction.
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-4-16**] 09:38 AM
   PICC Line - [**2115-4-21**] 05:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-04-22 10:02:00 Physician Attending Progress Note
Chief Complaint:
   HPI: status epilepticus, resp failure
   24 Hour Events:
 PICC LINE - START [**2115-4-21**] 05:45 PM
 MAGNETIC RESONANCE IMAGING - At [**2115-4-21**] 11:47 PM - prelim read
   microvasc ischemic changes
   24 hr events: propafol complicated by hypotension and still was having
   bursts of seziure acivity so converting to midazalam drip at 1mg/hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-4-21**] 08:36 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Keppra
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-22**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 73 (70 - 74) bpm
   BP: 141/71(88) {100/51(63) - 141/71(93)} mmHg
   RR: 14 (12 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.8 kg (admission): 69 kg
   Height: 66 Inch
             Total In:
                                                                  1,807 mL
                                                                    382 mL
   PO:
             TF:
                                                                    120 mL
                                                                      2 mL
   IVF:
                                                                  1,387 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                    594 mL
                                                                    380 mL
   Urine:
                                                                    594 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,213 mL
                                                                      2 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 5.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.3 g/dL
   211 K/uL
   85 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.0 mEq/L
   38 mg/dL
   108 mEq/L
   138 mEq/L
   31.1 %
   9.3 K/uL
        [image002.jpg]
                             [**2115-4-14**]  03:51 AM
                             [**2115-4-15**]  04:25 AM
                             [**2115-4-16**]  03:29 PM
                             [**2115-4-17**]  03:11 AM
                             [**2115-4-18**]  04:35 AM
                             [**2115-4-19**]  03:57 AM
                             [**2115-4-19**]  03:28 PM
                             [**2115-4-20**]  03:10 AM
                             [**2115-4-21**]  04:52 AM
                             [**2115-4-22**]  04:23 AM
   WBC
   8.9
   8.2
   9.6
   16.6
   13.1
   13.9
   12.0
   12.2
   9.3
   Hct
   27.5
   31.1
   30.8
   30.3
   34.0
   28.6
   30.0
   31.1
   31.1
   Plt
   244
   230
   210
   233
   237
   220
   259
   248
   211
   Cr
   1.1
   1.0
   0.9
   0.8
   0.9
   0.8
   0.9
   0.8
   0.7
   TCO2
   28
   Glucose
   70
   78
   143
   116
   117
   102
   113
   98
   85
   Other labs: PT / PTT / INR:13.2/30.5/1.1, CK / CKMB /
   Troponin-T:241/12/0.39, Albumin:2.9 g/dL, LDH:214 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   1.  Status Epilepticus:
   -Keppra increased to 1500mg [**Hospital1 **]
   - Dilantin
   -Midazolam started for better control of status epilepticus as patient
   still with frequent bursts of seizure activity and hypotension on
   propofol.  Patient with complete control of seizure activity on
   Midazolam and able to wean propofol completely off, currently at 2mg/hr
   Follow up offical read of MRI,
   Sural nerve Biopsy on hold
   2. Resp Failure: coninue on AC for now
   3. PSA PNA:  completing Cefepime course
   4. Oliguria:  Seems fluid overloaded, doubt hypovolumia, but relative
   [**Name (NI) 2245**] from Antiseizure medications may be contribution.
   5. Anemia:
   6. HTN:  D/C BP meds as is HOTNsive
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2115-4-22**] 09:46 AM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-4-16**] 09:38 AM
   PICC Line - [**2115-4-21**] 05:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2115-04-23 07:49:00 Physician Resident Progress Note
Chief Complaint: Subclinical status epilepticus
   24 Hour Events:
   given ativan times 1
   MRI FINAL READ
   FINDINGS: In the left posterior parietal white matter, there is a new
   focus
   of slow diffusion (bright on diffusion-weighted, dark on ADC). No other
   foci
   of slow diffusion are seen. There is no mass effect or abnormally
   enhancing
   lesion. MRA images suggest there is a stump at the take off of the
   right P1.
   IMPRESSION:
   1. Small acute infarct in the left posterior parietal white matter.
   2. Likely stenosis of the right posterior communicating artery
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-4-22**] 07:30 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2115-4-22**] 04:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-23**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 79 (72 - 84) bpm
   BP: 115/61(74) {100/46(61) - 141/71(88)} mmHg
   RR: 20 (12 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
             Total In:
                                                                  1,145 mL
                                                                    394 mL
   PO:
             TF:
                                                                    281 mL
                                                                    219 mL
   IVF:
                                                                    345 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                    340 mL
   Urine:
                                                                    950 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    195 mL
                                                                     54 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 285
   PIP: 29 cmH2O
   Plateau: 17 cmH2O
   SpO2: 95%
   ABG: ///21/
   Ve: 6 L/min
   Physical Examination
   Eyes / Conjunctiva: L pupil reactive
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: anteriorly)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, No(t) Oriented (to): intubated
   and sedated, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   222 K/uL
   10.1 g/dL
   97 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.0 mEq/L
   36 mg/dL
   106 mEq/L
   135 mEq/L
   30.0 %
   9.7 K/uL
        [image002.jpg]
                             [**2115-4-15**]  04:25 AM
                             [**2115-4-16**]  03:29 PM
                             [**2115-4-17**]  03:11 AM
                             [**2115-4-18**]  04:35 AM
                             [**2115-4-19**]  03:57 AM
                             [**2115-4-19**]  03:28 PM
                             [**2115-4-20**]  03:10 AM
                             [**2115-4-21**]  04:52 AM
                             [**2115-4-22**]  04:23 AM
                             [**2115-4-23**]  05:06 AM
   WBC
   8.2
   9.6
   16.6
   13.1
   13.9
   12.0
   12.2
   9.3
   9.7
   Hct
   31.1
   30.8
   30.3
   34.0
   28.6
   30.0
   31.1
   31.1
   30.0
   Plt
   230
   210
   233
   237
   220
   259
   [**Telephone/Fax (3) 2537**]
   Cr
   1.0
   0.9
   0.8
   0.9
   0.8
   0.9
   0.8
   0.7
   0.8
   TCO2
   28
   Glucose
   78
   143
   116
   117
   102
   113
   98
   85
   97
   Other labs: PT / PTT / INR:13.2/30.5/1.1, CK / CKMB /
   Troponin-T:241/12/0.39, Albumin:2.7 g/dL, LDH:214 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Imaging: daily cxr
   Microbiology: none since [**4-17**]
   Assessment and Plan
   76 year old F with history a seizure disorder, chronic vent dependence
   transfered for hypoxia, and altered mental status.
   # Pseudomonal pneumonia: Moderate growth of pseudomonas on sputum
   cuilture from [**2037-4-14**], sensitive to cefepime.  Blood cultures with
   NGTD, and urine cultures negative.   Moderate AFB on concentrated
   smear, non TB.  Have discontinued respiratory isolation.
   - last day of cefepime for a seven day course today [**2115-4-23**]
   .
    # Altered Mental Status: Found to be in sub-clinical status
   epilepticus- unclear etiology.  Differential includes anoxic brain
   injury as patient had a PEA prior to admission, toxic/metabolic
   encephalopathy from infection vs drugs (patient had  mildly elevated
   dilantin level), or underlying seizure disorder..  MRI negative for
   mass or infectious focus.   She had a prior admission with similar
   altered mental status, however, EEG was negative at that time.  She had
   an extensive neuro work up at that time which was largely unrevealing
   including LP, paraneoplastic labs which were negative, SPEP/UPEP,
   MRI/MRA brain, EMG concerning for critical illness myopathy.
   - LP today to r/o meningitis, need to obtain consent
   - wean midazolam to 1mg/hr, keppra, phenytoin, follow daily phenytoin
   levels
   - final read of MRI shows L posterior parietal small infarct which is
   likely not contributing to overall picture per neuro
   - Follow up EEG read
   - Neuro recs
   - Sural nerve biopsy for neuropathy once stable - family not willing to
   consent as patient in satus
   .
   # Respiratory failure
   - RSBI 285
   - Continue with current ventilator settings
   - daily RSBI with SBT if appropriate
   .
    #Volume Status:
   - patient gradually more overloaded over last week, CXR with pleural
   effusions, will durese with lasix with goal -500 today
   - hold BP meds
   .
   # Vomiting/regurgitation: Had KUB on admission showing stool in the
   [**Last Name (LF) 800**], [**First Name3 (LF) **] have led to worsening residuals, vomiting and aspiration.
   S/p aggressive bowel regimen with BM at this time.  Regurgitation also
   improved at this time.  Will start senna and colace to assist with BM
   and avoid precipitating further aspiration.
   - Aggressive bowel regimen, currently having BMs
   .
    # Anemia: Baseline appears to be 27-28.  stable
   .
   # Hypertension: Per history hypertension mostly a problem during
   breathing trials. Was initially normotensive in the setting of
   dehydration and potential infection so BP meds held.  Restarted on some
   home meds with some improvement in blood pressure.
   - Labetalol 800 TID, clonidine, hydralazine, lopressor all being HELD
   given hypotension with dilantin/propofol.  Would restart labetalol
   first w/ hydralazine next for afterload reduction.
   ICU Care
   Nutrition:
   Comments: TF close to goal
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-4-16**] 09:38 AM
   PICC Line - [**2115-4-21**] 05:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-04-23 10:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   MRI with small acute infacrt in left posterior parietal white matter
   Likely stenosis of right post comm artery
   Rx with Ativan x 1 with SZ at noon yesterday increased versed to
   2mg/day
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-4-22**] 07:30 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2115-4-22**] 04:01 PM
   Other medications:
   Keppra 1500
   Dilantin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-23**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 77 (74 - 84) bpm
   BP: 113/57(71) {100/46(61) - 131/69(82)} mmHg
   RR: 17 (12 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
             Total In:
                                                                  1,145 mL
                                                                    852 mL
   PO:
             TF:
                                                                    281 mL
                                                                    411 mL
   IVF:
                                                                    345 mL
                                                                    221 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                    435 mL
   Urine:
                                                                    950 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    195 mL
                                                                    417 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 285
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   SpO2: 95%
   ABG: ///21/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: No(t) Endotracheal tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.1 g/dL
   222 K/uL
   97 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.0 mEq/L
   36 mg/dL
   106 mEq/L
   135 mEq/L
   30.0 %
   9.7 K/uL
        [image002.jpg]
                             [**2115-4-15**]  04:25 AM
                             [**2115-4-16**]  03:29 PM
                             [**2115-4-17**]  03:11 AM
                             [**2115-4-18**]  04:35 AM
                             [**2115-4-19**]  03:57 AM
                             [**2115-4-19**]  03:28 PM
                             [**2115-4-20**]  03:10 AM
                             [**2115-4-21**]  04:52 AM
                             [**2115-4-22**]  04:23 AM
                             [**2115-4-23**]  05:06 AM
   WBC
   8.2
   9.6
   16.6
   13.1
   13.9
   12.0
   12.2
   9.3
   9.7
   Hct
   31.1
   30.8
   30.3
   34.0
   28.6
   30.0
   31.1
   31.1
   30.0
   Plt
   230
   210
   233
   237
   220
   259
   [**Telephone/Fax (3) 2537**]
   Cr
   1.0
   0.9
   0.8
   0.9
   0.8
   0.9
   0.8
   0.7
   0.8
   TCO2
   28
   Glucose
   78
   143
   116
   117
   102
   113
   98
   85
   97
   Other labs: PT / PTT / INR:13.6/31.9/1.2, CK / CKMB /
   Troponin-T:241/12/0.39, Albumin:2.7 g/dL, LDH:214 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   1.  Status Epilepticus:
   -Keppra increased to 1500mg [**Hospital1 **]
   - Dilantin ongoing
   -Midazolam started for better control of status epilepticus as patient
   still with frequent bursts of seizure activity and hypotension on
   propofol.  Patient with complete control of seizure activity on
   Midazolam and able to wean propofol completely off, currently at 2mg/hr
 but may be able to wean [**Doctor Last Name **] down to 1 mg/today
   Follow up offical read of MRI with infarct but unlikely to be
   contribting to current issues. Neuro would like LP need consent from
   family.
   Sural nerve Biopsy on hold pending consent from family
   2. Resp Failure: coninue on AC for now
   3. PSA PNA:  completing Cefepime course today
   4. Oliguria:  Seems fluid overloaded, doubt hypovolumia, but relative
   [**Name (NI) 2245**] from Antiseizure medications may be contribution.
   Will give lasix to goal 500 cc neg per day
   5. Anemia: chornic and stable
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2115-4-23**] 05:37 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-4-16**] 09:38 AM
   PICC Line - [**2115-4-21**] 05:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2115-04-24 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2115-4-23**] 04:00 PM
 EEG - At [**2115-4-23**] 08:51 PM
   Continuous
   -wean midazolam by 25% q6h, so down to 0.75mg
   -LP with great success! After my attempt, our fellow, neuro resident,
   then anesthesia saves the day and avoiding her having to go to [**Hospital Ward Name **] for neurointerventional rads. WBC 1. Gram stain negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-4-23**] 07:40 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2115-4-23**] 08:42 PM
   Heparin Sodium (Prophylaxis) - [**2115-4-24**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-24**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 76 (76 - 80) bpm
   BP: 122/58(74) {98/52(64) - 154/93(105)} mmHg
   RR: 15 (0 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
             Total In:
                                                                  1,766 mL
                                                                    662 mL
   PO:
             TF:
                                                                    870 mL
                                                                    379 mL
   IVF:
                                                                    416 mL
                                                                    183 mL
   Blood products:
   Total out:
                                                                  2,220 mL
                                                                    720 mL
   Urine:
                                                                  2,220 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -454 mL
                                                                    -58 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 146
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   SpO2: 97%
   ABG: ///22/
   Ve: 5.4 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Normal
   Labs / Radiology
   243 K/uL
   10.0 g/dL
   107 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.1 mEq/L
   36 mg/dL
   107 mEq/L
   137 mEq/L
   30.5 %
   10.5 K/uL
        [image002.jpg]
                             [**2115-4-16**]  03:29 PM
                             [**2115-4-17**]  03:11 AM
                             [**2115-4-18**]  04:35 AM
                             [**2115-4-19**]  03:57 AM
                             [**2115-4-19**]  03:28 PM
                             [**2115-4-20**]  03:10 AM
                             [**2115-4-21**]  04:52 AM
                             [**2115-4-22**]  04:23 AM
                             [**2115-4-23**]  05:06 AM
                             [**2115-4-24**]  03:37 AM
   WBC
   9.6
   16.6
   13.1
   13.9
   12.0
   12.2
   9.3
   9.7
   10.5
   Hct
   30.8
   30.3
   34.0
   28.6
   30.0
   31.1
   31.1
   30.0
   30.5
   Plt
   [**Telephone/Fax (3) 2511**]20
   259
   248
   [**Telephone/Fax (3) 2553**]
   Cr
   0.9
   0.8
   0.9
   0.8
   0.9
   0.8
   0.7
   0.8
   0.9
   TCO2
   28
   Glucose
   143
   116
   117
   102
   113
   98
   85
   97
   107
   Other labs: PT / PTT / INR:14.1/32.1/1.2, CK / CKMB /
   Troponin-T:241/12/0.39, Albumin:2.8 g/dL, LDH:214 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   76 year old F with history a seizure disorder, chronic vent dependence
   transfered for hypoxia, and altered mental status.
   # Pseudomonal pneumonia: Moderate growth of pseudomonas on sputum
   cuilture from [**2037-4-14**], sensitive to cefepime.  Blood cultures with
   NGTD, and urine cultures negative.   Moderate AFB on concentrated
   smear, non TB.  Have discontinued respiratory isolation.
   - completed cefepime course [**2115-4-23**]
   .
    # Altered Mental Status: Found to be in sub-clinical status
   epilepticus- unclear etiology.  Differential includes anoxic brain
   injury as patient had a PEA prior to admission, toxic/metabolic
   encephalopathy from infection vs drugs (patient had  mildly elevated
   dilantin level), or underlying seizure disorder..  MRI negative for
   mass or infectious focus.   She had a prior admission with similar
   altered mental status, however, EEG was negative at that time.  She had
   an extensive neuro work up at that time which was largely unrevealing
   including LP, paraneoplastic labs which were negative, SPEP/UPEP,
   MRI/MRA brain, EMG concerning for critical illness myopathy.
   - LP yesterday with negative gram stain and WBC 1, f/u culure
   - wean midazolam to 0.5mg/hr, keppra, phenytoin, follow daily phenytoin
   levels
   - if no increased EEG activity then decrease to 0.25mg/hr in 6 hours
   - final read of MRI shows L posterior parietal small infarct which is
   likely not contributing to overall picture per neuro
   - Follow up EEG read
   - Neuro recs
   - Sural nerve biopsy for neuropathy once stable - family not willing to
   consent as patient in satus
   .
   # Respiratory failure
   - RSBI 146
   - Trial PS with PS 20/PEEP 5 to exercise lungs
   - daily RSBI with SBT if appropriate
   .
    #Volume Status:
   - patient gradually more overloaded over last week, CXR with pleural
   effusions, will diurese with lasix with goal -500 today
   - hold BP meds
   .
   # Vomiting/regurgitation: Had KUB on admission showing stool in the
   [**Last Name (LF) 800**], [**First Name3 (LF) **] have led to worsening residuals, vomiting and aspiration.
   S/p aggressive bowel regimen with BM at this time.  Regurgitation also
   improved at this time.  Will start senna and colace to assist with BM
   and avoid precipitating further aspiration.
   - Aggressive bowel regimen, currently having BMs
   .
    # Anemia: Baseline appears to be 27-28.  stable
   .
   # Hypertension: Per history hypertension mostly a problem during
   breathing trials. Was initially normotensive in the setting of
   dehydration and potential infection so BP meds held.  Restarted on some
   home meds with some improvement in blood pressure.
   - Labetalol 800 TID, clonidine, hydralazine, lopressor all being HELD
   given hypotension with dilantin/propofol.  Would restart labetalol
   first w/ hydralazine next for afterload reduction.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2115-4-24**] 07:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-4-16**] 09:38 AM
   PICC Line - [**2115-4-21**] 05:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-04-24 11:33:00 Physician Attending Progress Note
Chief Complaint: resp failure, status epilepticus
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2115-4-23**] 04:00 PM
 EEG - At [**2115-4-23**] 08:51 PM
   Continuous
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-4-23**] 07:40 PM
   Infusions:
   Midazolam (Versed) - 0.3 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2115-4-23**] 08:42 PM
   Ranitidine (Prophylaxis) - [**2115-4-24**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2115-4-24**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-24**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 76 (76 - 80) bpm
   BP: 134/77(92) {98/52(64) - 154/93(105)} mmHg
   RR: 14 (0 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
             Total In:
                                                                  1,766 mL
                                                                  1,130 mL
   PO:
             TF:
                                                                    870 mL
                                                                    560 mL
   IVF:
                                                                    416 mL
                                                                    320 mL
   Blood products:
   Total out:
                                                                  2,220 mL
                                                                    995 mL
   Urine:
                                                                  2,220 mL
                                                                    995 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -454 mL
                                                                    135 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 146
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   SpO2: 97%
   ABG: ///22/
   Ve: 6.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   243 K/uL
   107 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.1 mEq/L
   36 mg/dL
   107 mEq/L
   137 mEq/L
   30.5 %
   10.5 K/uL
        [image002.jpg]
                             [**2115-4-16**]  03:29 PM
                             [**2115-4-17**]  03:11 AM
                             [**2115-4-18**]  04:35 AM
                             [**2115-4-19**]  03:57 AM
                             [**2115-4-19**]  03:28 PM
                             [**2115-4-20**]  03:10 AM
                             [**2115-4-21**]  04:52 AM
                             [**2115-4-22**]  04:23 AM
                             [**2115-4-23**]  05:06 AM
                             [**2115-4-24**]  03:37 AM
   WBC
   9.6
   16.6
   13.1
   13.9
   12.0
   12.2
   9.3
   9.7
   10.5
   Hct
   30.8
   30.3
   34.0
   28.6
   30.0
   31.1
   31.1
   30.0
   30.5
   Plt
   [**Telephone/Fax (3) 2511**]20
   259
   248
   [**Telephone/Fax (3) 2553**]
   Cr
   0.9
   0.8
   0.9
   0.8
   0.9
   0.8
   0.7
   0.8
   0.9
   TCO2
   28
   Glucose
   143
   116
   117
   102
   113
   98
   85
   97
   107
   Other labs: PT / PTT / INR:14.1/32.1/1.2, CK / CKMB /
   Troponin-T:241/12/0.39, Albumin:2.8 g/dL, LDH:214 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   1.  Status Epilepticus:
   -Keppra increased to 1500mg [**Hospital1 **]
   - Dilantin level above 20 this am adjusted for albumin
   -Midazolam started for better control of status epilepticus as patient
   still with frequent bursts of seizure activity and hypotension on
   propofol.  Patient with complete control of seizure activity on
   Midazolam and able to wean propofol completely off, currently at 2mg/hr
 but may be able to wean back down to 1 mg/today
   Follow up offical read of MRI with infarct but unlikely to be
   contribting to current issues. Neuro would like LP need consent from
   family.
   Sural nerve Biopsy on hold pending consent from family
   2. Resp Failure: profound weakness, will change to high PSV(20/5)  as
   is spontaneously ventilating.
   3. PSA PNA:  completed cefipime course
   4. Volume Overload: goal 500 cc neg per day watching CR and bicarb ,
   daily weights
   5. Anemia: chronic and stable
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2115-4-24**] 07:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-4-16**] 09:38 AM
   PICC Line - [**2115-4-21**] 05:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held  Comments: fam meeting 2:30 today
   planned
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2115-04-25 07:55:00 Physician Resident Progress Note
Chief Complaint: SCSE
   24 Hour Events:
   - More activity on EEG, so increased versed back to 1mg gtt
   - Healthcare Proxy came in, discussed current situation with family,
   upset about current situation, would like to discuss with neurology
   - ? starting phenobarbital, patient with previous adverse reaction
   - tolerated brief trial of pressure support during the day
   - 40mg IV lasix for net out -40cc
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-4-23**] 07:40 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2115-4-24**] 09:00 AM
   Furosemide (Lasix) - [**2115-4-24**] 10:41 PM
   Heparin Sodium (Prophylaxis) - [**2115-4-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-25**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.7
   HR: 83 (73 - 83) bpm
   BP: 117/55(71) {99/49(64) - 134/77(92)} mmHg
   RR: 17 (14 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
             Total In:
                                                                  2,298 mL
                                                                    584 mL
   PO:
             TF:
                                                                  1,040 mL
                                                                    300 mL
   IVF:
                                                                    768 mL
                                                                    185 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                  1,260 mL
   Urine:
                                                                  1,600 mL
                                                                  1,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    698 mL
                                                                   -676 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 477 (477 - 477) mL
   PS : 18 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 199
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   SpO2: 94%
   ABG: ///23/
   Ve: 6.9 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Not assessed
   Labs / Radiology
   226 K/uL
   10.0 g/dL
   94 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.1 mEq/L
   36 mg/dL
   107 mEq/L
   138 mEq/L
   32.0 %
   13.1 K/uL
        [image002.jpg]
                             [**2115-4-17**]  03:11 AM
                             [**2115-4-18**]  04:35 AM
                             [**2115-4-19**]  03:57 AM
                             [**2115-4-19**]  03:28 PM
                             [**2115-4-20**]  03:10 AM
                             [**2115-4-21**]  04:52 AM
                             [**2115-4-22**]  04:23 AM
                             [**2115-4-23**]  05:06 AM
                             [**2115-4-24**]  03:37 AM
                             [**2115-4-25**]  03:37 AM
   WBC
   16.6
   13.1
   13.9
   12.0
   12.2
   9.3
   9.7
   10.5
   13.1
   Hct
   30.3
   34.0
   28.6
   30.0
   31.1
   31.1
   30.0
   30.5
   32.0
   Plt
   233
   237
   220
   259
   [**Telephone/Fax (2) 2568**]43
   226
   Cr
   0.8
   0.9
   0.8
   0.9
   0.8
   0.7
   0.8
   0.9
   0.8
   TCO2
   28
   Glucose
   116
   117
   102
   113
   98
   85
   97
   107
   94
   Other labs: PT / PTT / INR:14.1/32.1/1.2, CK / CKMB /
   Troponin-T:241/12/0.39, Albumin:2.8 g/dL, LDH:214 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   76 year old F with history a seizure disorder, chronic vent dependence
   transfered for hypoxia, and altered mental status.
   # Pseudomonal pneumonia: Moderate growth of pseudomonas on sputum
   cuilture from [**2037-4-14**], sensitive to cefepime.  Blood cultures with
   NGTD, and urine cultures negative.   Moderate AFB on concentrated
   smear, non TB.  Have discontinued respiratory isolation.
   - completed cefepime course [**2115-4-23**]
   .
    # Altered Mental Status: Found to be in sub-clinical status
   epilepticus- unclear etiology.  Differential includes anoxic brain
   injury as patient had a PEA prior to admission, toxic/metabolic
   encephalopathy from infection vs drugs (patient had  mildly elevated
   dilantin level), or underlying seizure disorder..  MRI negative for
   mass or infectious focus.   She had a prior admission with similar
   altered mental status, however, EEG was negative at that time.  She had
   an extensive neuro work up at that time which was largely unrevealing
   including LP, paraneoplastic labs which were negative, SPEP/UPEP,
   MRI/MRA brain, EMG concerning for critical illness myopathy.
   - LP yesterday with negative gram stain and WBC 1, f/u culure
   - wean midazolam to 0.5mg/hr, keppra, phenytoin, follow daily phenytoin
   levels
   - if no increased EEG activity then decrease to 0.25mg/hr in 6 hours
   - final read of MRI shows L posterior parietal small infarct which is
   likely not contributing to overall picture per neuro
   - Follow up EEG read
   - Neuro recs
   - Sural nerve biopsy for neuropathy once stable - family not willing to
   consent as patient in satus
   .
   # Respiratory failure
   - RSBI 146
   - Trial PS with PS 20/PEEP 5 to exercise lungs
   - daily RSBI with SBT if appropriate
   .
    #Volume Status:
   - patient gradually more overloaded over last week, CXR with pleural
   effusions, will diurese with lasix with goal -500 today
   - hold BP meds
   .
   # Vomiting/regurgitation: Had KUB on admission showing stool in the
   [**Last Name (LF) 800**], [**First Name3 (LF) **] have led to worsening residuals, vomiting and aspiration.
   S/p aggressive bowel regimen with BM at this time.  Regurgitation also
   improved at this time.  Will start senna and colace to assist with BM
   and avoid precipitating further aspiration.
   - Aggressive bowel regimen, currently having BMs
   .
    # Anemia: Baseline appears to be 27-28.  stable
   .
   # Hypertension: Per history hypertension mostly a problem during
   breathing trials. Was initially normotensive in the setting of
   dehydration and potential infection so BP meds held.  Restarted on some
   home meds with some improvement in blood pressure.
   - Labetalol 800 TID, clonidine, hydralazine, lopressor all being HELD
   given hypotension with dilantin/propofol.  Would restart labetalol
   first w/ hydralazine next for afterload reduction.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2115-4-21**] 05:45 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-04-25 11:49:00 Physician Attending Progress Note
Chief Complaint: status epilepticus
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Failed PSV trial for apnea
   Persistent sz last PM- versed increased
   This AM concerning again for non convulsive status - plan for pentobarb
   drip
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-4-23**] 07:40 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2115-4-24**] 10:41 PM
   Heparin Sodium (Prophylaxis) - [**2115-4-25**] 08:02 AM
   Other medications:
   Versed gtts at
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-25**] 11:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 79 (73 - 83) bpm
   BP: 136/70(87) {105/49(67) - 136/73(90)} mmHg
   RR: 17 (15 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
             Total In:
                                                                  2,298 mL
                                                                    903 mL
   PO:
             TF:
                                                                  1,040 mL
                                                                    300 mL
   IVF:
                                                                    768 mL
                                                                    324 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                  1,685 mL
   Urine:
                                                                  1,600 mL
                                                                  1,685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    698 mL
                                                                   -782 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 477 (477 - 477) mL
   RR (Set): 12
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 199
   PIP: 22 cmH2O
   SpO2: 93%
   ABG: ///23/
   Ve: 5.9 L/min
   Physical Examination
   General Appearance: Thin, right eye closed with gauze overlying
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Chest: fair air movement bibasilar rales
   Neurologic: Responds to noxious stimuli only
 unchanged from yesterday
   Labs / Radiology
   10.0 g/dL
   226 K/uL
   94 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.1 mEq/L
   36 mg/dL
   107 mEq/L
   138 mEq/L
   32.0 %
   13.1 K/uL
        [image002.jpg]
                             [**2115-4-17**]  03:11 AM
                             [**2115-4-18**]  04:35 AM
                             [**2115-4-19**]  03:57 AM
                             [**2115-4-19**]  03:28 PM
                             [**2115-4-20**]  03:10 AM
                             [**2115-4-21**]  04:52 AM
                             [**2115-4-22**]  04:23 AM
                             [**2115-4-23**]  05:06 AM
                             [**2115-4-24**]  03:37 AM
                             [**2115-4-25**]  03:37 AM
   WBC
   16.6
   13.1
   13.9
   12.0
   12.2
   9.3
   9.7
   10.5
   13.1
   Hct
   30.3
   34.0
   28.6
   30.0
   31.1
   31.1
   30.0
   30.5
   32.0
   Plt
   233
   237
   220
   259
   [**Telephone/Fax (2) 2568**]43
   226
   Cr
   0.8
   0.9
   0.8
   0.9
   0.8
   0.7
   0.8
   0.9
   0.8
   TCO2
   28
   Glucose
   116
   117
   102
   113
   98
   85
   97
   107
   94
   Other labs: PT / PTT / INR:14.1/32.1/1.2, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:14/29, Alk Phos / T Bili:163/0.3,
   Albumin:2.8 g/dL, LDH:214 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   1.  Status Epilepticus: refractory now - appears to be non convulsive
   status- initiating pentobarb coma- wean off versed after pentobarb load
   - increase by 0.5 for peristent activity
   -Dilantin level above 20 this am adjusted for albumin
   -neurology following
   Sural nerve Biopsy on hold pending consent from family
   2. Resp Failure: profound weakness, failed PSV yesterday but now in
   status and needs full support
   3. PSA PNA:  completed cefipime course, increased secretions now,
   repeat CXR and send sputum
   4. Volume Overload: goal 500 cc neg per day watching CR and bicarb ,
   daily weights
   5. Anemia: chronic and stable
   ICU Care
   Nutrition: TFS
   Glycemic Control:
   Lines:
   PICC Line - [**2115-4-21**] 05:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2115-04-26 07:51:00 Physician Resident Progress Note
Chief Complaint: Resp failure and weakness
   24 Hour Events:
   -Required multiple dose escalations of phenobarbital, currently at
   75mg/hr
   -Met with her sons, to schedule a meeting with the family and
   neurology.  They are in agreement to do so this weekend.  We will need
   to find out what the neurology attendings availability is for this.
   they would like to meet on saturday, but will call friday afternoon to
   let us know the best time.  [**Doctor Last Name 2429**] seems to understand the issue of
   quality of life, however, the HCP [**Doctor Last Name 435**] is having problems accepting
   this.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-4-23**] 07:40 PM
   Infusions:
   Pentobarbital - 1.2 mg/Kg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2115-4-25**] 12:15 PM
   Furosemide (Lasix) - [**2115-4-26**] 04:04 AM
   Heparin Sodium (Prophylaxis) - [**2115-4-26**] 07:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-26**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.1
   HR: 81 (79 - 87) bpm
   BP: 91/52(61) {89/44(55) - 136/73(90)} mmHg
   RR: 14 (11 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
             Total In:
                                                                  1,975 mL
                                                                    947 mL
   PO:
             TF:
                                                                    931 mL
                                                                    588 mL
   IVF:
                                                                    604 mL
                                                                    158 mL
   Blood products:
   Total out:
                                                                  2,750 mL
                                                                    425 mL
   Urine:
                                                                  2,750 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -775 mL
                                                                    522 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 170
   PIP: 17 cmH2O
   Plateau: 15 cmH2O
   SpO2: 95%
   ABG: ///24/
   Ve: 5.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, on left
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: , Rhonchorous: )
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Decreased, does not follow commands
   Labs / Radiology
   206 K/uL
   10.1 g/dL
   103 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.3 mEq/L
   41 mg/dL
   106 mEq/L
   137 mEq/L
   31.8 %
   13.7 K/uL
        [image002.jpg]
                             [**2115-4-18**]  04:35 AM
                             [**2115-4-19**]  03:57 AM
                             [**2115-4-19**]  03:28 PM
                             [**2115-4-20**]  03:10 AM
                             [**2115-4-21**]  04:52 AM
                             [**2115-4-22**]  04:23 AM
                             [**2115-4-23**]  05:06 AM
                             [**2115-4-24**]  03:37 AM
                             [**2115-4-25**]  03:37 AM
                             [**2115-4-26**]  03:58 AM
   WBC
   13.1
   13.9
   12.0
   12.2
   9.3
   9.7
   10.5
   13.1
   13.7
   Hct
   34.0
   28.6
   30.0
   31.1
   31.1
   30.0
   30.5
   32.0
   31.8
   Plt
   237
   220
   259
   [**Telephone/Fax (2) 2590**]26
   206
   Cr
   0.9
   0.8
   0.9
   0.8
   0.7
   0.8
   0.9
   0.8
   0.9
   TCO2
   28
   Glucose
   117
   102
   113
   98
   85
   97
   107
   94
   103
   Other labs: PT / PTT / INR:13.8/32.9/1.2, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:18/28, Alk Phos / T Bili:162/0.3,
   Albumin:2.8 g/dL, LDH:219 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   76 year old F with history a seizure disorder, chronic vent dependence
   transfered for hypoxia, and altered mental status.
   .
    # Altered Mental Status: Found to be in sub-clinical status
   epilepticus- unclear etiology.  Differential includes anoxic brain
   injury as patient had a PEA prior to admission, toxic/metabolic
   encephalopathy from infection vs drugs (patient had  mildly elevated
   dilantin level), or underlying seizure disorder..  MRI negative for
   mass or infectious focus.   She had a prior admission with similar
   altered mental status, however, EEG was negative at that time.  She had
   an extensive neuro work up at that time which was largely unrevealing
   including LP, paraneoplastic labs which were negative, SPEP/UPEP,
   MRI/MRA brain, EMG concerning for critical illness myopathy.
   Persistent status epilepticus upon trying to wean of versed
   - LP cx ngtd
   - patient now on pentobarbitol gtt given persistent NCSE, titrate
   0.5mg/kg/hr to vurst suppression
   - continue keppra and dilantin, levels at target goal
   - final read of MRI shows L posterior parietal small infarct which is
   likely not contributing to overall picture per neuro
   - Follow up EEG read
   - Neuro recs
   - Sural nerve biopsy for neuropathy once stable - family not willing to
   consent as patient in status
   .
   # Respiratory failure
   - RSBI 170
   - continue current vent settings, vent dependent
   - daily RSBI with SBT if appropriate
   - sputum pending
   .
    #Volume Status:
   - patient gradually more overloaded over last week, CXR with pleural
   effusions, will diurese with lasix with goal -500 today
   - standing lasix
   - follow Cr, stable
   - hold BP meds
   .
   # Constipation: Had KUB on admission showing stool in the [**Last Name (LF) 800**], [**First Name3 (LF) **]
   have led to worsening residuals, vomiting and aspiration. S/p
   aggressive bowel regimen with BM at this time.  Regurgitation also
   improved at this time.  Will start senna and colace to assist with BM
   and avoid precipitating further aspiration.
   - Aggressive bowel regimen, optimize regimen, 2 BM yesterday
   .
    # Anemia: Baseline appears to be 27-28.  stable
   .
   # Hypertension: Per history hypertension mostly a problem during
   breathing trials. Was initially normotensive in the setting of
   dehydration and potential infection so BP meds held.  Restarted on some
   home meds with some improvement in blood pressure.
   - Labetalol 800 TID, clonidine, hydralazine, lopressor all being HELD
   given hypotension with dilantin/propofol.  Would restart labetalol
   first w/ hydralazine next for afterload reduction.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2115-4-26**] 04:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2115-4-21**] 05:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-04-26 11:40:00 Physician Attending Progress Note
Chief Complaint: status epilepticus
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Pentobarb increased as not yet received burst suppression
   BPs trendng down as this has gone up and having low BP during Dilantin
   infusion requiring IVF bolus
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-4-23**] 07:40 PM
   Infusions:
   Pentobarbital - 1.7 mg/Kg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2115-4-25**] 12:15 PM
   Furosemide (Lasix) - [**2115-4-26**] 04:04 AM
   Heparin Sodium (Prophylaxis) - [**2115-4-26**] 07:41 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Neurologic: Seizure
   Flowsheet Data as of  [**2115-4-26**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.2
   HR: 85 (79 - 87) bpm
   BP: 105/49(63) {89/44(55) - 125/73(83)} mmHg
   RR: 19 (11 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
             Total In:
                                                                  1,975 mL
                                                                  1,285 mL
   PO:
             TF:
                                                                    931 mL
                                                                    716 mL
   IVF:
                                                                    604 mL
                                                                    290 mL
   Blood products:
   Total out:
                                                                  2,750 mL
                                                                    735 mL
   Urine:
                                                                  2,750 mL
                                                                    735 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -775 mL
                                                                    553 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 170
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   SpO2: 94%
   ABG: ///24/
   Ve: 5.3 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: Sclera edema, right scleral edema
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Diminished, no wheeze
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Neurologic:: Unresponsive to tactile stim, reactive pupils
   Labs / Radiology
   10.1 g/dL
   206 K/uL
   103 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.3 mEq/L
   41 mg/dL
   106 mEq/L
   137 mEq/L
   31.8 %
   13.7 K/uL
        [image002.jpg]
                             [**2115-4-18**]  04:35 AM
                             [**2115-4-19**]  03:57 AM
                             [**2115-4-19**]  03:28 PM
                             [**2115-4-20**]  03:10 AM
                             [**2115-4-21**]  04:52 AM
                             [**2115-4-22**]  04:23 AM
                             [**2115-4-23**]  05:06 AM
                             [**2115-4-24**]  03:37 AM
                             [**2115-4-25**]  03:37 AM
                             [**2115-4-26**]  03:58 AM
   WBC
   13.1
   13.9
   12.0
   12.2
   9.3
   9.7
   10.5
   13.1
   13.7
   Hct
   34.0
   28.6
   30.0
   31.1
   31.1
   30.0
   30.5
   32.0
   31.8
   Plt
   237
   220
   259
   [**Telephone/Fax (2) 2590**]26
   206
   Cr
   0.9
   0.8
   0.9
   0.8
   0.7
   0.8
   0.9
   0.8
   0.9
   TCO2
   28
   Glucose
   117
   102
   113
   98
   85
   97
   107
   94
   103
   Other labs: PT / PTT / INR:13.8/32.9/1.2, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:18/28, Alk Phos / T Bili:162/0.3,
   Albumin:2.8 g/dL, LDH:219 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   1. Status Epilepticus: refractory now - appears to be in non convulsive
   status- initiated pentobarb coma but increasing doses over past 18
   hours- this is in addition to dilantin, keppra.
   We are now having difficulty with hemodynamics during anti epiletic
   transfusions
   -Neurology following- need to have present at family meeting to discuss
   overall poor prognosis and help family with decision making.
   Sural nerve Biopsy on hold pending consent from family
   2. Resp Failure: profound weakness, failed PSV 2 days ago and now in
   status and needs full support, slightly decreased sats this AM- CXR
   stable, check sputum Cx
   3. Volume Overload: bilat eff, need to hold off on diuresis while
   trying to get all AED on board
   5. Anemia: chronic and stable
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2115-4-26**] 04:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2115-4-21**] 05:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: chlorhex HOB
   Communication:   Dr [**Last Name (STitle) 1138**] has meet with [**Doctor Last Name 2429**] and [**Doctor Last Name 435**] extensively. We
   will bring [**Doctor Last Name 39**] our social worker in to help. [**Doctor Last Name 435**] is having a lot of
   difficultly seeing his mother this ill and at times even communicating
   with the medical team. As such, it makes his role as HCP challenging.
   [**Name2 (NI) **] looks to his brother [**Name (NI) 2429**] for support who is equally saddened by
   his mothers condition but more able to participate in conversations
   about her poevrall poor prognosis. We will try to set up a meeting with
   [**Doctor Last Name 435**] and Ralp over the weekend and we will need to have a bigger
   meeting with MICU and Neuro teams next week.
   We would like to bring Palliative Care on board when family would seem
   amenable
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2115-04-27 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   BP low all day since on pentobarb and dilantin
   Bolused fluids with no response, pt. anasarcic
   Dopamine with initial response
   Transient desaturation likely due to overload with good response to
   PEEP and inc FiO2
   ECG unchanged, ABG fine, CXR volume overload, blood and urin cx sent
   Switched to levophed given more peripheral squeeze with levophed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Pentobarbital - 1.7 mg/Kg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2115-4-27**] 12:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-27**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 80 (76 - 104) bpm
   BP: 103/61(72) {73/40(50) - 169/83(107)} mmHg
   RR: 18 (13 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
             Total In:
                                                                  5,252 mL
                                                                    724 mL
   PO:
             TF:
                                                                  1,253 mL
                                                                    278 mL
   IVF:
                                                                  3,439 mL
                                                                    347 mL
   Blood products:
   Total out:
                                                                  1,035 mL
                                                                     80 mL
   Urine:
                                                                  1,035 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,217 mL
                                                                    644 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.39/39/94.[**Numeric Identifier 128**]/20/0
   Ve: 6.9 L/min
   PaO2 / FiO2: 157
   Physical Examination
   General Appearance: ill appearing
   Eyes / Conjunctiva: L-pupil sluggishly reactive
   Head, Ears, Nose, Throat: trach, L-facial droop
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic), ?S3,
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Coarse breath sounds anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, firm
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing,
   +Scral edema, and upper extremity edema
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   322 K/uL
   10.3 g/dL
   131 mg/dL
   1.1 mg/dL
   20 mEq/L
   5.2 mEq/L
   45 mg/dL
   107 mEq/L
   138 mEq/L
   33.2 %
   22.8 K/uL
        [image002.jpg]
                             [**2115-4-19**]  03:28 PM
                             [**2115-4-20**]  03:10 AM
                             [**2115-4-21**]  04:52 AM
                             [**2115-4-22**]  04:23 AM
                             [**2115-4-23**]  05:06 AM
                             [**2115-4-24**]  03:37 AM
                             [**2115-4-25**]  03:37 AM
                             [**2115-4-26**]  03:58 AM
                             [**2115-4-27**]  03:32 AM
                             [**2115-4-27**]  04:48 AM
   WBC
   12.0
   12.2
   9.3
   9.7
   10.5
   13.1
   13.7
   22.8
   Hct
   30.0
   31.1
   31.1
   30.0
   30.5
   32.0
   31.8
   33.2
   Plt
   259
   248
   211
   222
   243
   226
   206
   322
   Cr
   0.9
   0.8
   0.7
   0.8
   0.9
   0.8
   0.9
   1.1
   TCO2
   28
   24
   Glucose
   113
   98
   85
   97
   107
   94
   103
   131
   Other labs: PT / PTT / INR:13.8/32.9/1.2, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:18/28, Alk Phos / T Bili:162/0.3,
   Lactic Acid:1.9 mmol/L, Albumin:2.7 g/dL, LDH:219 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR: IMPRESSION:
   1. Stable moderate bilateral effusions and atelectasis.
   Microbiology: No new culture data
   Assessment and Plan
   76 year old F with history a seizure disorder, chronic vent dependence
   transfered for hypoxia, and altered mental status.
   .
   #Leukocytosis: Increasing WBC count, new fever concerning for partially
   treated pseudomonal pneumonia given 2+ GNR in sputum and previous LLL
   infiltrate that has not fully cleared.  Also with risk of C. Diff given
   recent antibiotics.  Also with lines concerning for possible line
   infection.
   -          Will cover broadly with vanc/cefepime/cipro and PO vanco.
   Obtain stool, sputum, blood , urine, daily CXR.
   -          Consider repeat CT chest for ? consolidation noted
   previously.
   -          Levophed for BP support as per below.
   #Hypotension: Increasing pressure support yesterday thought [**1-19**] to
   anti-epileptic medications, but given new WBC count and fever may be
   component of sepsis as well.  Patient is hypervolemic on exam with low
   albumin which may suggest possible component of intravascular
   depletion.
   -          Continue pressors today.  Patient felt to be
full tanked
   yesterday and clearly is hypervolemic on exam so would not push fluids
   aggressively at this time.
   -          MAP goal of 60.
   .
    # Altered Mental Status: Found to be in sub-clinical status
   epilepticus- unclear etiology.  Differential includes anoxic brain
   injury as patient had a PEA prior to admission, toxic/metabolic
   encephalopathy from infection vs drugs (patient had  mildly elevated
   dilantin level), or underlying seizure disorder..  MRI negative for
   mass or infectious focus.   She had a prior admission with similar
   altered mental status, however, EEG was negative at that time.  She had
   an extensive neuro work up at that time which was largely unrevealing
   including LP, paraneoplastic labs which were negative, SPEP/UPEP,
   MRI/MRA brain, EMG concerning for critical illness myopathy.
   Persistent status epilepticus upon trying to wean of versed.  Now on
   pentobarb gtt and in burst suppression.
   - Wean pentobarb gtt as per neurology
   - LP cx ngtd
   - continue keppra and dilantin, levels at target goal
   - final read of MRI shows L posterior parietal small infarct which is
   likely not contributing to overall picture per neuro
   - Neuro recs
   - Sural nerve biopsy for neuropathy once stable - family not willing to
   consent as patient in status
   .
   -
   # Respiratory failure: Diuresis would likely improve respiratory
   status, but given hypotension will not pursue diuresis today.
   - continue current vent settings, vent dependent
   - daily RSBI with SBT if appropriate
   - sputum 2+ GNR, 1+GPR, will treat for HAP with vanc/pseudomonas/cipro
   and peel coverage on basis of culture data.
   .
   # Constipation: Had KUB on admission showing stool in the [**Last Name (LF) 800**], [**First Name3 (LF) **]
   have led to worsening residuals, vomiting and aspiration. S/p
   aggressive bowel regimen with BM at this time.  Regurgitation also
   improved at this time.  Will start senna and colace to assist with BM
   and avoid precipitating further aspiration.
   - Aggressive bowel regimen, optimize regimen, 2 BM yesterday
   - Kayexelate today for K 5.2 this AM.
   .
    # Anemia: Baseline appears to be 27-28.  stable
   .
   # Goals care: family meeting to be planned for tomorrow with neurology
   and ICU team to establish long terms goals of care, code status and
   prognosis
   -          SW consult, patient relations.
   FULL CODE
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2115-4-27**] 04:34 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2115-4-21**] 05:45 PM
   20 Gauge - [**2115-4-26**] 08:42 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: ranitidine
   VAP:  chlorhexedine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-05-02 06:53:00 Physician Resident Progress Note
Chief Complaint: Ms [**Known lastname 2473**] is a 76F with chronic respiratory failure
   of unknown etiology with vent dependence, history of a seizure disorder
   who presented with AMS and hypoxemia following an aspiration event.
   Hospital [**Last Name (un) 2736**] has been complicated by non-convulsive status
   epilepticus, recurrent pseudomonal pneumonias, hypotension, respiratory
   failure, and ARF.
   24 Hour Events:
   -Ethics met with [**Last Name (LF) 2429**], [**First Name3 (LF) 178**] communicate with him from now on, and he
   will just give [**Doctor Last Name 435**] updates
   -Pentobarb off, then went back into status, placed back on at 0.5mg
   drip
   -Levophed on 0.04
   -Sats 93% on 50%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2115-4-29**] 08:00 AM
   Cefipime - [**2115-5-1**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2115-5-2**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-2**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 70 (67 - 72) bpm
   BP: 119/54(69) {98/35(51) - 123/58(99)} mmHg
   RR: 22 (13 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
    CVP: 14 (7 - 22)mmHg
   Total In:
                                                                  2,587 mL
                                                                    613 mL
   PO:
   TF:
                                                                    832 mL
                                                                    240 mL
   IVF:
                                                                  1,655 mL
                                                                    272 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                     80 mL
   Urine:
                                                                    500 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,087 mL
                                                                    533 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 26 cmH2O
   Plateau: 25 cmH2O
   SpO2: 97%
   ABG: ///16/
   Ve: 7.5 L/min
   Physical Examination
   Eyes / Conjunctiva: left pupil slugish
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic), regular
   rhythm, normal rate
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), coarse ventilated breath
   sounds
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Non -purposeful, Sedated, Tone: Not
   assessed
   Labs / Radiology
   204 K/uL
   9.7 g/dL
   120 mg/dL
   1.7 mg/dL
   16 mEq/L
   4.2 mEq/L
   67 mg/dL
   105 mEq/L
   138 mEq/L
   29.9 %
   9.8 K/uL
        [image002.jpg]
                             [**2115-4-25**]  03:37 AM
                             [**2115-4-26**]  03:58 AM
                             [**2115-4-27**]  03:32 AM
                             [**2115-4-27**]  04:48 AM
                             [**2115-4-28**]  03:25 AM
                             [**2115-4-29**]  04:04 AM
                             [**2115-4-29**]  12:29 PM
                             [**2115-4-30**]  03:51 AM
                             [**2115-5-1**]  02:59 AM
                             [**2115-5-2**]  05:08 AM
   WBC
   13.1
   13.7
   22.8
   15.0
   14.1
   13.9
   10.1
   9.8
   Hct
   32.0
   31.8
   33.2
   31.7
   32.8
   32.1
   30.4
   29.9
   Plt
   [**Telephone/Fax (2) 2737**]04
   Cr
   0.8
   0.9
   1.1
   1.4
   1.6
   1.7
   1.7
   1.7
   1.7
   TCO2
   24
   Glucose
   94
   103
   131
   111
   110
   122
   130
   113
   120
   Other labs: PT / PTT / INR:13.8/33.1/1.2, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:[**8-8**], Alk Phos / T Bili:157/0.2,
   Differential-Neuts:74.8 %, Band:0.0 %, Lymph:16.0 %, Mono:5.5 %,
   Eos:3.3 %, Lactic Acid:1.6 mmol/L, Albumin:2.3 g/dL, LDH:196 IU/L,
   Ca++:7.4 mg/dL, Mg++:2.2 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   Ms [**Known lastname 2473**] is a 76F with chronic respiratory failure of unknown
   etiology with vent dependence, history of a seizure disorder who
   presented with AMS and hypoxemia following an aspiration event.
   Hospital [**Last Name (un) 2736**] has been complicated by non-convulsive status
   epilepticus, recurrent pseudomonal pneumonias, hypotension, respiratory
   failure, and ARF.
   # Non-convulsive status epilepticus: Burst suppressed x24hrs on
   Saturday, pentobarb weaned on [**5-1**].  Re-entered status on [**5-2**] and
   placed back on pentobarb
   -Continue pentobarb for now at 0.5, increasing 0.5 q6H until family
   discussion is held given poor prognosis.
   -Continue keppra and dilantin, with daily dilantin levels due to her
   low albumin and nutrtion status
   -Follow up neuro recs.
   # Respiratory failure: unclear etiology, post-polio syndrome vs.
   critical care neuropathy vs. chest wall restriction.  PIP and Pplateau
   both equal at 24-25, and under 30.  ABG shows improvement in pH and
   pCO2 with increased respiratory rate.
   -Sural nerve biopsy on hold during acute illness
   -Monitor VBG's and adjust RR as needed to prevent acidemia
   #. Hypotension: Secondary to pentobarb, which will be in system for one
   more week, and possibly to infection (VAP).  Weaned off of levophed.
   CVPs are normal, with intravascular depletion and ATN suggesting poor
   forward flow.  Levophed off.
   -Follow up micro and continue abx
   -consider albumin to help expand intravascular volume if she becomes
   hypotensive on pentobarb with lasix.
   # Pseudomonal PNA: ventilator associated, second round during this
   hospitalization
   -continue double coverage with cefepime/cipro, day [**4-27**]
   # ARF: Likely related to Pre-renal failure with a component of ATN.  Cr
   seems to have stabilized at 1.7, UOP still remains low.
   -Will monitor clinically for autodiuresis
   -No acute indication for CVVH at this time
   -Consider albumin in help expand intravascular fluid and help renal
   perfusion
   -Renally dose meds
   ICU Care
   Nutrition:
   Glycemic Control:  Comments: No need
   Lines:
   Multi Lumen - [**2115-4-28**] 09:51 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2115-05-02 09:57:00 Physician Attending Progress Note
Chief Complaint: status epilepticus
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 yo F w/chronic resp failure on vent (?NM--post polio syndrome, icu
   myopathy, chest wall restriction), sz d/o, and recent progressive
   neurologic decline of unclear [**Name2 (NI) 2663**] admitted following tube feed
   aspiration and witnessed sz w/ altered mental status and hypoxemia.
   --In non-convulsive status epilepticus burst suppressed after induction
   of pentobarb coma with recurrent status after pentobarb weaned to off
   -- Course further c/b MOSF with hypotension, requiring pressors,
   recurrent VAP and ARF
   24 Hour Events:
   pentobarb weaned to off and developed recurrent status epilepticus
   levophed off  with MAPS > 60
   tolerated O2 decrease to 40%
   vent rate increased to 16 to correct for metabolic acidosis / ph of
   7.28
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-5-2**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2115-5-2**] 08:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-2**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36
C (96.8
   HR: 74 (68 - 74) bpm
   BP: 141/58(78) {98/35(51) - 141/58(99)} mmHg
   RR: 20 (12 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
   CVP: 14 (7 - 22)mmHg
   Total In:
                                                                  2,587 mL
                                                                  1,012 mL
   PO:
   TF:
                                                                    832 mL
                                                                    385 mL
   IVF:
                                                                  1,655 mL
                                                                    387 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                    170 mL
   Urine:
                                                                    500 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,087 mL
                                                                    842 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 16
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 26 cmH2O
   Plateau: 25 cmH2O
   SpO2: 95%
   ABG: ///16/  pending
   Ve: 7.5 L/min
   Physical Examination
   General Appearance: Overweight / Obese, unresponsive, + anasarca
   Eyes / Conjunctiva: Pupils dilated, L rx, sluggish
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL, r ij site clean, trached
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: , Rhonchorous throughout )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis, No(t) Clubbing,
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, No(t) Sedated, No(t)
   Paralyzed, Tone: Decreased
   Labs / Radiology
   9.7 g/dL
   204 K/uL
   120 mg/dL
   1.7 mg/dL
   16 mEq/L  (18)
   4.2 mEq/L
   67 mg/dL (60's)
   105 mEq/L
   138 mEq/L
   29.9 %
   9.8 K/uL
        [image002.jpg]
                             [**2115-4-25**]  03:37 AM
                             [**2115-4-26**]  03:58 AM
                             [**2115-4-27**]  03:32 AM
                             [**2115-4-27**]  04:48 AM
                             [**2115-4-28**]  03:25 AM
                             [**2115-4-29**]  04:04 AM
                             [**2115-4-29**]  12:29 PM
                             [**2115-4-30**]  03:51 AM
                             [**2115-5-1**]  02:59 AM
                             [**2115-5-2**]  05:08 AM
   WBC
   13.1
   13.7
   22.8
   15.0
   14.1
   13.9
   10.1
   9.8
   Hct
   32.0
   31.8
   33.2
   31.7
   32.8
   32.1
   30.4
   29.9
   Plt
   [**Telephone/Fax (2) 2737**]04
   Cr
   0.8
   0.9
   1.1
   1.4
   1.6
   1.7
   1.7
   1.7
   1.7
   TCO2
   24
   Glucose
   94
   103
   131
   111
   110
   122
   130
   113
   120
   Other labs: PT / PTT / INR:13.8/33.1/1.2, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:[**8-8**], Alk Phos / T Bili:157/0.2,
   Differential-Neuts:74.8 %, Band:0.0 %, Lymph:16.0 %, Mono:5.5 %,
   Eos:3.3 %, Lactic Acid:1.6 mmol/L, Albumin:2.3 g/dL, LDH:196 IU/L,
   Ca++:7.4 mg/dL, Mg++:2.2 mg/dL, PO4:5.8 mg/dL
   Imaging: cxr trach in airway, R IJ ok, rotated
   b/l effusions layering
   Microbiology: stool neg c diff     vbg:  7.31/40
   urine [**4-28**]--neg
   blood 5/10--ngtd
   Assessment and Plan
   76 yo F w/chronic resp failure on vent (?NM--post polio syndrome, icu
   myopathy, chest wall restriction), sz d/o, and recent progressive
   neurologic decline of unclear [**Name2 (NI) 2663**] admitted following tube feed
   aspiration and witnessed sz w/ altered mental status and hypoxemia.
      Course c/b non-convulsive status epilepticus, burst suppressed after
   induction of pentobarb coma and now  recurent after pentobarb weaned
   off and MOSF with hypotension, requiring pressors, recurrent VAP and
   ARF.
   Prognosis remains extremely poor.
   Ongoing discussions with family regarding goals of care.  Ethics
   service involved.
   Main issues remain:
   # Non-convulsive status epilepticus
   Burst supressed with pentobarb, now in recurrent status after pentobarb
   weaned off
    - Restaring pentobarb
   -  Continues on Keppra and Dilantin (follow level)
   Prognosis for CNS recover remains extremely grim,  now recurrent status
   Await additional input from neuro team
   # Resp Failure
   #pseudomonal pna
   # resp muscle weakness weakness of unclear [**Name2 (NI) **] (? critical care
   neuropathy, post-polio, restriction from obesity/chest wall)
   - Continuing cipro/cefepime for pseudomal pneumonia day [**4-27**]
   - continue full vent support w/ increased RR to correct metabolic
   acidosis. Sats > 95%  on 40% fio2 and peep 5
   - will need sig volume removal/diuresis  to tolerate wean, though given
   persistent status/unresponsiveness not a wean candidate at this time
    # Hypotension
   multifactorial  [**1-19**] AEDs and infection/shock, shock component seems to
   have resolved
   now off levophed with MAPS > 60, though may require pressor support
   once pentobarb restarted
   -f/u cx data
   -continue antibx as above
   - Hct 30, no indication for transfusion/colloid
   # ARF/metabolic acidosis
   intravasc vol down despite total body vol overloaded
   (hypoalbuminemic)/ATN/infection.
   PIPs/plateaus remain not elevated to suggest intrabdominal hypertension
   cr  plateaud, w/ minimal u/o, may be new baseline
   trial lasix ggt for diuresis and to help with u/o,  though will likely
   require pressor support  once pentobarb restarted
   without acute indication for HD/CVVH at this time and remains with an
   extremely grave prognosis for recovery
   # Leukocystosis
   now normalized
   #  MOSF with poor prognosis--family discussions ongoing, social work
   involved.
   Ethics following.  Palliative care also aware of pt case.  Continue to
   work with family/ to addresss goals of care in light of extremely grave
   prognosis for recovery.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2115-5-2**] 05:56 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2115-4-28**] 09:51 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2115-05-03 07:05:00 Physician Resident Progress Note
Chief Complaint: Chronic respiratory filure, non-convulsive status
   epilepticus, recurrent ventilator associated PNA, ARF, hypotension
   .
   24 Hour Events:
   - [**Doctor First Name 744**] spent hours with [**Doctor Last Name 435**] and [**First Name5 (NamePattern1) 2429**] [**Last Name (NamePattern1) 2761**] situation, they
   want transfer to [**Last Name (LF) 1244**], [**First Name3 (LF) **] [**Doctor First Name **] called and spoke with senior neuro
   resident at [**Hospital1 1244**] who will look into ICU availability, there is a
   detailed note in metavision
   - neuro rec depakote to prevent status once weaned off pentobarb but it
   is not able to be crushed down tube per pharmacy so will need to
   re-address today
   - continues on levophed and grossly overloaded
   - VBG stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-5-2**] 08:00 AM
   Ciprofloxacin - [**2115-5-2**] 10:00 AM
   Infusions:
   Pentobarbital - 1 mg/Kg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2115-5-2**] 11:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-3**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.9
   HR: 73 (70 - 76) bpm
   BP: 99/53(65) {95/39(54) - 141/65(78)} mmHg
   RR: 15 (12 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
    CVP: 13 (10 - 25)mmHg
   Total In:
                                                                  2,584 mL
                                                                    636 mL
   PO:
   TF:
                                                                    962 mL
                                                                    267 mL
   IVF:
                                                                  1,042 mL
                                                                    268 mL
   Blood products:
   Total out:
                                                                    360 mL
                                                                    125 mL
   Urine:
                                                                    360 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,224 mL
                                                                    511 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 16
   RR (Spontaneous): 5
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   SpO2: 95%
   ABG: ///15/
   Ve: 8.8 L/min
   Physical Examination
   General Appearance: No acute distress, Intubated, sedated,
   non-responsive to verbal or painful stimuli
   Eyes / Conjunctiva: Left pupil sluggishly reactive, right eye proptosis
   with non-reactive pupil
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic), regular
   rhythm, normal rate
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), course ventilated breath
   sounds
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Non -purposeful, Sedated, Tone: Decreased
   Labs / Radiology
   216 K/uL
   9.5 g/dL
   109 mg/dL
   2.0 mg/dL
   15 mEq/L
   4.2 mEq/L
   70 mg/dL
   104 mEq/L
   136 mEq/L
   29.4 %
   9.8 K/uL
        [image002.jpg]
                             [**2115-4-26**]  03:58 AM
                             [**2115-4-27**]  03:32 AM
                             [**2115-4-27**]  04:48 AM
                             [**2115-4-28**]  03:25 AM
                             [**2115-4-29**]  04:04 AM
                             [**2115-4-29**]  12:29 PM
                             [**2115-4-30**]  03:51 AM
                             [**2115-5-1**]  02:59 AM
                             [**2115-5-2**]  05:08 AM
                             [**2115-5-3**]  04:52 AM
   WBC
   13.7
   22.8
   15.0
   14.1
   13.9
   10.1
   9.8
   9.8
   Hct
   31.8
   33.2
   31.7
   32.8
   32.1
   30.4
   29.9
   29.4
   Plt
   [**Telephone/Fax (3) **]
   204
   216
   Cr
   0.9
   1.1
   1.4
   1.6
   1.7
   1.7
   1.7
   1.7
   2.0
   TCO2
   24
   Glucose
   103
   131
   111
   110
   122
   130
   113
   120
   109
   Other labs: PT / PTT / INR:14.1/33.7/1.2, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:[**8-8**], Alk Phos / T Bili:157/0.2,
   Differential-Neuts:74.8 %, Band:0.0 %, Lymph:16.0 %, Mono:5.5 %,
   Eos:3.3 %, Lactic Acid:1.9 mmol/L, Albumin:2.2 g/dL, LDH:196 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Imaging: CXR [**5-2**]: Tracheostomy tube is seen in standard position.
   Right IJ tip is in the lower   SVC. Large bilateral pleural effusions
   associated with adjacent atelectasis are unchanged. Cardiomediastinal
   silhouette is obscured by the pleural parenchymal opacities
   Microbiology: Catheter tip (PICC) [**4-29**]: finally negative
   Blood culture from [**4-27**] with NGTD
   Urine [**4-27**]: yeast
   Stool negative for C. diff
   Assessment and Plan
   76F with chronic respiratory failure, non-convulsive status
   epilepticus, hypotensive, ARF, recurrent pseudomonal ventilator
   associated pneumonia
   # Non-convulsive status epilepticus: Did not tolerate pento-barb wean,
   re-entering non-convulsive status.  Neurology and ICU team met with
   family regarding poor prognosis, they are requesting transfer to [**Hospital1 1244**]
   neurology ICU.
   -Restarted pentobarb, and added depakote per neuro recs.  Continues on
   keppra and dilantin
   -F/u neuro recs, continuing EEG monitoring
   -Prognosis poor, however patient would like transfer to [**Hospital1 1244**] neuro ICU
   # Resp Failure: unclear etiology, work-up on hold secondary to current
   issues.   VGB's stable on Fio2 40%, 400x16, most recent ABG
   7.33/32/40.  PIP 24, plateau 24.  Also volume overloaded, however have
   been unable to diurese in the setting of hypotension
   -continue current vent settings
   -monitor VBGs, increasing RR to correct metabolic acidosis
   -Will need diuresis when feasible ie: pressure can tolerate
   # pseudomonal pna
   -cipro/cefepime, day [**5-28**]
    # Hypotension: intravascular volume depleted despite significant
   extravascular volume overload.  [**1-19**] AED's and likely septic shock from
   PNA.  CVP has been 12, MAPs 50s-70s on levophed
   -abx for PNA as above
   -Levophed to keep MAPs>60
   # ARF: with a gap acidosis likely from uremia.  Cr. bumped from 1.7-2
   Gap 17 today with continued decrease in bicarb.  Likely secondary to
   ATn in the setting o low perfusion pressure to the kidneys.  UOP
   minimal
   -On levophed, so a trial of lasix would not be appropriate
   -pH still stable, no acute indication for CVVH
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2115-5-3**] 01:10 AM 40 mL/hour
   Glycemic Control:  Comments: Not needed
   Lines:
   Multi Lumen - [**2115-4-28**] 09:51 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: Full code
   Disposition:ICU

2115-05-03 12:16:00 Physician Attending Progress Note
Chief Complaint: status epilepticus
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 yo F w/chronic resp failure on vent (?NM--post polio syndrome, icu
   myopathy, chest wall restriction), sz d/o, and recent progressive
   neurologic decline of unclear [**Name2 (NI) 2663**] admitted following tube feed
   aspiration and witnessed sz w/ altered mental status and hypoxemia.
   - Course c/b non-convulsive status epilepticus, burst suppressed after
   induction of pentobarb coma and now recurent after pentobarb weaned off
   and MOSF with hypotension, requiring pressors, recurrent VAP and ARF.
   24 Hour Events:
   2 family mtgs
   [**Name6 (MD) **] placed  MD transfer line for [**Hospital1 1244**] transfer per family request
   pentobarb restarted and depakote added per neuro recs
   History obtained from ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-5-3**] 08:00 AM
   Ciprofloxacin - [**2115-5-3**] 10:00 AM
   Infusions:
   Pentobarbital - 1 mg/Kg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2115-5-3**] 08:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-3**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.1
   HR: 73 (71 - 76) bpm
   BP: 97/49(60) {95/46(58) - 135/65(80)} mmHg
   RR: 24 (15 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
   CVP: 15 (13 - 25)mmHg
   Total In:
                                                                  2,584 mL
                                                                  1,357 mL
   PO:
   TF:
                                                                    962 mL
                                                                    477 mL
   IVF:
                                                                  1,042 mL
                                                                    550 mL
   Blood products:
   Total out:
                                                                    360 mL
                                                                    205 mL
   Urine:
                                                                    360 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,224 mL
                                                                  1,152 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 16
   RR (Spontaneous): 5
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 26 cmH2O
   SpO2: 96%
   ABG: ///15/  7.33/32
   Ve: 8.8 L/min
   Physical Examination
   General Appearance: Overweight / Obese, unresponsive, intubated, gross
   anasarca
   Eyes / Conjunctiva: l dilated, rx
   Head, Ears, Nose, Throat: Normocephalic, trach
   Lymphatic: No(t) Cervical WNL
   Coarse ronchi
   Rr
   Hypoactive BS, less distended, edematous
   Peripheral Vascular: (Right radial pulse:present), (Left radial
   pulse:present), (Right DP pulse: present), (Left DP pulse:prsent)
   Skin:  warm
   Neurologic: unresponsive
   Labs / Radiology
   9.5 g/dL
   216 K/uL
   109 mg/dL
   2.0 mg/dL  (1.7)
   15 mEq/L
   4.2 mEq/L
   70 mg/dL
   104 mEq/L
   136 mEq/L
   29.4 %
   9.8 K/uL
        [image002.jpg]
                             [**2115-4-26**]  03:58 AM
                             [**2115-4-27**]  03:32 AM
                             [**2115-4-27**]  04:48 AM
                             [**2115-4-28**]  03:25 AM
                             [**2115-4-29**]  04:04 AM
                             [**2115-4-29**]  12:29 PM
                             [**2115-4-30**]  03:51 AM
                             [**2115-5-1**]  02:59 AM
                             [**2115-5-2**]  05:08 AM
                             [**2115-5-3**]  04:52 AM
   WBC
   13.7
   22.8
   15.0
   14.1
   13.9
   10.1
   9.8
   9.8
   Hct
   31.8
   33.2
   31.7
   32.8
   32.1
   30.4
   29.9
   29.4
   Plt
   [**Telephone/Fax (3) **]
   204
   216
   Cr
   0.9
   1.1
   1.4
   1.6
   1.7
   1.7
   1.7
   1.7
   2.0
   TCO2
   24
   Glucose
   103
   131
   111
   110
   122
   130
   113
   120
   109
   Other labs: PT / PTT / INR:14.1/33.7/1.2, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:[**8-8**], Alk Phos / T Bili:157/0.2,
   Differential-Neuts:74.8 %, Band:0.0 %, Lymph:16.0 %, Mono:5.5 %,
   Eos:3.3 %, Lactic Acid:1.9 mmol/L, Albumin:2.2 g/dL, LDH:196 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Imaging: cxr--b/l effusions layering, trach in airway, R IJ unchanged
   Microbiology: picc [**4-29**] neg
   [**4-27**] bl ngtd
   urine [**4-27**]-yesast--foley chnaged
   stool c diff neg
   Assessment and Plan
   76 yo F w/chronic resp failure on vent (?NM--post polio syndrome, icu
   myopathy, chest wall restriction), sz d/o, and recent progressive
   neurologic decline of unclear [**Name2 (NI) 2663**] admitted following tube feed
   aspiration and witnessed sz w/ altered mental status and hypoxemia.
   - Course c/b non-convulsive status epilepticus, burst suppressed after
   induction of pentobarb coma and now recurent after pentobarb weaned off
   and MOSF with hypotension, requiring pressors, recurrent VAP and ARF.
   - Prognosis remains extremely poor.
   - Ongoing discussions with family regarding goals of care.
   - Ethics service involved.
   Primary issues remain:
   # Non-convulsive status epilepticus
   -continue pentobarb with plan to again taper off, depakote added
   (follow plt/lfts)
   -continue  Keppra and Dilantin (follow level)
   - Await additional input from neuro team
   - Prognosis for CNS recover remains extremely poor
   # Resp Failure
   #pseudomonal pna
   # resp muscle weakness weakness of unclear [**Name2 (NI) **] (? critical care
   neuropathy, post-polio, restriction from obesity/chest wall)
   - cipro/cefepime for pseudomal pneumonia day [**5-28**]
   - continue ACV  40% peep 10
   # Hypotension
   multifactorial  [**1-19**] AEDs and infection/shock, ? cardiac component
   -  f/u cx data
   - continue antibx as above
   - hct 30, no indication for transfusion/colloid
   - check TTE
   # ARF/metabolic acidosis
atn/low perfusion/ med related
 cvp 15 and
   with gross anasarca
   Creatinine/bun increasing
   - echo to assess EF, low cardiac out flow may be contributing
   - PIPs/plateaus remain not elevated to suggest intrabdominal
   hypertension, but will recheck abd pressures to r/o abd compartment
   syndrome given gross vol o/l
   - Will d/w renal team cvvh, though do not feel cvvh is a  bridge to
   recovery
   #  Goals of care
   MOSF with poor prognosis--family discussions ongoing, social work
   involved, ethics following
   Palliative care also aware of pt case.
   Continue to work with family/ to addresss goals of care in light of
   extremely poor prognosis for recovery.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2115-5-3**] 01:10 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-4-28**] 09:51 PM
   Prophylaxis:
   DVT:  sq hep
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 45
   Ctirically ill

2115-05-03 19:31:00 Physician Resident Progress Note
Communication:
   Spoke with on call neurology resident at [**Hospital1 1244**] ([**First Name8 (NamePattern2) 378**] [**Last Name (NamePattern1) 2766**]), who
   called regarding patient [**Known lastname 2473**].  Updated her on patient
s interim
   course over the past week.  She is currenly on pentobarb, dilantin,
   depakote which was started yestereday  and keppra for epillepsy.  She
   also had a fever last week and has been restarted on antibiotics for
   vent associated pneumonia.  Patient has been intermittenly hypotensive,
   especially with infusion of pentobarb and required levophed.  She was
   restarted on levophed.
   Patient has also had worsening renal failure creatinine upto 2.0 and
   has been oliguric.  Renal was consulted today and recommended lasix
   drip to see if urine output picks up.
   Addendum:
   Dr. [**Last Name (STitle) 2766**] called back and stated that after discussion with the
   neurology fellow they believe that it would be in the best interest of
   the patient if she was transferred on Monday because they would not be
   able to hook her upto continuous EEG monitoring over the weekend.  She
   advised to page the neurology oncall consult resident by calling
   [**0-0-**], pager no. [**Serial Number 2767**] on Monday to facilitate the transfer.

2115-05-04 07:02:00 Physician Resident Progress Note
Chief Complaint: Pneumonia, status
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2115-5-3**] 03:32 PM
 ULTRASOUND - At [**2115-5-3**] 10:30 PM
   bil lower ext
   - TTE: RV with severe pressure/volume overload.
   - Put in for LENI's for evaluation for DVT -> negative.
   - Bladder pressures 15mmhg -> not c/w ACS but not nml.  On 10 of
   pressure supportso this may transmit as well.
   - Mixed Venous O2 -> > 70% on basis of PO2 on VBG.
   - Neuro: Add depakote, continue pentobarb at 1
   - Started lasix gtt
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-5-3**] 08:00 AM
   Ciprofloxacin - [**2115-5-3**] 10:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Furosemide (Lasix) - 5 mg/hour
   Pentobarbital - 1 mg/Kg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2115-5-3**] 09:15 PM
   Heparin Sodium (Prophylaxis) - [**2115-5-3**] 11:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-4**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 71 (70 - 75) bpm
   BP: 108/49(63) {94/41(56) - 135/63(80)} mmHg
   RR: 11 (0 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
    CVP: 19 (14 - 19)mmHg
   Total In:
                                                                  2,345 mL
                                                                    573 mL
   PO:
   TF:
                                                                    971 mL
                                                                    270 mL
   IVF:
                                                                    864 mL
                                                                    203 mL
   Blood products:
   Total out:
                                                                    285 mL
                                                                     95 mL
   Urine:
                                                                    285 mL
                                                                     95 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,060 mL
                                                                    478 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 398 (381 - 410) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 93%
   ABG: ///14/
   Ve: 9.2 L/min
   Physical Examination
   General Appearance: Overweight / Obese, ill appearing
   Eyes / Conjunctiva: PERRL, L-pupil reactive
   Head, Ears, Nose, Throat: facial assymetry
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended
   Extremities: Right: 3+, Left: 3+, 2+ pre-sacral edema/anisarca
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   221 K/uL
   9.6 g/dL
   109 mg/dL
   2.2 mg/dL
   14 mEq/L
   4.3 mEq/L
   71 mg/dL
   105 mEq/L
   134 mEq/L
   31.1 %
   11.1 K/uL
        [image002.jpg]
                             [**2115-4-27**]  03:32 AM
                             [**2115-4-27**]  04:48 AM
                             [**2115-4-28**]  03:25 AM
                             [**2115-4-29**]  04:04 AM
                             [**2115-4-29**]  12:29 PM
                             [**2115-4-30**]  03:51 AM
                             [**2115-5-1**]  02:59 AM
                             [**2115-5-2**]  05:08 AM
                             [**2115-5-3**]  04:52 AM
                             [**2115-5-4**]  04:12 AM
   WBC
   22.8
   15.0
   14.1
   13.9
   10.1
   9.8
   9.8
   11.1
   Hct
   33.2
   31.7
   32.8
   32.1
   30.4
   29.9
   29.4
   31.1
   Plt
   322
   251
   268
   261
   187
   204
   216
   221
   Cr
   1.1
   1.4
   1.6
   1.7
   1.7
   1.7
   1.7
   2.0
   2.2
   TCO2
   24
   Glucose
   131
   111
   110
   122
   130
   113
   120
   109
   109
   Other labs: PT / PTT / INR:14.1/33.7/1.2, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:[**7-10**], Alk Phos / T Bili:163/0.2,
   Differential-Neuts:74.8 %, Band:0.0 %, Lymph:16.0 %, Mono:5.5 %,
   Eos:3.3 %, Lactic Acid:2.7 mmol/L, Albumin:2.2 g/dL, LDH:210 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:6.0 mg/dL
   Imaging: USD: Slightly limited evaluation as described above, but no
   evidence of DVT
   bilaterally.
   .
   CXR: The tracheostomy is at the midline with its tip approximately 5 cm
   above the carina. The right internal jugular line tip is at the
   cavoatrial junction.
   .
   There is no interval change in moderate cardiomegaly, bibasal
   consolidation,
   and moderate-to-large pleural effusion.
   Microbiology: No New Data
   Assessment and Plan
   76F with chronic respiratory failure, non-convulsive status
   epilepticus, hypotensive, ARF, recurrent pseudomonal ventilator
   associated pneumonia
   .
   # Non-convulsive status epilepticus: Did not tolerate pento-barb wean,
   re-entering non-convulsive status.  Neurology and ICU team met with
   family regarding poor prognosis, they are requesting transfer to [**Hospital1 1244**]
   neurology ICU.
   -Restarted pentobarb, and added depakote per neuro recs.  Continues on
   keppra and dilantin
   -F/u neuro recs, continuing EEG monitoring
   -Prognosis poor, however patient would like transfer to [**Hospital1 1244**] neuro ICU
   - f/u phenytoin and valproic acid levels -> d/w neurology.
   .
   # Resp Failure: unclear etiology, Pna w. volume overload, work-up on
   hold secondary to current issues.   VGB's stable on Fio2 40%, 400x16,
   most recent ABG 7.33/32/40.  PIP 24, plateau 24.  Also volume
   overloaded, however have been unable to diurese in the setting of
   hypotension
   -continue current vent settings
   -monitor VBGs, increasing RR to correct metabolic acidosis.
   -Will need diuresis when feasible ie: pressure can tolerate.
   - ?PE given RV pressure volume overload.  LENI's negative.
   .
   # pseudomonal pna
   -cipro/cefepime, day [**6-27**] of second course.
   .
    # Hypotension: CVPs normal, MAPS low, more consistent with
   cardiogenic/
   -TTE: With blown RV on TTE suggesting possible PE.  No e/o LV systolic
   dysfunciton to support cardiogenic shock and mixed venous O2 sat's >70%
   c/w sepsis.  Will continue with levophed at this time given its beta-1
   activity in addition to peripheral alpha. -> d/w cardiology regarding
   echo results ? PE vs. volume overload.
   -abx for PNA as above
   -Levophed to keep MAPs>60
   - Replete ionized calcium.
   .
   # ARF: with a gap acidosis likely from uremia.  Cr. bumped from 2 ->
   2.2 Gap 20 w/o correcting for alblumin today with continued decrease in
   bicarb.  Likely secondary to ATn in the setting o low perfusion
   pressure to the kidneys.  UOP minimal
   - Gap [**1-19**] uremia with possible component of mildly elevated lactate.
   - Acidosis stable by last VBG.
   - Trial of lasix gtt at this time
goal of net out.
   -pH still stable, no acute indication for CVVH
   - Consider phosphate binder d/w renal.
   .
   # GI: Go Lytely today with goal of BM.
   #Hyponatremia: Hypervolemic hyponatremia.  Diuresis.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2115-5-4**] 12:53 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-4-28**] 09:51 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2115-05-04 10:12:00 Physician Attending Progress Note
Chief Complaint: status epilepticus
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 yo F w/chronic resp failure on vent (?NM--post polio syndrome, icu
   myopathy, chest wall restriction), sz d/o, and recent progressive
   neurologic decline of unclear [**Name2 (NI) 2663**] admitted following tube feed
   aspiration and witnessed sz w/ altered mental status and hypoxemia.
   - Course c/b non-convulsive status epilepticus, burst suppressed after
   induction of pentobarb coma and now recurent after pentobarb weaned off
   and MOSF with hypotension, requiring pressors, recurrent VAP and ARF.
   - Prognosis remains extremely poor.
   - Ongoing discussions with family regarding goals of care.
   - Ethics service involved.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2115-5-3**] 03:32 PM
      mod RV dil, severe global HK, abnl septal motion/position c/w RV
   pressure vol o/l, HK free wall, mild sym lv hypert, lv small, nl ef >
   55%, 3 + TR, mod [**Last Name (un) 469**], PR, c/t [**2115-2-16**]--now severe RV sys dysfx
 ULTRASOUND - At [**2115-5-3**] 10:30 PM
   bil lower ext--neg, limited study
   -> lasix gtt started
   bladder pressures 15
   mixed venous sat > 70%
   History obtained from ho
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-5-3**] 08:00 AM
   Ciprofloxacin - [**2115-5-3**] 10:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Furosemide (Lasix) - 7 mg/hour
   Pentobarbital - 1 mg/Kg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2115-5-3**] 09:15 PM
   Heparin Sodium (Prophylaxis) - [**2115-5-3**] 11:28 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-4**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 70 (70 - 73) bpm
   BP: 99/49(61) {94/41(56) - 111/56(68)} mmHg
   RR: 23 (0 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
   CVP: 354 (14 - 358)mmHg
   Total In:
                                                                  2,345 mL
                                                                    782 mL
   PO:
   TF:
                                                                    971 mL
                                                                    388 mL
   IVF:
                                                                    864 mL
                                                                    294 mL
   Blood products:
   Total out:
                                                                    285 mL
                                                                    155 mL
   Urine:
                                                                    285 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,060 mL
                                                                    627 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 380 (380 - 410) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 96%
   ABG: vbg 7.24/34/40 (7.24/37/51)
   Ve: 9.2 L/min
   Physical Examination
   General Appearance: Overweight / Obese, gross anasarca
   Eyes / Conjunctiva: No(t) PERRL, Pupils dilated, L rx
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended,
   Obese, hypoactive BS
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: Not assessed, No(t)
   Sedated, No(t) Paralyzed, Tone: Decreased
   Labs / Radiology
   9.6 g/dL
   221 K/uL
   109 mg/dL
   2.2 mg/dL (2.0)
   14 mEq/L (15)
   4.3 mEq/L
   71 mg/dL
   105 mEq/L
   134 mEq/L (136)
   31.1 %
   11.1 K/uL
        [image002.jpg]
                             [**2115-4-27**]  03:32 AM
                             [**2115-4-27**]  04:48 AM
                             [**2115-4-28**]  03:25 AM
                             [**2115-4-29**]  04:04 AM
                             [**2115-4-29**]  12:29 PM
                             [**2115-4-30**]  03:51 AM
                             [**2115-5-1**]  02:59 AM
                             [**2115-5-2**]  05:08 AM
                             [**2115-5-3**]  04:52 AM
                             [**2115-5-4**]  04:12 AM
   WBC
   22.8
   15.0
   14.1
   13.9
   10.1
   9.8
   9.8
   11.1
   Hct
   33.2
   31.7
   32.8
   32.1
   30.4
   29.9
   29.4
   31.1
   Plt
   322
   251
   268
   261
   187
   204
   216
   221
   Cr
   1.1
   1.4
   1.6
   1.7
   1.7
   1.7
   1.7
   2.0
   2.2
   TCO2
   24
   Glucose
   131
   111
   110
   122
   130
   113
   120
   109
   109
   Other labs: PT / PTT / INR:14.1/33.7/1.2, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:[**7-10**], Alk Phos / T Bili:163/0.2,
   Differential-Neuts:74.8 %, Band:0.0 %, Lymph:16.0 %, Mono:5.5 %,
   Eos:3.3 %, Lactic Acid:2.7 mmol/L, Albumin:2.2 g/dL, LDH:210 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:6.0 mg/dL
   Imaging: LENIs-neg
   echo
   Microbiology: no new data
   Assessment and Plan
   76 yo F w/chronic resp failure on vent (?NM--post polio syndrome, icu
   myopathy, chest wall restriction), sz d/o, and recent progressive
   neurologic decline of unclear [**Name2 (NI) 2663**] admitted following tube feed
   aspiration and witnessed sz w/ altered mental status and hypoxemia.
   - Course c/b non-convulsive status epilepticus, burst suppressed after
   induction of pentobarb coma and now recurent after pentobarb weaned off
   and MOSF with hypotension, requiring pressors, recurrent VAP and
   progressive renal failure ARF.
   - Prognosis remains extremely poor.
   - Ongoing discussions with family regarding goals of care.
   - Ethics service involved.
   Primary issues remain:
   # Non-convulsive status epilepticus
   - remains on pentobarb
 plan to again taper off per neuro, depakote
   added (follow plt/lfts)
   - continue  Keppra and Dilantin (follow level)
   - Await additional input from neuro team
   - Prognosis for CNS recover remains extremely poor
   - ongoing discussion w/ [**Hospital1 1244**] neuro ICU regarding transfer per family
   reauest
   #ECHO findings
s/o significant vol o/l, PE on ddx given RV failure new
   c/t [**Month (only) **] though w/ low clinical suspicion
no new acute hd or oxygen
   related changes, neg leni
s reassuring, d/w echo findings with  cards,
   hold on empiric anticoag, diurese to better optimize vol status
   # Resp Failure
   #pseudomonal pna
   # resp muscle weakness weakness of unclear [**Name2 (NI) **] (? critical care
   neuropathy, post-polio, restriction from obesity/chest wall)
   - cipro/cefepime for pseudomal pneumonia day [**5-28**]
   - continue ACV  40% peep 10
   # Hypotension
   multifactorial  [**1-19**] AEDs and infection/shock, ? cardiac component
   -  f/u cx data
   - continue antibx as above
   -          hct 30, no indication for transfusion/colloid
   -          ldiurese may help overall hemodynam status
   # ARF/metabolic acidosis/volume overload
atn/low perfusion/ med
   related-- cvp 15 and with gross anasarca
   Creatinine/bun increasing
   - PIPs/plateaus remain not elevated to suggest intrabdominal
   hypertension (bladder pressure 15) does not suggest compartment
   syndrome given gross vol o/l
   - Will d/w renal team cvvh, though do not feel cvvh is a  bridge to
   recovery
   Minimize ggts /inoput as jmuch as posisble
   # hyponatremia
 hypervolemic hypernatremia
   Lasix gtt may help, follow lytes [**Hospital1 **]
   # constipation/ileus
continue aggressive bowel reg
   #  Goals of care
   MOSF with poor prognosis--family discussions ongoing, social work
   involved, ethics following
   Continue to work with family/ to addresss goals of care in light of
   extremely poor prognosis for recovery.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2115-5-4**] 12:53 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2115-4-28**] 09:51 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2115-05-05 08:34:00 Physician Resident Progress Note
Chief Complaint: NCSE
   24 Hour Events:
   Echo showed severe RV heart strain, which we reviewed with cards and
   they are calling [**Last Name (un) 2790**] sign (high suspicion for PE) so we started
   anticoagulation
   -Disimpacted and gave a soap suds enema.  Also go lytely from above.
   -Renal came be and made some recs: add diuril to lasix gtt as she is
   only putting out minimally to a gtt at 25mg/hr; obtain a serum
   osmolality/daily lactates to help characterize her gap acidosis; give
   1L of D5W with three amps of bicarb to help worsening acidosis; give
   albumin to optimize lasix delivery to the tubule
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-5-3**] 08:00 AM
   Ciprofloxacin - [**2115-5-3**] 10:00 AM
   Infusions:
   Pentobarbital - 1 mg/Kg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Heparin Sodium - 900 units/hour
   Furosemide (Lasix) - 24 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2115-5-5**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-5**] 08:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (96.9
   HR: 74 (69 - 74) bpm
   BP: 116/53(69) {81/40(50) - 127/60(85)} mmHg
   RR: 0 (0 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
    CVP: 15 (9 - 347)mmHg
   Total In:
                                                                  2,225 mL
                                                                    759 mL
   PO:
   TF:
                                                                    563 mL
   IVF:
                                                                  1,162 mL
                                                                    709 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                    264 mL
                                                                     80 mL
   Urine:
                                                                    264 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,961 mL
                                                                    679 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 7
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 29 cmH2O
   Compliance: 21.1 cmH2O/mL
   SpO2: 99%
   ABG: ///12/
   Ve: 9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   285 K/uL
   9.9 g/dL
   111 mg/dL
   2.4 mg/dL
   12 mEq/L
   4.6 mEq/L
   76 mg/dL
   104 mEq/L
   136 mEq/L
   31.5 %
   13.7 K/uL
        [image002.jpg]
                             [**2115-4-28**]  03:25 AM
                             [**2115-4-29**]  04:04 AM
                             [**2115-4-29**]  12:29 PM
                             [**2115-4-30**]  03:51 AM
                             [**2115-5-1**]  02:59 AM
                             [**2115-5-2**]  05:08 AM
                             [**2115-5-3**]  04:52 AM
                             [**2115-5-4**]  04:12 AM
                             [**2115-5-4**]  04:20 PM
                             [**2115-5-5**]  04:01 AM
   WBC
   15.0
   14.1
   13.9
   10.1
   9.8
   9.8
   11.1
   13.7
   Hct
   31.7
   32.8
   32.1
   30.4
   29.9
   29.4
   31.1
   31.5
   Plt
   [**Telephone/Fax (3) 2709**]87
   [**Telephone/Fax (2) 2791**]85
   Cr
   1.4
   1.6
   1.7
   1.7
   1.7
   1.7
   2.0
   2.2
   2.4
   2.4
   Glucose
   111
   110
   122
   130
   113
   120
   109
   109
   119
   111
   Other labs: PT / PTT / INR:15.8/150.0/1.4, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:[**5-8**], Alk Phos / T Bili:159/0.2,
   Differential-Neuts:74.8 %, Band:0.0 %, Lymph:16.0 %, Mono:5.5 %,
   Eos:3.3 %, Lactic Acid:2.7 mmol/L, Albumin:2.1 g/dL, LDH:211 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:6.2 mg/dL
   Imaging: eeg pending
   Microbiology: 3+ gnr in sputum [**3-4**], cx pending
   Assessment and Plan
   76F with chronic respiratory failure, non-convulsive status
   epilepticus, hypotensive, ARF, recurrent pseudomonal ventilator
   associated pneumonia
   .
   # Non-convulsive status epilepticus: Did not tolerate pento-barb wean,
   re-entering non-convulsive status.  Neurology and ICU team met with
   family regarding poor prognosis, they are requesting transfer to [**Hospital1 1244**]
   neurology ICU.
   -Restarted pentobarb, and added depakote per neuro recs.  Continues on
   keppra and dilantin
   -F/u neuro recs, continuing EEG monitoring
   -Prognosis poor, however patient would like transfer to [**Hospital1 1244**] neuro ICU
   - f/u phenytoin and valproic acid levels -> d/w neurology.
   .
   # Resp Failure: unclear etiology, Pna w. volume overload, work-up on
   hold secondary to current issues.   VGB's stable on Fio2 40%, 400x16,
   most recent ABG 7.33/32/40.  PIP 24, plateau 24.  Also volume
   overloaded, however have been unable to diurese in the setting of
   hypotension
   -continue current vent settings
   -monitor VBGs, increasing RR to correct metabolic acidosis.
   -Will need diuresis when feasible ie: pressure can tolerate.
   - ?PE given RV pressure volume overload.  LENI's negative.
   .
   # pseudomonal pna
   -cipro/cefepime, day [**6-27**] of second course.
   .
    # Hypotension: CVPs normal, MAPS low, more consistent with
   cardiogenic/
   -TTE: With blown RV on TTE suggesting possible PE.  No e/o LV systolic
   dysfunciton to support cardiogenic shock and mixed venous O2 sat's >70%
   c/w sepsis.  Will continue with levophed at this time given its beta-1
   activity in addition to peripheral alpha. -> d/w cardiology regarding
   echo results ? PE vs. volume overload.
   -abx for PNA as above
   -Levophed to keep MAPs>60
   - Replete ionized calcium.
   .
   # ARF: with a gap acidosis likely from uremia.  Cr. bumped from 2 ->
   2.2 Gap 20 w/o correcting for alblumin today with continued decrease in
   bicarb.  Likely secondary to ATn in the setting o low perfusion
   pressure to the kidneys.  UOP minimal
   - Gap [**1-19**] uremia with possible component of mildly elevated lactate.
   - Acidosis stable by last VBG.
   - Trial of lasix gtt at this time
goal of net out.
   -pH still stable, no acute indication for CVVH
   - Consider phosphate binder d/w renal.
   .
   # GI: Go Lytely today with goal of BM.
   #Hyponatremia: Hypervolemic hyponatremia.  Diuresis.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-4-28**] 09:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-05-05 12:50:00 Physician Attending Progress Note
Chief Complaint:  status epilepticus
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 yo F w/chronic resp failure on vent (?NM--post polio syndrome, icu
   myopathy, chest wall restriction), sz d/o, and recent progressive
   neurologic decline of unclear [**Name2 (NI) 2663**] admitted following tube feed
   aspiration and witnessed sz w/ altered mental status and hypoxemia.
   Course c/b
   -non-convulsive status epilepticus, burst suppressed after induction of
   pentobarb coma and recurent after pentobarb weaned off -MOSF with
   hypotension, requiring pressors, recurrent VAP and progressive renal
   failure ARF.
   24 Hour Events:
   renal c/s --> diuril added to lasix gtt, bicarb, albumin
   History obtained from ho
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2115-5-3**] 10:00 AM
   Cefipime - [**2115-5-5**] 10:00 AM
   Infusions:
   Pentobarbital - 1 mg/Kg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Heparin Sodium - 900 units/hour
   Furosemide (Lasix) - 24 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2115-5-5**] 12:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-5**] 12:50 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (96.9
   HR: 74 (69 - 74) bpm
   BP: 116/53(69) {81/40(50) - 127/60(85)} mmHg
   RR: 0 (0 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
   CVP: 15 (9 - 341)mmHg
   Total In:
                                                                  2,225 mL
                                                                  1,218 mL
   PO:
   TF:
                                                                    563 mL
   IVF:
                                                                  1,162 mL
                                                                  1,093 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                    264 mL
                                                                    139 mL
   Urine:
                                                                    264 mL
                                                                    139 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,961 mL
                                                                  1,079 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 7
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 99%
   ABG: 7.19/37/48 (vbg)
   Ve: 9 L/min
   Physical Examination
   General Appearance: Overweight / Obese, gross anasarca
   Eyes / Conjunctiva: No(t) PERRL, Pupils dilated, L rx
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended,
   Obese, hypoactive BS
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: Not assessed, No(t)
   Sedated, No(t) Paralyzed, Tone: Decreased
   Labs / Radiology
   9.9 g/dL
   285 K/uL
   111 mg/dL
   2.4 mg/dL
   12 mEq/L
   4.6 mEq/L
   76 mg/dL
   104 mEq/L
   136 mEq/L
   31.5 %
   13.7 K/uL
        [image002.jpg]
                             [**2115-4-28**]  03:25 AM
                             [**2115-4-29**]  04:04 AM
                             [**2115-4-29**]  12:29 PM
                             [**2115-4-30**]  03:51 AM
                             [**2115-5-1**]  02:59 AM
                             [**2115-5-2**]  05:08 AM
                             [**2115-5-3**]  04:52 AM
                             [**2115-5-4**]  04:12 AM
                             [**2115-5-4**]  04:20 PM
                             [**2115-5-5**]  04:01 AM
   WBC
   15.0
   14.1
   13.9
   10.1
   9.8
   9.8
   11.1
   13.7
   Hct
   31.7
   32.8
   32.1
   30.4
   29.9
   29.4
   31.1
   31.5
   Plt
   [**Telephone/Fax (3) 2709**]87
   [**Telephone/Fax (2) 2791**]85
   Cr
   1.4
   1.6
   1.7
   1.7
   1.7
   1.7
   2.0
   2.2
   2.4
   2.4
   Glucose
   111
   110
   122
   130
   113
   120
   109
   109
   119
   111
   Other labs: PT / PTT / INR:15.2/150.0/1.3, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:[**5-8**], Alk Phos / T Bili:159/0.2,
   Differential-Neuts:74.8 %, Band:0.0 %, Lymph:16.0 %, Mono:5.5 %,
   Eos:3.3 %, Lactic Acid:2.7 mmol/L, Albumin:2.1 g/dL, LDH:211 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:6.2 mg/dL
   Imaging: no film
   Microbiology: urine cx [**4-27**]--yeast
   repeat urine [**5-5**]--ngtd
   sputum [**5-4**]--3+ gnr, cx pending
   c diff neg
   Assessment and Plan
   76 yo F w/chronic resp failure on vent (?NM--post polio syndrome, icu
   myopathy, chest wall restriction), sz d/o, and recent progressive
   neurologic decline of unclear [**Name2 (NI) 2663**] admitted following tube feed
   aspiration and witnessed sz w/ altered mental status and hypoxemia.
   Course c/b
   -non-convulsive status epilepticus, burst suppressed after induction of
   pentobarb coma and recurent after pentobarb weaned off -MOSF with
   hypotension, requiring pressors, recurrent VAP and progressive renal
   failure ARF w/ anasarca.
   -Prognosis remains extremely poor.
   -Ongoing discussions with family regarding goals of care.
   # Non-convulsive status epilepticus
   - remains in pentobarb coma
   -  continue depakote (follow plt/lfts), Keppra and Dilantin (follow
   level--at goal)
   -  neuro recs
   - Prognosis for CNS recover remains extremely poorfor neuro recovery
   - ongoing discussion w/ [**Hospital1 1244**] neuro ICU regarding transfer per family
   request
   # Presumed PE (echo)
   started heparin- review of echo showed RV apical sparing
   ## Resp Failure
   #pseudomonal pna
   # resp muscle weakness weakness of unclear [**Name2 (NI) **] (? critical care
   neuropathy, post-polio, restriction from obesity/chest wall)
   - cipro/cefepime for pseudomal pneumonia day [**6-27**]
   - continue ACV  40% peep 10, not wean candidate given gross vol u/l
   # Hypotension
   multifactorial  [**1-19**] AEDs and infection/shock, RV failure presumed PE
   -  f/u cxs
   - continue antibx as above
   - hct 30, no indication for transfusion
   - diurese
 lasix gtt, diuril, albumin --may help overall hemodynam
   status
   # ARF worsening gap metabolic acidosis/volume overload
atn/low
   perfusion/ med related
   apprec renal input
   - continue attemtps at diureses, as above
   - Renal c/s though , though do not feel cvvh is a  bridge to recovery
   - Minimize ggts /input as much as possible
   - Follow lytes, phos
   without osm gap
   # Leukocytosis
increased slightly, remains af
   Picc c/s, change neck line (6 days old)I for spikes or change in
   status,  as cvp helpful
   Recheck urine after foley change, treat yeast
   Cx for spikes
   # constipation/ileus
disimpacted + golyetly
 recheck KUB, hold TFs
   given residuals,
   #  Goals of care
   MOSF with poor prognosis--family discussions ongoing, social work
   involved, ethics following
   Continue to work with family/ to addresss goals of care in light of
   extremely poor prognosis for recovery.
   ICU Care
   Nutrition:
   Comments: Tfs--hold
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2115-4-28**] 09:51 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2115-05-06 07:54:00 Physician Resident Progress Note
Chief Complaint: 76F vent-dependent due to critical illness neuropathy
   since [**2115-2-16**] admission admitted from rehab s/p PEA arrest with
   course here complicated by nonconvulsive status epilepticus on
   valproate, pentobarb gtt, Keppra, dilantin, on 24-hour EEG, followed by
   Neuro, MOSF with hypotension, requiring pressors, recurrent VAP and
   ARF, now followed by Renal on Lasix gtt.  Patient also with PE on
   heparin gtt.  Family not satisfied with care here and is requesting
   transfer to [**Hospital1 1244**].
   24 Hour Events:
   Renal: add diuril to lasix gtt as she is only putting out minimally to
   a gtt at 25mg/hr; obtain a serum osmolality/daily lactates to help
   characterize her gap acidosis; give 1L of D5W with three amps of bicarb
   to help worsening acidosis; give albumin to optimize lasix delivery to
   the tubule
   - increased depakote
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2115-5-3**] 10:00 AM
   Cefipime - [**2115-5-5**] 10:00 AM
   Infusions:
   Furosemide (Lasix) - 32 mg/hour
   Pentobarbital - 1 mg/Kg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-6**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.7
C (96.3
   HR: 74 (73 - 76) bpm
   BP: 109/56(66) {109/47(65) - 133/96(102)} mmHg
   RR: 19 (0 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
    CVP: 22 (17 - 261)mmHg
   Total In:
                                                                  2,542 mL
                                                                    771 mL
   PO:
   TF:
   IVF:
                                                                  2,117 mL
                                                                    771 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                    231 mL
                                                                     85 mL
   Urine:
                                                                    231 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,311 mL
                                                                    686 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 96%
   ABG: ///14/
   Ve: 7.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   245 K/uL
   8.5 g/dL
   203 mg/dL
   2.5 mg/dL
   14 mEq/L
   4.2 mEq/L
   76 mg/dL
   98 mEq/L
   132 mEq/L
   27.6 %
   13.7 K/uL
        [image002.jpg]
                             [**2115-4-29**]  12:29 PM
                             [**2115-4-30**]  03:51 AM
                             [**2115-5-1**]  02:59 AM
                             [**2115-5-2**]  05:08 AM
                             [**2115-5-3**]  04:52 AM
                             [**2115-5-4**]  04:12 AM
                             [**2115-5-4**]  04:20 PM
                             [**2115-5-5**]  04:01 AM
                             [**2115-5-5**]  01:48 PM
                             [**2115-5-6**]  05:18 AM
   WBC
   13.9
   10.1
   9.8
   9.8
   11.1
   13.7
   14.2
   13.7
   Hct
   32.1
   30.4
   29.9
   29.4
   31.1
   31.5
   31.2
   27.6
   Plt
   261
   187
   204
   [**Telephone/Fax (3) 2803**]
   272
   245
   Cr
   1.7
   1.7
   1.7
   1.7
   2.0
   2.2
   2.4
   2.4
   2.5
   2.5
   Glucose
   122
   130
   113
   120
   109
   109
   119
   111
   131
   203
   Other labs: PT / PTT / INR:16.3/120.2/1.5, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:[**5-8**], Alk Phos / T Bili:159/0.2,
   Differential-Neuts:74.8 %, Band:0.0 %, Lymph:16.0 %, Mono:5.5 %,
   Eos:3.3 %, Lactic Acid:1.7 mmol/L, Albumin:2.7 g/dL, LDH:211 IU/L,
   Ca++:7.2 mg/dL, Mg++:2.2 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
   76F with chronic respiratory failure, non-convulsive status
   epilepticus, hypotensive, ARF, recurrent pseudomonal ventilator
   associated pneumonia
   .
   # Non-convulsive status epilepticus: Did not tolerate pento-barb wean,
   re-entering non-convulsive status.  Neurology and ICU team met with
   family regarding poor prognosis, they are requesting transfer to [**Hospital1 1244**]
   neurology ICU.
   - pentobarb, depakote,  continues on keppra and dilantin
   -F/u neuro recs, continuing EEG monitoring
   -Prognosis poor, however patient would like transfer to [**Hospital1 1244**] neuro ICU
   - f/u phenytoin and valproic acid levels daily with goal 20 and 80-100
   respectively
   .
   # Resp Failure: unclear etiology, Pna w. volume overload, presumed PE,
   neurological decompensation
   -continue current vent settings
   -monitor VBGs, increasing RR to correct metabolic acidosis.
   -diuresing with lasix gtt, diuril and albumin
   - treating empirically for PE given TTE results
   .
   # pseudomonal pna
   -cipro/cefepime, day [**8-28**] of second course.
   .
   # yeast UTI
   - consider diflucan for 5 day course, will discuss with ID
   .
    # Hypotension: CVPs normal, MAPS low, more consistent with
   cardiogenic, keep SBP>100 with levophed
   -TTE: With blown RV on TTE suggesting possible PE.  No e/o LV systolic
   dysfunciton to support cardiogenic shock and mixed venous O2 sat's >70%
   c/w sepsis.  Will continue with levophed at this time given its beta-1
   activity in addition to peripheral alpha. -> d/w cardiology regarding
   echo results and started on heparin gtt empirically
   -abx for PNA as above
   -Levophed to keep MAPs>60. sbp>100
   - Replete ionized calcium.
   .
   # ARF: with a gap acidosis likely from uremia.  Cr. Continues to rise,
   AG rises w/o correcting for albumin today with continued decrease in
   bicarb.  ATNi n the setting of low perfusion pressure to the kidneys.
   UOP minimal
   - Gap [**1-19**] uremia with possible component of mildly elevated lactate.
   - Acidosis stable by last VBG.
   - continue diuresis with lasix gtt, added [**Hospital1 **] diuril and albumin to
   maximize delivery to tubule
   - will need family discussion regarding CVVH
   .
   # GI: holding tube feedings, hold off go lytely today
   .
   # Goals of care: Family meeting today
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2115-4-28**] 09:51 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2115-05-06 09:53:00 Physician Attending Progress Note
Chief Complaint: status epilepticus
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 yo F w/chronic resp failure on vent, sz d/o, and recent progressive
   neurologic decline of unclear [**Name2 (NI) 2663**] admitted following tube feed
   aspiration and witnessed sz w/ altered mental status and hypoxemia.
   Course c/b
   -non-convulsive status epilepticus, MOSF with hypotension, requiring
   pressors, recurrent VAP and progressive ARF w/ anasarca.
   24 Hour Events:
   albumin, diuril added
   depakote does increased
   remains on bicarb gtt
   History obtained from ho
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2115-5-3**] 10:00 AM
   Cefipime - [**2115-5-6**] 08:00 AM
   Infusions:
   Furosemide (Lasix) - 32 mg/hour
   Pentobarbital - 1 mg/Kg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Heparin Sodium - 400 units/hour
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-6**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.3
C (95.5
   HR: 73 (73 - 76) bpm
   BP: 90/42(54) {90/42(54) - 133/96(102)} mmHg
   RR: 18 (0 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
   CVP: 15 (15 - 261)mmHg
   Total In:
                                                                  2,592 mL
                                                                  1,043 mL
   PO:
   TF:
   IVF:
                                                                  2,167 mL
                                                                  1,043 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                    231 mL
                                                                    100 mL
   Urine:
                                                                    231 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,361 mL
                                                                    943 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 95%
   ABG: ///14/
   Ve: 7 L/min
   Physical Examination
   General Appearance: No(t) Overweight / Obese, gross anasarca
   Eyes / Conjunctiva: L pupil rx
   Head, Ears, Nose, Throat: Normocephalic, bloody secretions mouth
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Distended, Obese
   Extremities: Right: 3+, Left: 3+, dep edema
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, No(t) Sedated, Tone: Decreased
   Labs / Radiology
   8.5 g/dL
   245 K/uL
   203 mg/dL
   2.5 mg/dL
   14 mEq/L (16)
   4.2 mEq/L
   76 mg/dL
   98 mEq/L
   132 mEq/L
   27.6 %
   13.7 K/uL
        [image002.jpg]
                             [**2115-4-29**]  12:29 PM
                             [**2115-4-30**]  03:51 AM
                             [**2115-5-1**]  02:59 AM
                             [**2115-5-2**]  05:08 AM
                             [**2115-5-3**]  04:52 AM
                             [**2115-5-4**]  04:12 AM
                             [**2115-5-4**]  04:20 PM
                             [**2115-5-5**]  04:01 AM
                             [**2115-5-5**]  01:48 PM
                             [**2115-5-6**]  05:18 AM
   WBC
   13.9
   10.1
   9.8
   9.8
   11.1
   13.7
   14.2
   13.7
   Hct
   32.1
   30.4
   29.9
   29.4
   31.1
   31.5
   31.2
   27.6
   Plt
   261
   187
   204
   [**Telephone/Fax (3) 2803**]
   272
   245
   Cr
   1.7
   1.7
   1.7
   1.7
   2.0
   2.2
   2.4
   2.4
   2.5
   2.5
   Glucose
   122
   130
   113
   120
   109
   109
   119
   111
   131
   203
   Other labs: PT / PTT / INR:16.3/120.2/1.5, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:[**5-8**], Alk Phos / T Bili:159/0.2,
   Differential-Neuts:74.8 %, Band:0.0 %, Lymph:16.0 %, Mono:5.5 %,
   Eos:3.3 %, Lactic Acid:1.7 mmol/L, Albumin:2.7 g/dL, LDH:211 IU/L,
   Ca++:7.2 mg/dL, Mg++:2.2 mg/dL, PO4:6.1 mg/dL
   Imaging: cxr--trach,  R IJ, layering effusions, small vol, unchanged
   KUB-- + stool, dilated central bowel loops, no obstruction
   Microbiology: rare GNR sputum [**5-4**]
   urine cx-- + yeast
   Assessment and Plan
   76 yo F w/chronic resp failure on vent (?NM--post polio syndrome, icu
   myopathy, chest wall restriction), sz d/o, and recent progressive
   neurologic decline of unclear [**Name2 (NI) 2663**] admitted following tube feed
   aspiration and witnessed sz w/ altered mental status and hypoxemia.
   Course c/b:
   -non-convulsive status epilepticus, MOSF with hypotension, requiring
   pressors, recurrent VAP and progressive ARF w/ anasarca, presumed PE,
   ileus
   Main issues remain:
   # Non-convulsive status epilepticus
   -  pentobarb coma
   -  on depakote
level not yet to goal (80-100) (follow plt/lfts), Keppra
   and Dilantin (follow level--at goal 20)
   -  plan for wean of pentobarb once depakote  to goal level
   -  Prognosis for CNS recover remains poor
   -  ongoing discussion w/ [**Hospital1 1244**] neuro ICU regarding transfer per family
   request though lim ited as to additonal suggestions
   # ARF/ gap metabolic acidosis/ volume overload
atn/low perfusion/ med
   related
   - poor response to attemps at diruesis, trial of bumex gtt
   - renal c/s appreciated
   - Follow lytes, phos
   - remains on bicarb gtt
   - considering CVVH for volume removal and clearance. Given extremely
   poor prognosis this does not appear as bridge to recovery. However,
   along w/ ongoing discussion with family and neuro team, reasonable to
   consider CVVH pending further neuro recs and transition off pentobarb,
   as now MS will be further complicated by uremia as well.
   # Presumed PE (echo)
   Heparin gtt
holding given bleeding at mouth, t and cross and follow h/h
   ## Resp Failure
   #pseudomonal pna
   # resp muscle weakness weakness of unclear [**Name2 (NI) **]
   - cipro/cefepime for pseudomal pneumonia day [**8-28**]
   - continue ACV , not wean candidate given gross vol u/l--> now with
   intermittent desats likely from gross vol o/l-- increase peep or fio2
   # Hypotension
   multifactorial  [**1-19**] AEDs and infection/shock, RV failure presumed PE
   - complete antibx course
   - hct 30, no indication for transfusion
   - diurese as above lasix gtt, diuril, albumin/consider CVVH
   # Leukocytosis
increased slightly, remains af
   change neck line for spikes or change in status,  as cvp helpful
   Cx for spikes
   # yeast urine--oliguric, fluconazole would interfer with anti
   epileptics, foley changed multiple times, appears colonized but with
   leuks in urine, id input, consider ampho bladder washes
   # constipation/ileus
 KUB shows stool, no evidence of obstruction on
   KUB, disimpacted holding TFs, excessive edema/bowel wall edema likely
   contributing to overall ileus
   QOD KUBs
   #  Goals of care
   MOSF with poor prognosis--family discussions ongoing, social work
   involved, ethics following
   Continue to work with family/ to addresses goals of care in light of
   extremely poor prognosis for recovery
   ICU Care
   Nutrition:
   Comments: holding TFs
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-4-28**] 09:51 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments: today, d/w ethics/SW
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2115-05-07 07:37:00 Physician Resident Progress Note
Chief Complaint: Pseudomonal Pneumonia
   24 Hour Events:
   - IR to place line for CVVH in AM.  Family agrees to be reachable in
   morning at home phone number.
   - Some bleeding from nose and from ET tube.  Restarted heparin gtt in
   PM given stable Hct. -> then re-bleeding around 12AM from around trach
   and mouth, secretions from ET tube not particularly bloody.  Held
   heparin gtt.  Checked labs at 2AM and repeat Hct stable.
   - Renal: Okay with CVVH.  Change to Bumex from lasix, change diuril
   dose.
   - ID: Do not treat urine as will complicate seizure disorder more than
   will benefit clinical course, recommend regular change of foley.
   - Neuro: Decrease pentobarb gtt q6 hr overnight.  Neuro -> ? Brain
   biopsy, recommended checking Anti-thyroid peroxidase, and
   anti-thyroglobulin antibody for e/o hashimoto's encephalopathy.
   - VBG stable.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-5-6**] 08:00 AM
   Infusions:
   Pentobarbital - 0.5 mg/Kg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2115-5-6**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-7**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.9
C (96.7
   HR: 71 (70 - 76) bpm
   BP: 111/52(57) {81/37(48) - 120/62(75)} mmHg
   RR: 17 (0 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
    CVP: 21 (14 - 32)mmHg
   Total In:
                                                                  2,236 mL
                                                                    303 mL
   PO:
   TF:
   IVF:
                                                                  1,726 mL
                                                                    303 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                    168 mL
                                                                     17 mL
   Urine:
                                                                    168 mL
                                                                     17 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,068 mL
                                                                    286 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 3
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: Vent Dependant
   PIP: 35 cmH2O
   Plateau: 32 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 98%
   ABG: ///13/
   Ve: 6.4 L/min
   Physical Examination
   General Appearance: Edematous
   Eyes / Conjunctiva: L-pupil reactive
   Head, Ears, Nose, Throat: Normocephalic, trach in place
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly, diminished at bases)
   Abdominal: Non-tender, Distended
   Extremities: Right: 3+, Left: 3+, 2+ pre-sacral edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   188 K/uL
   8.7 g/dL
   87 mg/dL
   2.5 mg/dL
   13 mEq/L
   4.4 mEq/L
   77 mg/dL
   101 mEq/L
   134 mEq/L
   28.1 %
   19.0 K/uL
        [image002.jpg]
                             [**2115-5-1**]  02:59 AM
                             [**2115-5-2**]  05:08 AM
                             [**2115-5-3**]  04:52 AM
                             [**2115-5-4**]  04:12 AM
                             [**2115-5-4**]  04:20 PM
                             [**2115-5-5**]  04:01 AM
                             [**2115-5-5**]  01:48 PM
                             [**2115-5-6**]  05:18 AM
                             [**2115-5-6**]  02:34 PM
                             [**2115-5-7**]  03:31 AM
   WBC
   10.1
   9.8
   9.8
   11.1
   13.7
   14.2
   13.7
   19.0
   Hct
   30.4
   29.9
   29.4
   31.1
   31.5
   31.2
   27.6
   27.0
   28.1
   Plt
   187
   204
   216
   221
   285
   272
   245
   188
   Cr
   1.7
   1.7
   2.0
   2.2
   2.4
   2.4
   2.5
   2.5
   2.5
   Glucose
   113
   120
   109
   109
   119
   111
   131
   203
   87
   Other labs: PT / PTT / INR:16.6/41.3/1.5, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:[**5-8**], Alk Phos / T Bili:159/0.2,
   Differential-Neuts:74.8 %, Band:0.0 %, Lymph:16.0 %, Mono:5.5 %,
   Eos:3.3 %, Lactic Acid:2.2 mmol/L, Albumin:2.9 g/dL, LDH:211 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.4 mg/dL, PO4:6.9 mg/dL
   Imaging: [**2115-5-7**]: No significant change
   [**2115-5-6**] CXR: As compared to the previous radiograph, there is no
   relevant change. The monitoring and support devices are unchanged. Also
   unchanged is the extent of the massive bilateral pleural effusions and
   the moderate signs of
   overhydration. There are no newly occurred focal parenchymal opacities
   suggestive of pneumonia.
   Microbiology: Sputum:
      GRAM STAIN (Final [**2115-5-4**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         1+    (<1 per 1000X FIELD):   BUDDING YEAST.
      RESPIRATORY CULTURE (Preliminary):
         OROPHARYNGEAL FLORA ABSENT.
         Due to mixed bacterial types ( >= 3 colony types) an abbreviated
         workup will be performed appropriate to the isolates recovered
   from
         this site.
         PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH.
         GRAM NEGATIVE ROD #2.    SPARSE GROWTH.
         YEAST.    MODERATE GROWTH.
   Assessment and Plan
   76F with chronic respiratory failure, non-convulsive status
   epilepticus, hypotensive, ARF, recurrent pseudomonal ventilator
   associated pneumonia
   .
   # Non-convulsive status epilepticus: Did not tolerate pento-barb wean,
   re-entering non-convulsive status.  Neurology and ICU team met with
   family regarding poor prognosis, they are requesting transfer to [**Hospital1 1244**]
   neurology ICU.  At this time, attempting to optimize control of
   seizures with additional agents.
   .
   - pentobarb wean -> will hold and d/w neurology regarding further
   decreases, depakote, keppra and dilantin - adjust PRN as per neurology
   - Neurology considering possible hashimotos encephalopathy or other
   more obscure causes at this time - could consider proceeding to brain
   biopsy.  Have checked Anti-TPO, Anti-thyroglobulin studies
   -F/u neuro recs, continuing EEG monitoring -> weaning pentobarb by 0.25
   q6H as tolerated.
   - f/u phenytoin and valproic acid levels daily with goal 20 and 80-100
   respectively
   - ?Transfer to [**Hospital1 1244**] at family's request - on waiting list for a bed.
   .
   # Resp Failure: Multifactorial, Pna w. volume overload, presumed PE,
   neurological decompensation
   -continue current vent settings
   -monitor VBGs
   -did not diurese with lasix gtt so transitioned to diuril/bumex.  Plan
   for CVVH today after line placement.
   - treating empirically for PE given TTE results -> hold heparin gtt
   this AM, but restart this PM
 d/w renal.
   .
   # pseudomonal pna : Sputum still growing sparse pseudomonas.  Likely
   has region of consolidation that is not clearing rather than
   reinfection. possibly colonization but difficult to tell given
   leukocytosis, and limited CXR.
   -cipro/cefepime, day [**9-27**] of second course
   -  Would resend sputum - ?treat until sputum clears vs. hold
   antibiotics.
   - ID consult today.
   .
   #Leukocytosis: New today to 19.  Has known Pseudomonal pneumonia but
   with continued growth on sputum.  Will ask lab to perform
   sensitivities, may need to resend sputum.  Urine with yeast which given
   multiple cultures may be a pathogen, but have d/w ID and at this time
   would not treat given potential interaction with anti-convulsant
   medications.  Will send Stool C. Diff, and repeat Blood cultures given
   line.  Change R-IJ for PICC line today in IR.
   - BCx, Sputum, Fungal studies.
   .
   # Yeast UTI: ID recommending not treating as will complicate
   neurological picture.
   - consider diflucan for 5 day course if decompensating clinically, but
   given probably interaction with seizure disorder would defer at this
   time.
   .
   # Hypotension: CVPs normal, MAP at goal, multifactorial
 [**1-19**] to meds,
   ?component of sepsis, and obstructive shock [**1-19**] PE.
   -TTE: With blown RV on TTE suggesting possible PE.  No e/o LV systolic
   dysfunciton to support cardiogenic shock and mixed venous O2 sat's >70%
   c/w sepsis.  Will continue with levophed at this time given its beta-1
   activity in addition to peripheral alpha. -> d/w cardiology regarding
   echo results and started on heparin gtt empirically
   -abx for PNA as above consider d/c today
   -Levophed to keep MAPs>60. sbp>100
   - Replete ionized calcium.
   - heparin gtt for PE.
   .
   # ARF: with a gap acidosis likely from uremia.  Cr. Continues to rise,
   AG rises w/o correcting for albumin today with continued decrease in
   bicarb.  ATNi n the setting of low perfusion pressure to the kidneys.
   UOP minimal on bumex and previously on lasix gtt.
   - Gap [**1-19**] uremia with possible component of mildly elevated lactate.
   - Acidosis stable by last VBG.
   - Changed from lasix to bumex yesterday for improved diuresis but w/ no
   improvement in UOP overnight.
   - Plan for initiation of CVVH today until neurological status clarified
   - f/u renal rec's - appreciate input.
   - Family okay with CVVH and agrees to be available this AM to consent
   for line in IR.
   - Desmopressin today pre-IR.  d/w renal regarding DDAVP/Heparin
   .
   #PE: Heparin gtt held this AM for IR guided line placement.  Patient
   with bleeding around trach site and in oropharynx on heparin gtt
   overnight.  Held gtt and repeat Hct stable.
   - If further bleeding would monitor airway secretions for bloody
   return, and Hct for changes and consider d/c of gtt if indicated.
   - [**Hospital1 **] Hct
s on heparin gtt, d/w renal regarding restarting heparin gtt
   with CVVH -> recommend lowering target range for anticoagulation.
   .
   # GI: holding tube feedings, hold off go lytely yesterday - still no
   BM.  [**Month (only) 60**] need disimpaction -> but will defer for now given r/o bowel
   perf.
   - Change all PO medications to IV.
   .
   # Goals of care: Family agrees with CVVH and agrees to be reachable by
   phone today for consent.  Ethics/Legal on board.  For now will continue
   with renal replacement until underlying neurological status is
   clarified.  Family meeting today if possible.
   #Access: D/c R-IJ after PICC placed in IR
   #Nutrition: Holding TPN given ? underlying fungemia.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-4-28**] 09:51 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin when not on heparin gtt
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-05-07 10:13:00 Physician Attending Progress Note
Chief Complaint: status epilepticus
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    76 yo F w/chronic resp failure on vent, sz d/o, and recent progressive
   neurologic decline of unclear [**Name2 (NI) 2663**] admitted following tube feed
   aspiration and witnessed sz w/ altered mental status and hypoxemia.
   Course c/b--
   non-convulsive status epilepticus, [**Name2 (NI) 2816**] with hypotension, requiring
   pressors, recurrent VAP, progressive ARF w/ anasarca, presumed PE
   24 Hour Events:
   yesterday with bleeding from ETT and nos
 hep held, h/h stable
   hep held for IR guided line placement--> for 1pm today
   lasix gtt
 bumex
   to start cvvh today
   neuro recs --> dilantin dose decreased
   checking antithyroglobulin ab to r/o hashimotos encephalopathy /
   vasculitis as contributng factor
   desats to low 90% range--> fio2 increased 60%, peep increased 15%
                                      History obtained from Medical records, ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-5-7**] 08:10 AM
   Infusions:
   Pentobarbital - 0.5 mg/Kg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2115-5-6**] 06:00 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-7**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.6
C (96
   HR: 72 (70 - 76) bpm
   BP: 120/54(57) {84/37(48) - 120/62(75)} mmHg
   RR: 17 (0 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
   CVP: 21 (14 - 32)mmHg
   Total In:
                                                                  2,236 mL
                                                                    602 mL
   PO:
   TF:
   IVF:
                                                                  1,726 mL
                                                                    452 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                    168 mL
                                                                     30 mL
   Urine:
                                                                    168 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,068 mL
                                                                    572 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): [**12-20**]
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: Vent Dependant
   PIP: 36 cmH2O
   Plateau: 32 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.20/37 (vbg)
   Ve: 7.3 L/min
   Physical Examination
   General Appearance: No(t) No acute distress, gross anasarca
   Eyes / Conjunctiva: L pupil rx, sluggish
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   distant
   Coarse BS, decreased at b/b anteriorly
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: b/b
   anteriorly)
   Abdominal: Soft, Bowel sounds hypoactivet, Distended abd, No(t) Obese,
   edematous
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement,
   Labs / Radiology
   8.7 g/dL
   188 K/uL
   87 mg/dL
   2.5 mg/dL
   13 mEq/L
   4.4 mEq/L
   77 mg/dL
   101 mEq/L
   134 mEq/L
   28.1 %
   19.0 K/uL
        [image002.jpg]
                             [**2115-5-1**]  02:59 AM
                             [**2115-5-2**]  05:08 AM
                             [**2115-5-3**]  04:52 AM
                             [**2115-5-4**]  04:12 AM
                             [**2115-5-4**]  04:20 PM
                             [**2115-5-5**]  04:01 AM
                             [**2115-5-5**]  01:48 PM
                             [**2115-5-6**]  05:18 AM
                             [**2115-5-6**]  02:34 PM
                             [**2115-5-7**]  03:31 AM
   WBC
   10.1
   9.8
   9.8
   11.1
   13.7
   14.2
   13.7
   19.0
   Hct
   30.4
   29.9
   29.4
   31.1
   31.5
   31.2
   27.6
   27.0
   28.1
   Plt
   187
   204
   216
   221
   285
   272
   245
   188
   Cr
   1.7
   1.7
   2.0
   2.2
   2.4
   2.4
   2.5
   2.5
   2.5
   Glucose
   113
   120
   109
   109
   119
   111
   131
   203
   87
   Other labs: PT / PTT / INR:16.6/41.3/1.5, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:[**5-8**], Alk Phos / T Bili:159/0.2,
   Differential-Neuts:74.8 %, Band:0.0 %, Lymph:16.0 %, Mono:5.5 %,
   Eos:3.3 %, Lactic Acid:2.2 mmol/L, Albumin:2.9 g/dL, LDH:211 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.4 mg/dL, PO4:6.9 mg/dL
   Imaging: cxr--without sig change, effusions
   Microbiology: sputum, pseudomonas [**5-4**]
   urine cx yeast
   Assessment and Plan
   76 yo F w/chronic resp failure on vent, known sz d/o, and recent
   progressive neurologic decline of unclear [**Name2 (NI) 2663**] admitted following
   tube feed aspiration and witnessed sz w/ altered mental status and
   hypoxemia.
        Course has been c/b:
   non-convulsive status epilepticus, hypotension, requiring pressors,
   recurrent VAP and progressive ARF w/ anasarca, presumed PE, ileus
        Continues to decline with [**Name2 (NI) 2816**], remais unresponsive in pentobarb
   coma to suppress sz activity
   Prognosis poor. Ongoing family discussions regarding goals of care.
   Active issues remain:
   # Non-convulsive status epilepticus
   -  burst suppressed in pentobarb coma --> holding on wean given that
   depakote not yet therapeutic
   -  depakote
level not yet to goal (80-100) (follow plt/lfts), Keppra
   and Dilantin (follow level--at goal 20, dose decreased yesterday)
   -  Prognosis for CNS recover extremely poor and continues to develop
   new problems, [**Name (NI) 2816**]
   -- checking thryoid abgiven remote risk of hashimotos
   encephalopthy/vascualits, ? need for brain bx
   -- switch PO meds to IV given unclear bowel absorption/ileus
   # ARF/ gap metabolic acidosis/ volume overload
atn/low perfusion/ med
   related
   - poor response to attempted diruesis
   - extreme volume o/l likely contributing to resp issues/desats, bowel
   issues/ileus
   - starting CVVH for volume removal and clearance after IR line
   placement
   - probable plt dysfunction
ddavp around line
   Given extremely poor prognosis CVVH does not appear as bridge to
   recovery.  However, along w/ ongoing discussion with family and neuro
   team, reasonable to consider CVVH pending further neuro recs and
   transition off pentobarb, as now MS will be further complicated by
   uremia as well.
   # Presumed PE
   Bleeding from mouth and nose
   Uremic plt dysfx probably further contributing
   Heparin gtt for line, but will resume with lower goal, keep t and cross
   and follow h/h
   ## Resp Failure
   # resp muscle weakness weakness
   # pseudomonal pna--continues to grow in sputum despite 2nd course
   antibx
 likely colonized vs new resistant strain
   -   f/u cx sensitivies
   -  cipro/cefepime for pseudomal pneumonia day [**9-27**] --will continue
   antibx  pending additional info/sensitivities, consider adding inhaled
   tobra
   -  ID c/s
   - continue ACV , not wean candidate given gross vol u/l
   # Hypotension
stable pressor  dose
   multifactorial  [**1-19**] AEDs and infection/shock, RV failure presumed PE
   - recx
   - starting CVVH
   # Leukocytosis
remains af, wbc now increased to 19
   Multiple infectious risks
   yeast in urine and sputum
   CVL X 1 wk
 d/c neck line and send tip
   surveillence blood and fungal cx's
   ophtho exam
   official id c/s
       # yeast urine/also now in sputum
   now oliguric, fluconazole would interfer with anti epileptics, foley
   changed multiple times, appears colonized but with leuks in urine,
   consider ampho bladder washes or systemic treatment
   # constipation/ileus/abd distention
 ? neurogenic
   KUB shows stool, no evidence of obstruction though limited film given
   supine positioning, disimpacted but bleeds
   excessive edema/bowel wall edema renal failure acidosis and electrolyte
   abnl likely contributing further
   limited ability to evaluate as ct abd will be of little help as will
   not tolerate oral contrast
   holding  oral meds--> change to IV
   QOD KUBs
   Repeat bladder pressures
   Holding TFS
   #  Goals of care --[**Month/Day (2) 2816**] with poor prognosis and progressive slow
   decline--family discussions ongoing, social work involved, ethics
   following.  Continue to work with family/ to addresses goals of care in
   light of extremely poor prognosis for recovery
   ICU Care
   Nutrition:
   Comments: npo--tfs held
   Glycemic Control:  Comments: not indicated
   Lines:
   Multi Lumen - [**2115-4-28**] 09:51 PM
   Comments: IR for line placement HD cath, PICC
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: Heparin gtt, on
   hold, boots and sq hep when off)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45  minutes
   Patient is critically ill

2115-05-08 07:39:00 Physician Resident Progress Note
Chief Complaint: NCSE
   24 Hour Events:
 SPUTUM CULTURE - At [**2115-5-7**] 08:15 AM
 BLOOD CULTURED - At [**2115-5-7**] 11:00 AM
 PICC LINE - START [**2115-5-7**] 03:00 PM
 DIALYSIS CATHETER - START [**2115-5-7**] 03:00 PM
 BLOOD CULTURED - At [**2115-5-7**] 04:00 PM
 MULTI LUMEN - STOP [**2115-5-7**] 08:28 PM
   Patient had heparin gtt stopped for IR guided line placements. Was not
   restarted yesterday due to increased bloody secretions from mouth and
   PEG tube.
   CVVH was started around 8PM and stopped at MIDNIGHT due to hypothermia
   and bradycardia. This was thought to be [**1-19**] to CVVH which was held,
   dopamine was added to increase HR, pt. was not hypotensive, bair hugger
   was placed with good effect. Lactate was increased to 4.4 and there was
   concern for bowel perf vs ischemic gut and abx were broadened to
   vanco/flagyl/[**Last Name (un) 430**]/cipro/caspo, bladder P 16. CVVH was restarted at
   430am and she is just now reaching net negative hourly rate. Discussion
   with sons, they still want full code but may be starting to think about
   changing code status. 2nd opinion from Dr. [**Last Name (STitle) 33**] to assess for
   futility of tx to be done today.
   Optho- no signs fungal infiltrates
   ID consult
   Pseudomonas is developing resistance with accumilated
   antimicrobial exposure, though it is not entirely clear that the
   persistent isolation of Pseudomonas might not represent
   colonization of her tracheostomy
   1. Please send blood cultures
   2. Please send differential
   3. Might consider sampling of pleural effusions to evaluate for
   parapneumonic effusion requiring drainage if invasive procedures
   are considered.
   4. Would consider BAL for isolated specimen.
   5. Would discontinue Cefepime, would start meropenem dosed for
   renal clearance on CVVH if that is to be initiated tonight,
   dosing would be 500 mg IV Q 12 hours.
   6. Would hold on antifungal therapy for now, should she develop
   candidemia would start antifungal therapy.
   7. Would find out if additional CSF is available for analysis for
   14-3-3 protien as marker of possible variant CJD.
   8. Might consider ENT evaluation given bleeding in oropharnx and
   from around tracheostomy as this might be an additional source
   driving infection.
   9. Would send C diff toxin assay if stools
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-5-7**] 08:10 AM
   Ciprofloxacin - [**2115-5-7**] 04:30 PM
   Meropenem - [**2115-5-7**] 09:51 PM
   Vancomycin - [**2115-5-7**] 11:49 PM
   Caspofungin - [**2115-5-8**] 12:10 AM
   Metronidazole - [**2115-5-8**] 01:14 AM
   Infusions:
   Dopamine - 3 mcg/Kg/min
   Norepinephrine - 0.06 mcg/Kg/min
   Pentobarbital - 0.5 mg/Kg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2115-5-8**] 04:00 AM
   Famotidine (Pepcid) - [**2115-5-8**] 06:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-8**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.8
C (96.4
   HR: 83 (54 - 83) bpm
   BP: 100/45(59) {92/44(58) - 149/67(85)} mmHg
   RR: 19 (0 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
    CVP: 18 (13 - 330)mmHg
   Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                  1,832 mL
                                                                    913 mL
   PO:
   TF:
   IVF:
                                                                  1,622 mL
                                                                    813 mL
   Blood products:
   Total out:
                                                                    356 mL
                                                                    144 mL
   Urine:
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,476 mL
                                                                    769 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Vent Dependant
   PIP: 32 cmH2O
   Plateau: 31 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 98%
   ABG: 7.12/42/99.[**Numeric Identifier 128**]/14/-15
   Ve: 8 L/min
   PaO2 / FiO2: 165
   Physical Examination
   Eyes / Conjunctiva: pupil sluggish but reactive
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Dullness : ), (Breath Sounds:
   Rhonchorous: bilaterally)
   Abdominal: Distended, BS absent
   Extremities: Right: 4+, Left: 4+, anasarca
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, pupil sluggish but reactive
   Labs / Radiology
   165 K/uL
   7.7 g/dL
   98 mg/dL
   2.5 mg/dL
   14 mEq/L
   4.1 mEq/L
   72 mg/dL
   97 mEq/L
   134 mEq/L
   25.4 %
   15.8 K/uL
        [image002.jpg]
                             [**2115-5-5**]  04:01 AM
                             [**2115-5-5**]  01:48 PM
                             [**2115-5-6**]  05:18 AM
                             [**2115-5-6**]  02:34 PM
                             [**2115-5-7**]  03:31 AM
                             [**2115-5-7**]  03:34 PM
                             [**2115-5-7**]  10:32 PM
                             [**2115-5-7**]  11:30 PM
                             [**2115-5-8**]  02:28 AM
                             [**2115-5-8**]  04:20 AM
   WBC
   13.7
   14.2
   13.7
   19.0
   17.6
   15.8
   Hct
   31.5
   31.2
   27.6
   27.0
   28.1
   27.3
   25.4
   Plt
   285
   272
   245
   188
   165
   Cr
   2.4
   2.5
   2.5
   2.5
   2.7
   2.3
   2.5
   TCO2
   13
   15
   Glucose
   111
   131
   203
   87
   95
   108
   98
   Other labs: PT / PTT / INR:19.3/94.9/1.8, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:[**5-8**], Alk Phos / T Bili:159/0.2,
   Differential-Neuts:95.0 %, Band:3.0 %, Lymph:1.0 %, Mono:1.0 %, Eos:0.0
   %, Lactic Acid:4.2 mmol/L, Albumin:2.9 g/dL, LDH:211 IU/L, Ca++:7.5
   mg/dL, Mg++:2.3 mg/dL, PO4:7.0 mg/dL
   [**5-7**]
GRAM STAIN (Final [**2115-5-7**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         1+    (<1 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
   [**5-4**]- [**Last Name (un) **] cefepime and cipro
RESPIRATORY CULTURE (Final [**2115-5-7**]):
      OROPHARYNGEAL FLORA ABSENT.
      Due to mixed bacterial types ( >= 3 colony types) an abbreviated
      workup will be performed appropriate to the isolates recovered from
      this site.
      PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH.
      GRAM NEGATIVE ROD #2.    SPARSE GROWTH.
      YEAST.    MODERATE GROWTH.
   Assessment and Plan
   76F with chronic respiratory failure, non-convulsive status
   epilepticus, hypotensive, ARF, recurrent pseudomonal ventilator
   associated pneumonia
   .
   # Non-convulsive status epilepticus: Did not tolerate pento-barb wean,
   re-entering non-convulsive status.  Neurology and ICU team met with
   family regarding poor prognosis, they are requesting transfer to [**Hospital1 1244**]
   neurology ICU.  At this time, attempting to optimize control of
   seizures with additional agents.
   .
   - pentobarb wean -> will hold and d/w neurology regarding further
   decreases, depakote, keppra and dilantin - adjust PRN as per neurology
   - Neurology considering possible hashimotos encephalopathy or other
   more obscure causes at this time - could consider proceeding to brain
   biopsy.  Have checked Anti-TPO, Anti-thyroglobulin studies
   -F/u neuro recs, continuing EEG monitoring -> weaning pentobarb by 0.25
   q6H as tolerated.
   - f/u phenytoin and valproic acid levels daily with goal 20 and 80-100
   respectively
   - ?Transfer to [**Hospital1 1244**] at family's request - on waiting list for a bed.
   .
   # Resp Failure: Multifactorial, Pna w. volume overload, presumed PE,
   neurological decompensation
   -continue current vent settings
   -monitor VBGs
   -did not diurese with lasix gtt so transitioned to diuril/bumex.  Plan
   for CVVH today after line placement.
   - treating empirically for PE given TTE results -> hold heparin gtt
   this AM, but restart this PM
 d/w renal.
   .
   # Pseudomonal pna : Sputum still growing sparse pseudomonas.  Likely
   has region of consolidation that is not clearing rather than
   reinfection. possibly colonization but difficult to tell given
   leukocytosis, and limited CXR.
   -cipro/cefepime, day [**9-27**] of second course
   -  Would resend sputum - ?treat until sputum clears vs. hold
   antibiotics.
   - ID consult today.
   .
   #Leukocytosis: New today to 19.  Has known Pseudomonal pneumonia but
   with continued growth on sputum.  Will ask lab to perform
   sensitivities, may need to resend sputum.  Urine with yeast which given
   multiple cultures may be a pathogen, but have d/w ID and at this time
   would not treat given potential interaction with anti-convulsant
   medications.  Will send Stool C. Diff, and repeat Blood cultures given
   line.  Change R-IJ for PICC line today in IR.
   - BCx, Sputum, Fungal studies.
   .
   # Yeast UTI: ID recommending not treating as will complicate
   neurological picture.
   - consider diflucan for 5 day course if decompensating clinically, but
   given probably interaction with seizure disorder would defer at this
   time.
   .
   # Hypotension: CVPs normal, MAP at goal, multifactorial
 [**1-19**] to meds,
   ?component of sepsis, and obstructive shock [**1-19**] PE.
   -TTE: With blown RV on TTE suggesting possible PE.  No e/o LV systolic
   dysfunciton to support cardiogenic shock and mixed venous O2 sat's >70%
   c/w sepsis.  Will continue with levophed at this time given its beta-1
   activity in addition to peripheral alpha. -> d/w cardiology regarding
   echo results and started on heparin gtt empirically
   -abx for PNA as above consider d/c today
   -Levophed to keep MAPs>60. sbp>100
   - Replete ionized calcium.
   - heparin gtt on hold for PE
   .
   # ARF: with a gap acidosis likely from uremia.  Cr. Continues to rise,
   AG rises w/o correcting for albumin today with continued decrease in
   bicarb.  ATNi n the setting of low perfusion pressure to the kidneys.
   UOP minimal on bumex and previously on lasix gtt.
   - Gap [**1-19**] uremia with possible component of mildly elevated lactate.
   - Acidosis stable by last VBG.
   - Changed from lasix to bumex yesterday for improved diuresis but w/ no
   improvement in UOP overnight.
   - Plan for initiation of CVVH today until neurological status clarified
   - f/u renal rec's - appreciate input.
   - Family okay with CVVH and agrees to be available this AM to consent
   for line in IR.
   - Desmopressin today pre-IR.  d/w renal regarding DDAVP/Heparin
   .
   #PE: Heparin gtt held this AM for IR guided line placement.  Patient
   with bleeding around trach site and in oropharynx on heparin gtt
   overnight.  Held gtt and repeat Hct stable.
   - If further bleeding would monitor airway secretions for bloody
   return, and Hct for changes and consider d/c of gtt if indicated.
   - [**Hospital1 **] Hct
s on heparin gtt, d/w renal regarding restarting heparin gtt
   with CVVH -> recommend lowering target range for anticoagulation.
   .
   # GI: holding tube feedings, hold off go lytely yesterday - still no
   BM.  [**Month (only) 60**] need disimpaction -> but will defer for now given r/o bowel
   perf.
   - Changed all PO medications to IV.
   .
   # Goals of care: Family agrees with CVVH and agrees to be reachable by
   phone today for consent.  Ethics/Legal on board.  For now will continue
   with renal replacement until underlying neurological status is
   clarified.  Family meeting today if possible.
   #Access: D/c R-IJ after PICC placed in IR
   #Nutrition: Holding TPN given ? underlying fungemia
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2115-5-7**] 03:00 PM
   Dialysis Catheter - [**2115-5-7**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-05-08 11:54:00 Physician Attending Progress Note
Chief Complaint: status epileptics
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 76 yo F w/chronic resp failure on vent, sz d/o, and recent
   progressive neurologic decline of unclear [**Name2 (NI) 2663**] admitted following
   tube feed aspiration and witnessed sz w/ altered mental status and
   hypoxemia.
   Course c/b--
   non-convulsive status epilepticus, MOSF with hypotension, requiring
   pressors, recurrent VAP, progressive ARF w/ anasarca, presumed PE,
   sepsis
   24 Hour Events:
 SPUTUM CULTURE - At [**2115-5-7**] 08:15 AM
 BLOOD CULTURED - At [**2115-5-7**] 11:00 AM
 PICC LINE - START [**2115-5-7**] 03:00 PM
 DIALYSIS CATHETER - START [**2115-5-7**] 03:00 PM
   placed in IR
 BLOOD CULTURED - At [**2115-5-7**] 04:00 PM
 MULTI LUMEN - STOP [**2115-5-7**] 08:28 PM
   heparin held [**1-19**]  bleeding at  trach site, mouth, lines
   bladder pr 16
   ophtho--no evid fungus  on eye exam
   Overnight hypothermic to  91 degrees (prior to initiation of CVVH),
   7.08 ph on vbg, bradycardic to mid 40s, dopamine added
:(heart rate
   70-80s)
   cvvh initiated
   abg --> 7.17/44/120, lactate 4.4 (had been 1.6)
   given concern for sepsis
 antibx coverage broadened further --> caspo,
   flagyl, vanco added, cipro continued, [**Last Name (un) 430**] added yesterday
   family updated of declining condition
   History obtained from Medical records, ho
   Patient unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-5-7**] 08:10 AM
   Ciprofloxacin - [**2115-5-7**] 04:30 PM
   Vancomycin - [**2115-5-7**] 11:49 PM
   Caspofungin - [**2115-5-8**] 12:10 AM
   Metronidazole - [**2115-5-8**] 09:30 AM
   Meropenem - [**2115-5-8**] 10:45 AM
   Infusions:
   Dopamine - 3 mcg/Kg/min
   Norepinephrine - 0.06 mcg/Kg/min
   Pentobarbital - 0.5 mg/Kg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2115-5-8**] 04:00 AM
   Famotidine (Pepcid) - [**2115-5-8**] 06:53 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-8**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.4
   HR: 85 (54 - 85) bpm
   BP: 102/49(62) {92/44(58) - 149/63(85)} mmHg
   RR: 0 (0 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
   CVP: 22 (13 - 22)mmHg
   Bladder pressure: 13 (13 - 16) mmHg
   Total In:
                                                                  1,832 mL
                                                                  1,685 mL
   PO:
   TF:
   IVF:
                                                                  1,622 mL
                                                                  1,585 mL
   Blood products:
   Total out:
                                                                    356 mL
                                                                  1,157 mL
   Urine:
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,476 mL
                                                                    528 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 4
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Vent Dependant
   PIP: 32 cmH2O
   Plateau: 31 cmH2O
   SpO2: 98%
   ABG: 7.12/42/99.[**Numeric Identifier 128**]/14/-15
   Ve: 8.7 L/min
   PaO2 / FiO2: 165
   Physical Examination
   General Appearance: No(t) No acute distress, Overweight / Obese, gross
   anasarca
   Eyes / Conjunctiva: PERRL, L pupil sluggish, rx
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: , Rhonchorous: )
   Abdominal: No(t) Bowel sounds present, Distended, Obese
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Cool
   Neurologic: Responds to: Unresponsive, Movement:no movement, No(t)
   Sedated, No(t) Paralyzed,
   Labs / Radiology
   7.7 g/dL
   174 K/uL
   92 mg/dL
   2.5 mg/dL
   14 mEq/L
   4.1 mEq/L
   60 mg/dL
   97 mEq/L
   134 mEq/L
   25.4 %
   15.8 K/uL
        [image002.jpg]
                             [**2115-5-5**]  01:48 PM
                             [**2115-5-6**]  05:18 AM
                             [**2115-5-6**]  02:34 PM
                             [**2115-5-7**]  03:31 AM
                             [**2115-5-7**]  03:34 PM
                             [**2115-5-7**]  10:32 PM
                             [**2115-5-7**]  11:30 PM
                             [**2115-5-8**]  02:28 AM
                             [**2115-5-8**]  04:20 AM
                             [**2115-5-8**]  09:48 AM
   WBC
   14.2
   13.7
   19.0
   17.6
   15.8
   Hct
   31.2
   27.6
   27.0
   28.1
   27.3
   25.4
   Plt
   272
   245
   188
   165
   174
   Cr
   2.5
   2.5
   2.5
   2.7
   2.3
   2.5
   TCO2
   13
   15
   Glucose
   131
   203
   87
   95
   108
   98
   92
   Other labs: PT / PTT / INR:17.5/41.9/1.6, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:[**5-3**], Alk Phos / T Bili:117/0.3,
   Amylase / Lipase:146/161, Differential-Neuts:95.0 %, Band:3.0 %,
   Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:4.0 mmol/L (4.4-->4.2),
   Albumin:2.6 g/dL, LDH:207 IU/L, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:7.0
   mg/dL
   Imaging: cxr--smaller volumes, b/l effusions
   Microbiology: sputum [**5-4**]--> pseudomonas, [**Last Name (un) **] cefepime/cipro
   gnr still awaiting id
   1+ budding yeast
   bl, fungal cx 520--> pending, ngtd
   Assessment and Plan
   76 yo F w/chronic resp failure on vent, known sz d/o, and recent
   progressive neurologic decline of unclear [**Name2 (NI) 2663**] admitted following
   tube feed aspiration and witnessed sz w/ altered mental status and
   hypoxemia.
   Course has been c/b:
   non-convulsive status epilepticus, hypotension, requiring pressors,
   recurrent VAP and progressive ARF w/ anasarca, presumed PE, ileus
   Condition continues to decline with progressive  MOSF.
   Patient  remains unresponsive in pentobarb coma to suppress sz
   activity, now with evidence of  worsening sepsis overnight with
   bradycardia and hypothermia.  Antibx coverage broadened emoirically for
   multiple potential infectious concerns including antifungal coverage
    Active issues remain:
   # sepsis--hypothermia prior to cvvh, bradycardia, leukocytosis
   Multiple potential sources
non-diarrheal c diff, abd distention,
   possible perforation, fungal infection, line infection (changed
   yesterday), skin, effusions/empyema
   To date sputum growing PSA and yeast in urine and sputum
   - continue broad empiric coverage with caspo, flagyl, vanco
   -  Continue antipseudomonal treatment with cipro [**Last Name (un) 430**]
   --  Limited ability to eval for bowel perf, ishchemia
will start with
   lateral decub to r/o free air
   --   holding on tap effusionsgiven high peep requirements and risks
   # Non-convulsive status epilepticus
   -- remains burst suppressed in pentobarb coma --> on depakote
level not
   yet to goal (80-100) (follow plt/lfts), Keppra and Dilantin (follow
   level--at goal 20)
   -- antithyroglobulin antibodies, neuro recommending steroids for ?
   hashimotos encephalopthy/vasculits
   -- Plan to initiate steroids pending family update, regarding
   infectious risks of this medication.
   # ARF / gap metabolic acidosis/ volume overload
atn/low perfusion/ med
   related
   - extreme volume o/l contributing to resp issues/desats, bowel
   issues/ileus
   -- CVVH started yesterday
   --Given extremely poor prognosis CVVH does not appear as bridge to
   recovery.  However, along w/ ongoing discussion with family and neuro
   team, reasonable to consider CVVH pending further neuro recs and
   transition off pentobarb, as now MS will be further complicated by
   uremia as well.
   CVVH dosing of all meds
   # Presumed PE
   Bleeding from mouth, nose, lines
   Uremic plt dysfx probably further contributing
   Holding heparin gtt
   ## Resp Failure
   # resp muscle weakness weakness
   # pseudomonal pna
as above
   -  ID c/s appreciated
   - continue ACV , not wean candidate given gross vol u/l
   # Hypotension
now on double pressors, dopa added in setting of
   decompensation overnight with bradycardia
   multifactorial [**1-19**] AEDs and new suspected  infection/shock, RV failure
   presumed PE
   # Leukocytosis
   Multiple infectious risks as above
   f/u cx
s, empoiric antibx./antifungal rx
   # constipation/ileus/abd distention
 ? neurogenic, risk of perf
   excessive edema/bowel wall edema renal failure acidosis and electrolyte
   abnl likely contributing further
   limited ability to evaluate as ct abd will be of little help as will
   not tolerate oral contrast
   oral meds--> changed to IV
   Repeat bladder pressures remain stable 15 -16
   Holding TFS
   Lat decub to r/o free air
   #  Goals of care --MOSF with poor prognosis and progressive slow
   decline--family discussions ongoing, social work involved, ethics
   following.  Continue to work with family/ to addresses goals of care in
   light of extremely poor prognosis for recovery
   ICU Care
   Nutrition:
   Comments: npo, tfs held
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2115-5-7**] 03:00 PM
   Dialysis Catheter - [**2115-5-7**] 03:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:  H2B
   VAP:   HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
 feel that cpr would be ineffective given
   progressive MOSF
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill
   MICU attending family meeting:
   I spoke with pt
s son [**Name (NI) 2429**] and updated him regarding his mother
   current status.  She continues to decline, with suspected recurrent
   sepsis overnight with hypothermia, prior to CVVH, and bradycardia.
   Broadened antibacterial and antifungal coverage was added and dopamine
   added to levophed for bradycardia.   Now on CVVH.  Neuro team
   recommending steroids for? Hashimotos encephalopathy given elevated
   antithyroglobulin ab.  Steroids may benefit neuron status, though the
   risks of worsening infection were discussed.  Will initiate steroids,
   understanding that infectious risks in this critically ill pt are real
   and that she might die from overwhelming infection. We are continuing
   aggressive empiric antbx coverage at this time.
   Discussed as well that given her progressive decline, with MOSF, it is
   my medical opinion and that of the other team members that CPR in the
   setting of cardiac arrest would be ineffective and potentially harmful
   to this pt.  [**Doctor Last Name 2429**] expressed complete understanding of these updates.
   He will relay the information to his brother [**Name (NI) 435**], who continues to
   avoid/not participate in family meetings.
   I spoke with [**Hospital1 1244**] neuron [**First Name9 (NamePattern2) 2843**] [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 2844**] regarding family
   request for transfer.  The pt at this time is too unstable, but [**Hospital1 1244**]
   does not feel that they would be able to offer any additional care
   beyond what is being offered at [**Hospital1 54**].  They have the utmost confidence
   in the neuron and ICU care at [**Hospital1 54**].
   I spent an additional 35 minutes of critical care time in family
   meeting and phone discussions with OSH

2115-05-09 07:56:00 Physician Resident Progress Note
Chief Complaint: Multisystem Organ Failure
   24 Hour Events:
   - amp bicarb every 2 hrs if needed, did not require overnight
   - severe lactic acidosis of 8.8 and worsening acidosis despite max hco3
   gtt which improved on repeat gases throughout night, down to 4.4.
   - too risky too do Thoracentesis
   - gave 50mg IV solumedrol for hashimoto's encephalopathy -> no
   appreciable change in mental status.
   - meeting with [**Doctor Last Name **], he understands gravity of situation and accepts
   his mother will likely die, he will not tell [**Doctor Last Name **] this info given he
   does not think his brother could handle this situation
   - futility of CPR documented per Attending and dnr ordered placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-5-7**] 08:10 AM
   Vancomycin - [**2115-5-7**] 11:49 PM
   Ciprofloxacin - [**2115-5-8**] 03:30 PM
   Meropenem - [**2115-5-8**] 10:00 PM
   Metronidazole - [**2115-5-8**] 11:42 PM
   Caspofungin - [**2115-5-9**] 01:00 AM
   Infusions:
   Pentobarbital - 0.5 mg/Kg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Dopamine - 4 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-9**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (97
   HR: 86 (64 - 88) bpm
   BP: 121/51(69) {66/34(44) - 146/64(82)} mmHg
   RR: 18 (0 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
    CVP: 12 (12 - 30)mmHg
   Bladder pressure: 13 (13 - 13) mmHg
   Total In:
                                                                  4,127 mL
                                                                  1,478 mL
   PO:
   TF:
   IVF:
                                                                  4,027 mL
                                                                  1,478 mL
   Blood products:
   Total out:
                                                                  2,824 mL
                                                                  1,740 mL
   Urine:
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,303 mL
                                                                   -262 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   PIP: 31 cmH2O
   Plateau: 27 cmH2O
   SpO2: 100%
   ABG: 7.20/43/42/15/-10
   Ve: 9.1 L/min
   PaO2 / FiO2: 70
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: L-pupil reactive
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ), coarse mechanical
   breath sounds anteriorly
   Abdominal: Non-tender, No(t) Bowel sounds present, Distended,
   distended, more soft when compared to previous day
   Extremities: Right: 2+, Left: 2+, anisarca
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   121 K/uL
   7.1 g/dL
   83 mg/dL
   1.5 mg/dL
   15 mEq/L
   3.8 mEq/L
   39 mg/dL
   98 mEq/L
   134 mEq/L
   22.9 %
   22.4 K/uL
        [image002.jpg]
                             [**2115-5-7**]  03:34 PM
                             [**2115-5-7**]  10:32 PM
                             [**2115-5-7**]  11:30 PM
                             [**2115-5-8**]  02:28 AM
                             [**2115-5-8**]  04:20 AM
                             [**2115-5-8**]  09:48 AM
                             [**2115-5-8**]  04:35 PM
                             [**2115-5-8**]  07:56 PM
                             [**2115-5-9**]  03:40 AM
                             [**2115-5-9**]  03:52 AM
   WBC
   17.6
   15.8
   22.4
   Hct
   27.3
   25.4
   22.9
   Plt
   165
   174
   121
   Cr
   2.7
   2.3
   2.5
   2.1
   1.9
   1.5
   TCO2
   13
   15
   18
   Glucose
   95
   108
   98
   92
   101
   61
   83
   Other labs: PT / PTT / INR:23.2/51.0/2.2, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:[**8-15**], Alk Phos / T Bili:171/0.5,
   Amylase / Lipase:146/161, Differential-Neuts:95.0 %, Band:3.0 %,
   Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:4.4 mmol/L, Albumin:2.3
   g/dL, LDH:214 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Fluid analysis / Other labs: VBG:
   4AM: 7.20/43/42, lactate 4.4
   11:30PM: 7.18/38/39
   5pm: 7.11/41/37, lactate 7.9
   --------
   TSH 3.4
   -------
   Phenytoin: 12.9
   Valproate: 9
   Imaging: KUB Lateral: FINDINGS: Single lateral left decubitus view was
   presented for review. There is no evidence of free intraperitoneal air,
   pneumatosis or portal venous gas.  Several air-fluid levels are seen
   and mildly distended loops of large and small bowel.
   IMPRESSION: No evidence of free intraperitoneal air.
   -----------
   CXR: IMPRESSION: Unchanged bilateral pleural effusions and basilar
   atelectasis.  Mild pulmonary edema more confluent in the LUL, may
   represent worsening edema
   or developing pneumonia.
   Microbiology: Micro: No new growth
   Assessment and Plan
   76F with chronic respiratory failure, non-convulsive status
   epilepticus, hypotensive, anasrcic ARF, recurrent pseudomonal
   ventilator associated pneumonia, presumed PE per TTE
   .
   # Sepsis--hypothermia prior to cvvh, bradycardia, leukocytosis
   Sources
pseudomonal pna, parapneumonic effusions, gi perforation,
   fungemia
   To date sputum growing PSA and yeast in urine and sputum
   - continue broad empiric coverage with caspo, flagyl, vanco, cipro,
   [**Last Name (un) **]
   -  Limited ability to eval for bowel perf, lateral decub negative for
   free air but with air/fluid levels.
   -  holding on tap effusions given high peep requirements and risk
   - continue with dopamine and norepi
   - daily blood cx
   - lft
s and amylase/lipase wnl
   - check lactates TID
   .
   # Non-convulsive status epilepticus
   - Given 1x dose of steroids yesterday for possible CNS vasculitis
   hashimotos.  Tolerated well but with no appreciable change in mental
   status.  Repeat dose today.
   - remains burst suppressed in pentobarb coma --> on depakote
level not
   yet to goal (80-100) (follow plt/lfts), Keppra and Dilantin (follow
   level--at goal 20)
   - antithyroglobulin antibodies 5x uln pointing to hashimotos
   encephalopthy/vasculits
   - increased EEG activity yesterday felt to be artifact per neuro ->
   wean gtt overnight.
   .
   # ARF / gap metabolic acidosis/ volume overload
atn/low perfusion/ med
   related
   - extreme volume o/l contributing to resp issues/desats, bowel
   issues/ileus
   - CVVH started Tuesday,acidosis improving slowly - lactate elevated to
   8 overnight, but now normalizing.
   -poor prognosis CVVH does not appear as bridge to recovery.
   -CVVH dosing of all meds
   - goal to remove as much fluid as possible, delicate balance b/w
   pressor requirements and fluid removal - MAP's not tolerating fluid
   removal yesteday.
   - q6h labs during cvvh
   .
   # Presumed PE:
   -          holding heparing gtt given recurrent bleeding
   -          sq heparin
   -          element uremic plt contributing, consider ddavp if profuse
   bleeding
   .
   #Coagulopathy: Likely [**1-19**] to holding TF's, antibiotics.
   - Check DIC labs.
   - Consider FFP/Vitamin K if continues to worsen.
   .
   # Resp Failure: Multifactorial [**1-19**] volume overload, PE, PNA
   -          volume removal with CVVH -> not tolerating, but will do best
   possible to minimize volume overload.
   -          tx pna
   -          inc. fi02 and peep as needed
   - holding heparin gtt given bleeding.
   .
   # Constipation
 neurogenic, ileus/obstruction -> no free air on lateral
   decub.
   - edema/bowel wall edema contributing substantially
   - limited ability to evaluate as ct abd will be of little help as will
   not tolerate oral contrast
   - oral meds switched to IV
   - Repeat bladder pressures today
   - Holding tube feeds
   .
   #  Goals of care - poor prognosis and progressive slow decline--family
   discussions ongoing, social work involved, ethics following.  Continue
   to work with family/ to addresses goals of care in light of extremely
   poor prognosis for recovery
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2115-5-7**] 03:00 PM
   Dialysis Catheter - [**2115-5-7**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-05-09 11:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    76 yo F w/chronic resp failure on vent, sz d/o, and recent progressive
   neurologic decline of unclear [**Name2 (NI) 2663**] admitted following tube feed
   aspiration and witnessed sz w/ altered mental status and hypoxemia.
   [**Hospital 2205**] hospital course c/b--
   non-convulsive status epilepticus, MOSF with hypotension, requiring
   pressors, recurrent VAP, progressive ARF w/ anasarca now on cvvh,
   presumed PE, sepsis
   24 Hour Events:
   empiric steroids started for possible hashimotos enceph
   cvvh
   increasing lactates, acidosis overnight, some improvement this am-->
   8.8 now 4.4
   family mtg with updates to condition
   History obtained from ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-5-7**] 08:10 AM
   Vancomycin - [**2115-5-7**] 11:49 PM
   Ciprofloxacin - [**2115-5-8**] 03:30 PM
   Metronidazole - [**2115-5-8**] 11:42 PM
   Caspofungin - [**2115-5-9**] 01:00 AM
   Meropenem - [**2115-5-9**] 08:00 AM
   Infusions:
   Pentobarbital - 0.5 mg/Kg/hour
   Dopamine - 3 mcg/Kg/min
   Norepinephrine - 0.15 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-9**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36
C (96.8
   HR: 86 (64 - 88) bpm
   BP: 142/53(75) {66/34(44) - 146/64(82)} mmHg
   RR: 18 (0 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
   CVP: 12 (12 - 30)mmHg
   Total In:
                                                                  3,885 mL
                                                                  2,218 mL
   PO:
   TF:
   IVF:
                                                                  3,785 mL
                                                                  2,118 mL
   Blood products:
   Total out:
                                                                  2,824 mL
                                                                  2,434 mL
   Urine:
                                                                    331 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,061 mL
                                                                   -216 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 3
   PEEP: 15 cmH2O
   FiO2: 60%
   PIP: 32 cmH2O
   Plateau: 30 cmH2O
   SpO2: 100%
   ABG: 7.20/43/42/15/-10--> 7.26
   Ve: 7.4 L/min
   PaO2 / FiO2: 70
   Physical Examination
   General Appearance: groass anasarca
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: , Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Distended, slightly less distended,
   hypoactive bs
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.1 g/dL
   121 K/uL
   83 mg/dL
   1.5 mg/dL
   15 mEq/L
   3.8 mEq/L
   39 mg/dL
   98 mEq/L
   134 mEq/L
   22.9 %
   22.4 K/uL
        [image002.jpg]
                             [**2115-5-7**]  03:34 PM
                             [**2115-5-7**]  10:32 PM
                             [**2115-5-7**]  11:30 PM
                             [**2115-5-8**]  02:28 AM
                             [**2115-5-8**]  04:20 AM
                             [**2115-5-8**]  09:48 AM
                             [**2115-5-8**]  04:35 PM
                             [**2115-5-8**]  07:56 PM
                             [**2115-5-9**]  03:40 AM
                             [**2115-5-9**]  03:52 AM
   WBC
   17.6
   15.8
   22.4
   Hct
   27.3
   25.4
   22.9
   Plt
   165
   174
   121
   Cr
   2.7
   2.3
   2.5
   2.1
   1.9
   1.5
   TCO2
   13
   15
   18
   Glucose
   95
   108
   98
   92
   101
   61
   83
   Other labs: PT / PTT / INR:23.2/51.0/2.2, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:[**8-15**], Alk Phos / T Bili:171/0.5,
   Amylase / Lipase:146/161, Differential-Neuts:95.0 %, Band:3.0 %,
   Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:232 mg/dL, Lactic
   Acid:4.4 mmol/L, Albumin:2.3 g/dL, LDH:214 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Fluid analysis / Other labs: tsh nl 3.4
   Imaging: cxr-- changed in positioning, lung volumes with better
   expension, trach ok, lines ok
   Microbiology: no new growth
   Assessment and Plan
   76 yo F w/chronic resp failure on vent, known sz d/o, and recent
   progressive neurologic decline of unclear [**Name2 (NI) 2663**] admitted following
   tube feed aspiration and witnessed sz w/ altered mental status and
   hypoxemia.
   [**Hospital 2205**] hospital course c/b
   non-convulsive status epilepticus, hypotension, requiring pressors,
   recurrent VAP and progressive ARF w/ anasarca, now on cvvh, presumed
   PE, ileus recurrent sepsis
   Condition continues to decline with progressive MOSF
   Patient  remains unresponsive in pentobarb coma to suppress sz activity
   Acitve issues remain:
   # sepsis
   Multiple potential sources
 non-diarrheal c diff, abd distention,
   possible perforation, fungal infection, line infection, skin,
   effusions/empyema
   To date cxs growing only PSA (sp) and yeast in urine and sp
   Now on steroids for CNS
   -  continue broad empiric coverage with caspo, flagyl, vanco
   -  Continue antii PSA coverage w/ cipro [**Last Name (un) 430**]
   -- holding on tap effusions given high peep requirements and risks of
   pnx
   # Non-convulsive status
   -- burst suppressed in pentobarb coma -->also  on depakote, Keppra and
   Dilantin (follow level--at goal 20)
   - Dose adjustments per neuron in setting of cvvh
   - [**Hospital1 **] solumedrol (equivalent of pred 50) given ? ? hashimotos
   encephalopthy/vasculits -family understands potential infectious risks
    # ARF / gap metabolic acidosis/ volume overload
   - extreme volume o/l contributing to resp issues/desats, bowel
   issues/ileus
   - remains on cvvh
 attempt volume removal as bp tolerates
   - CVVH dosing of all meds
   # Presumed PE
   Bleeding from mouth, nose, lines
   Uremic plt dysfx probably further contributing
   Holding heparin gtt
   ## Resp Failure
   # resp muscle weakness weakness
   # pseudomonal pna
antibx as above
   - continue ACV , not wean candidate given gross vol u/l
   # Hypotension
now on double pressors, dopa added in setting of
   decompensation w/ bradycardia
   multifactorial [**1-19**] AEDs, RV failure presumed PE, sepsis
   # coagulopatahy, bleeding, hct drop
   Transfuse for hct < 21
   Type and cross
   Vit K (likely meds and poor nutrition)
   # Leukocytosis
   Multiple infectious risks as above + steroids
   f/u cx
s, empiric antibx./antifungal rx
   # constipation/ileus/abd distention
 ? neurogenic, risk of perf though
   limited in ability to eval
no ev on lat kub
   excessive edema/bowel wall edema renal failure acidosis and electrolyte
   abnl likely contributing further
   oral meds--> changed to IV
   bladder pressures remain stable 15 -16
   Holding TFS
   Hold bowel reg
   #  Goals of care
   MOSF with poor prognosis and progressive slow decline--family
   discussions ongoing, social work involved, ethics following.  Continue
   to work with family/ to addresses goals of care in light of extremely
   poor prognosis for recovery
   ICU Care
   Nutrition:  holding on TPN given high risk of fungal inf and sig vol
   o/l
 continue to reasses
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2115-5-7**] 03:00 PM
   Dialysis Catheter - [**2115-5-7**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR
CPR felt to be ineffective
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2115-05-10 07:51:00 Physician Resident Progress Note
Chief Complaint: non-convulsive status epilepticus, hypoxemia, renal
   failure, chronic pseudomonal  sepsis
   24 Hour Events:
   - She had a BM x1 Brown
   - Tolerating CVVH well, ABG's improving and able to take volume off
   yesterday.
   - No new renal rec's
   - ID: Daily BCx's and repeat fungal culture today
   - Given Vitamin K 1mg IV x1 in AM for coagulopathy.
   - Hct > 21 on repeat so did not transfuse overnight given need to
   remove volume.  will likely need 1 unit PRBC's in AM.
   - Weaning pentobarb gtt overnight by 0.25mg q6h overnight to off, then
   EEG appeared to be different ? status
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-5-7**] 08:10 AM
   Meropenem - [**2115-5-9**] 08:00 AM
   Ciprofloxacin - [**2115-5-9**] 04:09 PM
   Vancomycin - [**2115-5-9**] 10:44 PM
   Metronidazole - [**2115-5-10**] 12:00 AM
   Caspofungin - [**2115-5-10**] 12:30 AM
   Infusions:
   Pentobarbital - 0.5 mg/Kg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Dopamine - 5 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2115-5-10**] 04:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-10**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.4
C (95.8
   HR: 84 (81 - 95) bpm
   BP: 112/53(66) {88/46(47) - 160/83(89)} mmHg
   RR: 16 (0 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
    CVP: 14 (9 - 18)mmHg
   Total In:
                                                                  4,362 mL
                                                                  1,210 mL
   PO:
   TF:
   IVF:
                                                                  4,262 mL
                                                                  1,210 mL
   Blood products:
   Total out:
                                                                  6,290 mL
                                                                  1,949 mL
   Urine:
                                                                    341 mL
                                                                     10 mL
   NG:
                                                                     70 mL
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                 -1,928 mL
                                                                   -739 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Vent Dependant, CMO
   PIP: 35 cmH2O
   Plateau: 31 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 6.6 L/min
   Physical Examination
   General Appearance: Sedated, intubated, grossly anasarcic
   Eyes / Conjunctiva: left pupil miotic and minimally reactive
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), coarse
   Abdominal: Distended
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   111 K/uL
   6.9 g/dL
   207 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.4 mEq/L
   21 mg/dL
   95 mEq/L
   130 mEq/L
   21.9 %
   21.0 K/uL
        [image002.jpg]
                             [**2115-5-8**]  04:20 AM
                             [**2115-5-8**]  09:48 AM
                             [**2115-5-8**]  04:35 PM
                             [**2115-5-8**]  07:56 PM
                             [**2115-5-9**]  03:40 AM
                             [**2115-5-9**]  03:52 AM
                             [**2115-5-9**]  10:34 AM
                             [**2115-5-9**]  05:10 PM
                             [**2115-5-10**]  12:00 AM
                             [**2115-5-10**]  05:39 AM
   WBC
   15.8
   22.4
   20.4
   21.0
   Hct
   25.4
   22.9
   21.9
   21.9
   Plt
   174
   121
   111
   Cr
   2.5
   2.1
   1.9
   1.5
   1.3
   1.2
   0.9
   TCO2
   18
   Glucose
   98
   92
   101
   61
   83
   87
   86
   181
   207
   Other labs: PT / PTT / INR:21.2/54.0/2.0, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:[**8-15**], Alk Phos / T Bili:171/0.5,
   Amylase / Lipase:146/161, Differential-Neuts:95.0 %, Band:3.0 %,
   Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, D-dimer:5805 ng/mL, Fibrinogen:232
   mg/dL, Lactic Acid:2.7 mmol/L, Albumin:2.3 g/dL, LDH:214 IU/L, Ca++:7.4
   mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Fluid analysis / Other labs: Fibrinogen: 291
   FDP/D dimer pending
   Microbiology: Sputum [**5-4**] and [**5-7**] with pseudomonas and a GNR
   Surveillance blood cultures/mycolytic NGTD [**Date range (1) 2884**]
   Urine [**5-5**]: yeast
   Assessment and Plan
   76F with PMH respiratory failure with chronic vent dependence, seizure
   disorder, presented with hypoxemia after possible aspiration event,
   active issues currently include:
    Sepsis: With chronic pseudomonal colonization in the lungs and yeast
   in the urine, abdominal distention concerning for perforation, chronic
   indwelling lines, chronic effusions with ? empyema, non-diarrheal c.
   diff.
   -Norepit/dopa to maitain MAPs >60
   -Fluid overloaded, continue CVVH
   -continue broad coveragw with  vancomycin, meropenam, ciprofloxacin,
   flagyl and caspofungin per ID recs
   -Follow up micro data, ID requesting daily surveillance blood cultures
   with one set of mycolytics
   -ID recs
   Leukocytosis: In the setting of sepsis, and increasing in the setting
   of steroids
   -continue to monitor, getting treated empirically with anti-microbials
   as indicated above
   -daily surveillance cultures
   Non-convulsive status epilepticus:
   -On depakote, keppra, and dilantin, following levels and adjusting
   doses prn per neuro recs
   -pentobarb coma off, will await status of burst suppression per neuro
   -?Hashimoto's encephalitis, giving solumedrol at 50mg IV BID
   Acute renal failure, likely ATN in the setting of sepsis
   -CVVH per protocol
   -renal following
   Volume overload: result of acute renal failure in the setting of IV
   resuscitation with sepsis
   -CVVH
   Metabolic acidosis: Improving with CVVH, AG 13 Bicarb 22 this AM, last
   VBG 7.3/44/45 and improving
   RV strain: presumably due to a PE despite subcutaneous heparin, with
   mucosal bleeding on heparin gtt, which was turned off.
   -Holding heparin gtt at this time for complication of bleeding
   Respiratory failure: Unknown etiology, current settings 400/16, PEEP 15
   FiO2 60%
   -Continue current settings
   -work up on  hold
   Coagulopathy: coags elevated in the setting of sepsis and poor
   nutrition, s/p dose of vitamin K yesterday with some improvement
   -Active type and cross
   -Transfuse HCT <21
   Constipation: BM overnight spontaneously
   ICU Care
   Nutrition:
   Comments: Holding TF in the setting of an ileus
   Glycemic Control:
   Lines:
   PICC Line - [**2115-5-7**] 03:00 PM
   Dialysis Catheter - [**2115-5-7**] 03:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2115-05-10 11:42:00 Physician Attending Progress Note
Chief Complaint: status epilepticus
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  76 yo F w/chronic resp failure on vent, sz d/o, and recent
   progressive neurologic decline of unclear [**Name2 (NI) 2663**] admitted following
   tube feed aspiration and witnessed sz w/ altered mental status and
   hypoxemia.
   [**Hospital 2205**] hospital course c/b--
   non-convulsive status epilepticus, MOSF with hypotension, requiring
   pressors, recurrent VAP, progressive ARF w/ anasarca now on CVVH,
   presumed PE, ileus, sepsis
   24 Hour Events:
   CVVH with volume removal
   had BM
   hcts stable
   weaning pentobarb --> cvvh artifact on eeg monitoring --> weaning per
   neuro recs
   vit k for elevated INR
   History obtained from ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2115-5-9**] 04:09 PM
   Vancomycin - [**2115-5-9**] 10:44 PM
   Caspofungin - [**2115-5-10**] 12:30 AM
   Metronidazole - [**2115-5-10**] 07:30 AM
   Meropenem - [**2115-5-10**] 09:57 AM
   Infusions:
   Pentobarbital - 0.3 mg/Kg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Dopamine - 5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2115-5-10**] 04:36 AM
   Famotidine (Pepcid) - [**2115-5-10**] 09:57 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-10**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.1
C (95.2
   HR: 83 (81 - 95) bpm
   BP: 117/63(76) {88/46(47) - 160/66(84)} mmHg
   RR: 13 (0 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
   CVP: 12 (9 - 18)mmHg
   Total In:
                                                                  4,362 mL
                                                                  2,040 mL
   PO:
   TF:
   IVF:
                                                                  4,262 mL
                                                                  2,040 mL
   Blood products:
   Total out:
                                                                  6,290 mL
                                                                  2,987 mL
   Urine:
                                                                    341 mL
                                                                     15 mL
   NG:
                                                                     70 mL
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                 -1,928 mL
                                                                   -947 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Vent Dependant, CMO
   PIP: 35 cmH2O
   Plateau: 31 cmH2O
   SpO2: 100%
   ABG: 7.3/44 (vbg)
   Ve: 6.6 L/min
   Physical Examination
   General Appearance: gross anasarca
improving
   Eyes / Conjunctiva: PERRL, l min rx, unchanged
   MMM, line sites clean
   Cardiovascular: (S1: Normal), (S2: Normal, Distant) no murmur
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: ) decreased at bases
   Abdominal: less distended, softer, hypoactive bs
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Unresponsive
   Labs / Radiology
   6.9 g/dL
   97 K/uL
   207 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.4 mEq/L
   21 mg/dL
   95 mEq/L
   130 mEq/L
   21.9 %
   21.0 K/uL
        [image002.jpg]
                             [**2115-5-8**]  04:20 AM
                             [**2115-5-8**]  09:48 AM
                             [**2115-5-8**]  04:35 PM
                             [**2115-5-8**]  07:56 PM
                             [**2115-5-9**]  03:40 AM
                             [**2115-5-9**]  03:52 AM
                             [**2115-5-9**]  10:34 AM
                             [**2115-5-9**]  05:10 PM
                             [**2115-5-10**]  12:00 AM
                             [**2115-5-10**]  05:39 AM
   WBC
   15.8
   22.4
   20.4
   21.0
   Hct
   25.4
   22.9
   21.9
   21.9
   Plt
   174
   121
   111
   97
   Cr
   2.5
   2.1
   1.9
   1.5
   1.3
   1.2
   0.9
   TCO2
   18
   Glucose
   98
   92
   101
   61
   83
   87
   86
   181
   207
   Other labs: PT / PTT / INR:18.2/50.9/1.7 --> 2.0, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:[**8-15**], Alk Phos / T Bili:171/0.5,
   Amylase / Lipase:146/161, Differential-Neuts:95.0 %, Band:3.0 %,
   Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, D-dimer:3948 ng/mL, Fibrinogen:291
   mg/dL, Lactic Acid:2.7 mmol/L, Albumin:2.3 g/dL, LDH:214 IU/L, Ca++:7.4
   mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Fluid analysis / Other labs: fdp-10-40
   Imaging: KUB--
   CXR-- some improved aeration, rotated, L picc and L IJ HD line in good
   position, trach
   Microbiology: [**5-4**], [**5-7**]--psa, gnr
   surveillance bl cxs--ngtd since [**5-7**],
   fungal cxs pending
   Assessment and Plan
   76 yo F w/chronic resp failure on vent, known sz d/o, and recent
   progressive neurologic decline of unclear [**Name2 (NI) 2663**] admitted following
   tube feed aspiration and witnessed sz w/ altered mental status and
   hypoxemia.
   [**Hospital 2205**] hospital course c/b
        non-convulsive status epilepticus, hypotension, requiring
   pressors, recurrent VAP, progressive ARF w/ anasarca, on
        cvvh, presumed PE, ileus,  and recurrent sepsis
   Patient  remains unresponsive in a pentobarb coma to suppress sz
   activity .
   Although metabolic numbers appear improved since starting CVVH,
   underlying issues (MOSF) remain unchanged.
   Steroids added recently for ? hashimoto
s encephalopathy with plan to
   wean off pentobarb and reassess for potential recurrent sz or
   neurologic improvement, though prognosis remains extremely poor.
   Active issues remain:
   # Sepsis
   Multiple potential sources
 non-diarrheal c diff, abd distention,
   fungal infection, line infection, skin breakdown effusions/ possible
   empyema
   To date cxs growing only PSA (sp) and yeast in urine and sp
   Now on steroids for CNS further increasing infectious risks
   -  continue broad empiric coverage with caspo, flagyl, vanco
   consider d/c flagyl once ruled out  for c diff
   -  Would also d/c vanco and caspo after fungal and bl cx return pos (ID
   input appreciated)
   -  Continue antii PSA coverage w/ cipro/[**Last Name (un) 430**]
   -- holding on tapping effusions given high peep requirements and risks
   of pnx
   - Daily surveillance bacterial and fungal cx
   # Non-convulsive status
   -- weaning pentobarb  --> remains on depakote, Keppra and Dilantin
   -  [**Hospital1 **] solumedrol given ? ? hashimotos encephalopathy / vasculits
   --once off pentobarb will reassess for recurrent sz or improvement in
   neuro status
   - prognosis extremely poor
   # Hypotension
dopa added in setting of decompensation w/ bradycardia,
   neo
wean as tolerated keeping MAPs > 60
   multifactorial [**1-19**] AEDs, RV failure presumed PE, sepsis
    # ARF / gap metabolic acidosis/ volume overload
   - extreme volume o/l contributing to resp issues/bowel issues/ileus
   -  CVVH with ultrafiltration
   - CVVH dosing of all meds
   --gap acidosis improving
   # Presumed PE (echo)
   Bleeding from mouth, nose, lines, peg site
   Uremic plt dysfx further contributing
   Holding heparin gtt
   ## Resp Failure
   # resp muscle weakness weakness
   # pseudomonal pna
antibx as above
   -    continue ACV , not wean candidate given gross vol u/l,
   -    check abg and consider decreasing fio2 or peep pending pao2
   # coagulopathy, bleeding, hct drop
   Transfuse for hct < 21
   [**Last Name (un) 2888**] type and cross
   Vit K (likely meds and poor nutrition)
   # Leukocytosis
   Multiple infectious risks as above + steroids
   f/u cx
s, empiric antibx./antifungal rx for now tapering pending final
   cx data
   # constipation/ileus/abd distention
 ? neurogenic component, no ev  of
   perf on lat kub
   excessive edema/bowel wall edema, renal failure/acidosis and
   electrolyte abnl contributing further
   slow progress with volume removal now with BM
   oral meds --> changed to IV
   bladder pressures remain stable (15 -16)
   consider resuming tfs tomorrow
   Hold bowel reg
   #  Goals of care
   MOSF with poor prognosis and progressive slow decline--family
   discussions ongoing, social work involved, ethics following.  Continue
   to work with family to addresses goals of care in light of extremely
   poor prognosis for functional recovery
   CPR felt to be ineffective, potentially harmful treatment, and this has
   been communicated to pt
s family.  Once off pentobarb, if sz are
   recurrent or there is no change in CNS function, discussions about
   futility of care will be addressed.
   ICU Care
   Nutrition:
   Comments: npo
>consider resuming tfs tomorrow
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2115-5-7**] 03:00 PM
   Dialysis Catheter - [**2115-5-7**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker, boots
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)--cpr would be ineffective
   treatment
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2115-05-11 08:00:00 Physician Resident Progress Note
Chief Complaint: NCSE
   24 Hour Events:
   Pentobarbital turned off at 5PM
   -No new ID or renal recs, renal would like aggressive CVVH as long as
   there is no significant change in pressor requirements.
   -C. diff negative x1
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2115-5-9**] 10:44 PM
   Ciprofloxacin - [**2115-5-10**] 06:04 PM
   Caspofungin - [**2115-5-11**] 01:00 AM
   Meropenem - [**2115-5-11**] 04:11 AM
   Metronidazole - [**2115-5-11**] 07:20 AM
   Infusions:
   Pentobarbital - 0.3 mg/Kg/hour
   Dopamine - 5 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2115-5-10**] 09:57 AM
   Heparin Sodium - [**2115-5-11**] 04:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-11**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.6
C (96
   HR: 84 (81 - 94) bpm
   BP: 95/47(59) {73/43(50) - 126/63(76)} mmHg
   RR: 16 (13 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
    CVP: 15 (8 - 16)mmHg
   Total In:
                                                                  4,403 mL
                                                                  1,536 mL
   PO:
   TF:
   IVF:
                                                                  4,223 mL
                                                                  1,516 mL
   Blood products:
   Total out:
                                                                  6,041 mL
                                                                  1,943 mL
   Urine:
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,638 mL
                                                                   -407 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: Vent Dependant
   PIP: 31 cmH2O
   Plateau: 30 cmH2O
   SpO2: 100%
   ABG: 7.37/43/183/23/0
   Ve: 6.7 L/min
   PaO2 / FiO2: 305
   Physical Examination
   Eyes / Conjunctiva: PERRL, left side
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   78 K/uL
   7.2 g/dL
   92 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.5 mEq/L
   17 mg/dL
   98 mEq/L
   134 mEq/L
   22.6 %
   20.4 K/uL
        [image002.jpg]
                             [**2115-5-9**]  03:40 AM
                             [**2115-5-9**]  03:52 AM
                             [**2115-5-9**]  10:34 AM
                             [**2115-5-9**]  05:10 PM
                             [**2115-5-10**]  12:00 AM
                             [**2115-5-10**]  05:39 AM
                             [**2115-5-10**]  12:29 PM
                             [**2115-5-10**]  05:29 PM
                             [**2115-5-10**]  11:30 PM
                             [**2115-5-11**]  05:34 AM
   WBC
   22.4
   20.4
   21.0
   20.4
   Hct
   22.9
   21.9
   21.9
   22.6
   Plt
   121
   111
   97
   78
   Cr
   1.5
   1.3
   1.2
   0.9
   0.8
   0.8
   TCO2
   18
   26
   Glucose
   83
   87
   86
   181
   207
   100
   100
   92
   Other labs: PT / PTT / INR:18.2/50.9/1.7, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:[**8-15**], Alk Phos / T Bili:171/0.5,
   Amylase / Lipase:146/161, Differential-Neuts:95.0 %, Band:3.0 %,
   Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, D-dimer:3948 ng/mL, Fibrinogen:291
   mg/dL, Lactic Acid:2.7 mmol/L, Albumin:2.3 g/dL, LDH:214 IU/L, Ca++:7.4
   mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Imaging: cxr
   Microbiology: ngtd
   Assessment and Plan
   76F with PMH respiratory failure with chronic vent dependence, seizure
   disorder, presented with hypoxemia after possible aspiration event,
   active issues currently include:
   .
    Sepsis: With chronic pseudomonal colonization in the lungs and yeast
   in the urine, abdominal distention concerning for perforation, chronic
   indwelling lines, chronic effusions with ? empyema, non-diarrheal c.
   diff.
   -Norepit/dopa to maitain MAPs >60
   -Fluid overloaded, continue CVVH
   -continue broad coveragw with  vancomycin, meropenam, ciprofloxacin,
   flagyl and caspofungin per ID recs
   -Follow up micro data, ID requesting daily surveillance blood cultures
   with one set of mycolytics
   -ID recs
   .
   Leukocytosis: In the setting of sepsis, and increasing in the setting
   of steroids
   -continue to monitor, getting treated empirically with anti-microbials
   as indicated above
   -daily surveillance cultures
   .
   Non-convulsive status epilepticus:
   -On depakote, keppra, and dilantin, following levels and adjusting
   doses prn per neuro recs
   -pentobarb coma off, will await status of burst suppression per neuro
   -?Hashimoto's encephalitis, giving solumedrol at 50mg IV daily
   .
   Acute renal failure, ATN in the setting of sepsis/ hypotension
   -CVVH per protocol
   -renal following
   .
   Volume overload: result of acute renal failure in the setting of IV
   resuscitation with sepsis
   -CVVH aggressively take off fluid with MAP>60 unless substantial
   increase in pressor requirements
   .
   Metabolic acidosis: resolved with CVVH
   .
   RV strain: presumably due to a PE despite subcutaneous heparin, with
   mucosal bleeding on heparin gtt, which was turned off.
   -Holding heparin gtt at this time for complication of bleeding
   .
   Respiratory failure: multifactorial etiology [**1-19**] pna, overload,
   presumed PE, current settings 400/16, PEEP 15 FiO2 60%
   -Decrease FiO2 to 40%
   .
   Coagulopathy: coags elevated in the setting of sepsis and poor
   nutrition, s/p dose of vitamin K  with some improvement
   -Active type and cross
   -Transfuse HCT <21
   .
   Constipation: restart TF at slow rate given we have taken fluid off her
   and her gut motility should be improved
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2115-5-7**] 03:00 PM
   Dialysis Catheter - [**2115-5-7**] 03:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2115-05-11 08:05:00 Physician Attending Progress Note
Chief Complaint: status epilepticus
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 yo F w/chronic resp failure on vent, sz d/o, and recent progressive
   neurologic decline of unclear [**Name2 (NI) 2663**] admitted following tube feed
   aspiration and witnessed sz w/ altered mental status and hypoxemia.
   [**Hospital 2205**] hospital course c/b--
   non-convulsive status epilepticus, MOSF with hypotension, requiring
   pressors, recurrent VAP, progressive ARF w/ anasarca now on CVVH,
   presumed PE, ileus, sepsis
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2115-5-9**] 10:44 PM
   Ciprofloxacin - [**2115-5-10**] 06:04 PM
   Caspofungin - [**2115-5-11**] 01:00 AM
   Meropenem - [**2115-5-11**] 04:11 AM
   Metronidazole - [**2115-5-11**] 07:20 AM
   Infusions:
   Dopamine - 5 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2115-5-10**] 09:57 AM
   Heparin Sodium - [**2115-5-11**] 04:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-11**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.5
C (95.9
   HR: 84 (81 - 94) bpm
   BP: 95/47(59) {73/43(50) - 126/63(76)} mmHg
   RR: 16 (13 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
   CVP: 15 (8 - 16)mmHg
   Total In:
                                                                  4,403 mL
                                                                  1,556 mL
   PO:
   TF:
   IVF:
                                                                  4,223 mL
                                                                  1,536 mL
   Blood products:
   Total out:
                                                                  6,041 mL
                                                                  2,136 mL
   Urine:
                                                                     35 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,638 mL
                                                                   -580 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: Vent Dependant
   PIP: 31 cmH2O
   Plateau: 30 cmH2O
   SpO2: 100%
   ABG: 7.37/43/183/23/0
   Ve: 6.7 L/min
   PaO2 / FiO2: 305
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.2 g/dL
   78 K/uL
   92 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.5 mEq/L
   17 mg/dL
   98 mEq/L
   134 mEq/L
   22.6 %
   20.4 K/uL
        [image002.jpg]
                             [**2115-5-9**]  03:40 AM
                             [**2115-5-9**]  03:52 AM
                             [**2115-5-9**]  10:34 AM
                             [**2115-5-9**]  05:10 PM
                             [**2115-5-10**]  12:00 AM
                             [**2115-5-10**]  05:39 AM
                             [**2115-5-10**]  12:29 PM
                             [**2115-5-10**]  05:29 PM
                             [**2115-5-10**]  11:30 PM
                             [**2115-5-11**]  05:34 AM
   WBC
   22.4
   20.4
   21.0
   20.4
   Hct
   22.9
   21.9
   21.9
   22.6
   Plt
   121
   111
   97
   78
   Cr
   1.5
   1.3
   1.2
   0.9
   0.8
   0.8
   TCO2
   18
   26
   Glucose
   83
   87
   86
   181
   207
   100
   100
   92
   Other labs: PT / PTT / INR:18.2/50.9/1.7, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:[**8-15**], Alk Phos / T Bili:171/0.5,
   Amylase / Lipase:146/161, Differential-Neuts:95.0 %, Band:3.0 %,
   Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, D-dimer:3948 ng/mL, Fibrinogen:291
   mg/dL, Lactic Acid:2.7 mmol/L, Albumin:2.3 g/dL, LDH:214 IU/L, Ca++:7.4
   mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
    Physical Examination
   General Appearance: gross anasarca
improving
   Eyes / Conjunctiva: PERRL, l min rx, unchanged
   MMM, line sites clean
   Cardiovascular: (S1: Normal), (S2: Normal, Distant) no murmur
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: ) decreased at bases
   Abdominal: less distended, softer, hypoactive bs
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Unresponsive
    Assessment and Plan
   76 yo F w/chronic resp failure on vent, known sz d/o, and recent
   progressive neurologic decline of unclear [**Name2 (NI) 2663**] admitted following
   tube feed aspiration and witnessed sz w/ altered mental status and
   hypoxemia.
   [**Hospital 2205**] hospital course c/b
        non-convulsive status epilepticus, hypotension, requiring
   pressors, recurrent VAP, progressive ARF w/ anasarca, on
        cvvh, presumed PE, ileus,  and recurrent sepsis
   Patient  remains unresponsive in a pentobarb coma to suppress sz
   activity .
   Although metabolic numbers appear improved since starting CVVH,
   underlying issues (MOSF) remain unchanged.
   Steroids added recently for ? hashimoto
s encephalopathy with plan to
   wean off pentobarb and reassess for potential recurrent sz or
   neurologic improvement, though prognosis remains extremely poor.
   Active issues remain:
   # Sepsis
   Multiple potential sources
 non-diarrheal c diff, abd distention,
   fungal infection, line infection, skin breakdown effusions/ possible
   empyema
   To date cxs growing only PSA (sp) and yeast in urine and sp
   Now on steroids for CNS further increasing infectious risks
   -  continue broad empiric coverage with caspo, flagyl, vanco
   consider d/c flagyl once ruled out  for c diff
   -  Would also d/c vanco and caspo after fungal and bl cx return pos (ID
   input appreciated)
   -  Continue antii PSA coverage w/ cipro/[**Last Name (un) 430**]
   -- holding on tapping effusions given high peep requirements and risks
   of pnx
   - Daily surveillance bacterial and fungal cx
   # Non-convulsive status
   -- weaning pentobarb  --> remains on depakote, Keppra and Dilantin
   -  [**Hospital1 **] solumedrol given ? ? hashimotos encephalopathy / vasculits
   --once off pentobarb will reassess for recurrent sz or improvement in
   neuro status
   - prognosis extremely poor
   # Hypotension
dopa added in setting of decompensation w/ bradycardia,
   neo
wean as tolerated keeping MAPs > 60
   multifactorial [**1-19**] AEDs, RV failure presumed PE, sepsis
    # ARF / gap metabolic acidosis/ volume overload
   - extreme volume o/l contributing to resp issues/bowel issues/ileus
   -  CVVH with ultrafiltration
   - CVVH dosing of all meds
   --gap acidosis improving
   # Presumed PE (echo)
   Bleeding from mouth, nose, lines, peg site
   Uremic plt dysfx further contributing
   Holding heparin gtt
   ## Resp Failure
   # resp muscle weakness weakness
   # pseudomonal pna
antibx as above
   -    continue ACV , not wean candidate given gross vol u/l,
   -    check abg and consider decreasing fio2 or peep pending pao2
   # coagulopathy, bleeding, hct drop
   Transfuse for hct < 21
   [**Last Name (un) 2888**] type and cross
   Vit K (likely meds and poor nutrition)
   # Leukocytosis
   Multiple infectious risks as above + steroids
   f/u cx
s, empiric antibx./antifungal rx for now tapering pending final
   cx data
   # constipation/ileus/abd distention
 ? neurogenic component, no ev  of
   perf on lat kub
   excessive edema/bowel wall edema, renal failure/acidosis and
   electrolyte abnl contributing further
   slow progress with volume removal now with BM
   oral meds --> changed to IV
   bladder pressures remain stable (15 -16)
   consider resuming tfs tomorrow
   Hold bowel reg
   #  Goals of care
   MOSF with poor prognosis and progressive slow decline--family
   discussions ongoing, social work involved, ethics following.  Continue
   to work with family to addresses goals of care in light of extremely
   poor prognosis for functional recovery
   CPR felt to be ineffective, potentially harmful treatment, and this has
   been communicated to pt
s family.  Once off pentobarb, if sz are
   recurrent or there is no change in CNS function, discussions about
   futility of care will be addressed.
   ICU Care
   Nutrition:
   Comments: npo
>consider resuming tfs tomorrow
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2115-5-7**] 03:00 PM
   Dialysis Catheter - [**2115-5-7**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker, boots
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)--cpr would be ineffective
   treatment
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2115-5-7**] 03:00 PM
   Dialysis Catheter - [**2115-5-7**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent:

2115-05-12 08:00:00 Physician Attending Progress Note
Chief Complaint: status epilepticus
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 yo F w/chronic resp failure on vent, sz d/o, and recent progressive
   neurologic decline of unclear [**Name2 (NI) 2663**] admitted following tube feed
   aspiration and witnessed sz w/ altered mental status and hypoxemia.
   [**Hospital 2205**] hospital course c/b--
   non-convulsive status epilepticus, MOSF with hypotension, requiring
   pressors, recurrent VAP, progressive ARF w/ anasarca now on CVVH,
   presumed PE, ileus, sepsis
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2115-5-10**] 06:04 PM
   Vancomycin - [**2115-5-11**] 09:32 PM
   Caspofungin - [**2115-5-12**] 12:08 AM
   Meropenem - [**2115-5-12**] 02:12 AM
   Metronidazole - [**2115-5-12**] 07:19 AM
   Infusions:
   Norepinephrine - 0.11 mcg/Kg/min
   Dopamine - 3.5 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Heparin Sodium - [**2115-5-11**] 12:00 PM
   Famotidine (Pepcid) - [**2115-5-12**] 06:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-12**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 34.6
C (94.2
   HR: 90 (79 - 93) bpm
   BP: 105/46(60) {88/43(54) - 138/63(77)} mmHg
   RR: 17 (15 - 21) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
   CVP: 8 (5 - 14)mmHg
   Total In:
                                                                  4,704 mL
                                                                  1,586 mL
   PO:
   TF:
   IVF:
                                                                  4,589 mL
                                                                  1,586 mL
   Blood products:
   Total out:
                                                                  6,516 mL
                                                                  1,344 mL
   Urine:
                                                                     40 mL
   NG:
                                                                     50 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,812 mL
                                                                    242 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 7.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.0 g/dL
   68 K/uL
   145 mg/dL
   0.6 mg/dL
   21 mEq/L
   4.1 mEq/L
   11 mg/dL
   105 mEq/L
   134 mEq/L
   22.9 %
   24.2 K/uL
        [image002.jpg]
                             [**2115-5-10**]  05:39 AM
                             [**2115-5-10**]  12:29 PM
                             [**2115-5-10**]  05:29 PM
                             [**2115-5-10**]  11:30 PM
                             [**2115-5-11**]  05:34 AM
                             [**2115-5-11**]  05:51 AM
                             [**2115-5-11**]  01:11 PM
                             [**2115-5-11**]  05:45 PM
                             [**2115-5-12**]  01:12 AM
                             [**2115-5-12**]  05:44 AM
   WBC
   21.0
   20.4
   20.9
   24.2
   Hct
   21.9
   22.6
   22.4
   22.9
   Plt
   97
   78
   91
   68
   Cr
   0.9
   0.8
   0.8
   0.7
   0.6
   0.6
   TCO2
   26
   Glucose
   [**Telephone/Fax (3) 2905**]2
   92
   102
   142
   133
   145
   Other labs: PT / PTT / INR:14.8/36.0/1.3, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:16/41, Alk Phos / T Bili:227/0.5,
   Amylase / Lipase:146/161, Differential-Neuts:99.0 %, Band:0.0 %,
   Lymph:0.0 %, Mono:1.0 %, Eos:0.0 %, D-dimer:3948 ng/mL, Fibrinogen:291
   mg/dL, Lactic Acid:2.7 mmol/L, Albumin:2.0 g/dL, LDH:214 IU/L, Ca++:7.6
   mg/dL, Mg++:1.8 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
    Physical Examination
   General Appearance: gross anasarca
improving, not waking up
   Eyes / Conjunctiva: L pupil responsive, unchanged
   MMM, line sites clean
   Cardiovascular: (S1: Normal), (S2: Normal, Distant) no murmur
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: ) decreased at bases
   Abdominal: less distended, softer, hypoactive bs
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Unresponsive
   Assessment and Plan
   76 yo F w/chronic resp failure on vent, known sz d/o, and recent
   progressive neurologic decline of unclear [**Name2 (NI) 2663**] admitted following
   tube feed aspiration and witnessed sz w/ altered mental status and
   hypoxemia.
   [**Hospital 2205**] hospital course c/b
        non-convulsive status epilepticus, hypotension, requiring
   pressors, recurrent VAP, progressive ARF w/ anasarca, on  cvvh,
   presumed PE, ileus,  and recurrent sepsis
   Patient  remains unresponsive in a pentobarb coma to suppress sz
   activity .
   Although metabolic numbers appear improved since starting CVVH,
   underlying issues (MOSF) remain unchanged.
   Steroids added recently for ? hashimoto
s encephalopathy with plan to
   wean off pentobarb and reassess for potential recurrent sz or
   neurologic improvement, though prognosis remains extremely poor.
   Active issues remain:
   # Sepsis
   Multiple potential sources
 non-diarrheal c diff, abd distention,
   fungal infection, line infection, skin breakdown effusions
   To date cxs growing only PSA (sp) and yeast in urine and sp.
   Now on steroids for CNS further increasing infectious risks
   -  continue broad empiric coverage with caspo, flagyl, vanco
   consider d/c flagyl once ruled out  for c diff
   -  Would also d/c vanco and caspo after fungal and bl cx return pos (ID
   input appreciated)
   -  Continue anti PSA coverage w/ cipro/[**Last Name (un) 430**]
   -- holding on tapping effusions given high peep requirements and risks
   of pnx
   - Daily surveillance bacterial and fungal cx
   - Continue pressors for gaol MAP greater than 65
   # Non-convulsive status
   -- off pentobarb  --> remains on depakote, Keppra and Dilantin
 check
   with neuro, check if back in status
   -  [**Hospital1 **] solumedrol given ? ? hashimotos encephalopathy / vasculits
   -  not waking up, prognosis extremely poor
   # Hypotension
dopa added in setting of decompensation w/ bradycardia,
   neo
wean as tolerated keeping MAPs > 60
    multifactorial [**1-19**] AEDs, RV failure presumed PE, sepsis
    # ARF / gap metabolic acidosis/ volume overload
    - extreme volume o/l contributing to resp issues/bowel issues/ileus
    -  CVVH with ultrafiltration
   - CVVH dosing of all meds
   --gap acidosis resolved
   # Presumed PE (echo)
    Bleeding from mouth, nose, lines, peg site, improved but persist
    Uremic plt dysfx further contributing
   Holding heparin gtt
   ## Resp Failure
    # resp muscle weakness
    # pseudomonal pna
antibx as above
   -    PaO2 improved, decrease peep and FiO2 as tolerated.
   # coagulopathy, bleeding, hct drop
   Vit K (likely meds and poor nutrition)
   # Thromobocytopenia:
   ? med related (vanco), would check HIT and trend
   # Leukocytosis
   Multiple infectious risks as above + steroids
   f/u cx
s, empiric antibx./antifungal rx for now
   # constipation/ileus/abd distention
 ? neurogenic component, no ev  of
   perf on lat kub
   excessive edema/bowel wall edema, renal failure/acidosis and
   electrolyte abnl contributing further
   slow progress with volume removal now with BM
    bladder pressures remain stable (15 -16)
   Resume tube feeds and po meds and see if she tolerates
   #  Goals of care
   MOSF with poor prognosis and progressive slow decline--family
   discussions ongoing, social work involved, ethics following.  Continue
   to work with family to addresses goals of care in light of extremely
   poor prognosis for functional recovery
   CPR felt to be ineffective, potentially harmful treatment, and this has
   been communicated to pt
s family.  Now off pentobarb, if sz are
   recurrent or there is no change in CNS function, discussions about
   futility of care will be addressed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2115-5-7**] 03:00 PM
   Dialysis Catheter - [**2115-5-7**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent:

2115-05-12 08:02:00 Physician Resident Progress Note
Chief Complaint: Multisystem Organ failure, status epilepticus
   24 Hour Events:
   Off pentobarb coma at 8am and no status! Bolused VPA and increased
   regimen per neuro. ID no further recs. Took fluid off with CVVH,
   remains on double pressors. Sent off HIT panel and peripheral smear
   given decreasing plt count.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2115-5-10**] 06:04 PM
   Vancomycin - [**2115-5-11**] 09:32 PM
   Caspofungin - [**2115-5-12**] 12:08 AM
   Meropenem - [**2115-5-12**] 02:12 AM
   Metronidazole - [**2115-5-12**] 07:19 AM
   Infusions:
   Norepinephrine - 0.11 mcg/Kg/min
   Dopamine - 3.5 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Heparin Sodium - [**2115-5-11**] 12:00 PM
   Famotidine (Pepcid) - [**2115-5-12**] 06:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-12**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 34.6
C (94.2
   HR: 90 (79 - 93) bpm
   BP: 105/46(60) {88/43(54) - 138/63(77)} mmHg
   RR: 17 (15 - 21) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
    CVP: 8 (5 - 14)mmHg
   Total In:
                                                                  4,704 mL
                                                                  1,547 mL
   PO:
   TF:
   IVF:
                                                                  4,589 mL
                                                                  1,547 mL
   Blood products:
   Total out:
                                                                  6,516 mL
                                                                  1,344 mL
   Urine:
                                                                     40 mL
   NG:
                                                                     50 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,812 mL
                                                                    203 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 7.5 L/min
   Physical Examination
   General Appearance: bitemporal wasting
   Eyes / Conjunctiva: L-pupil sluggishly reactive, +corneal blink
   Head, Ears, Nose, Throat: Poor dentition, asymmetric face
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, does not withdraw to pain
   Labs / Radiology
   68 K/uL
   7.0 g/dL
   145 mg/dL
   0.6 mg/dL
   21 mEq/L
   4.1 mEq/L
   11 mg/dL
   105 mEq/L
   134 mEq/L
   22.9 %
   24.2 K/uL
        [image002.jpg]
                             [**2115-5-10**]  05:39 AM
                             [**2115-5-10**]  12:29 PM
                             [**2115-5-10**]  05:29 PM
                             [**2115-5-10**]  11:30 PM
                             [**2115-5-11**]  05:34 AM
                             [**2115-5-11**]  05:51 AM
                             [**2115-5-11**]  01:11 PM
                             [**2115-5-11**]  05:45 PM
                             [**2115-5-12**]  01:12 AM
                             [**2115-5-12**]  05:44 AM
   WBC
   21.0
   20.4
   20.9
   24.2
   Hct
   21.9
   22.6
   22.4
   22.9
   Plt
   97
   78
   91
   68
   Cr
   0.9
   0.8
   0.8
   0.7
   0.6
   0.6
   TCO2
   26
   Glucose
   [**Telephone/Fax (3) 2905**]2
   92
   102
   142
   133
   145
   Other labs: PT / PTT / INR:14.8/36.0/1.3, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:16/41, Alk Phos / T Bili:227/0.5,
   Amylase / Lipase:146/161, Differential-Neuts:99.0 %, Band:0.0 %,
   Lymph:0.0 %, Mono:1.0 %, Eos:0.0 %, D-dimer:3948 ng/mL, Fibrinogen:291
   mg/dL, Lactic Acid:2.7 mmol/L, Albumin:2.0 g/dL, LDH:214 IU/L, Ca++:7.6
   mg/dL, Mg++:1.8 mg/dL, PO4:1.4 mg/dL
   Imaging: CXR: IMPRESSION: Interval resolution of right upper lobe
   opacity. No significant
   change in mild pulmonary edema and moderate bilateral pleural
   effusions.
   Microbiology: BCx: No New Growth
   Sputum: No new growth
   Assessment and Plan
   76F with PMH respiratory failure with chronic vent dependence, seizure
   disorder, presented with hypoxemia after possible aspiration event,
   active issues currently include:
   .
    Sepsis: Treating pseudomonal pneumonia with meropenem/cipro.  and
   yeast in the urine, abdominal distention concerning for perforation,
   chronic indwelling lines, chronic effusions with ? empyema,
   non-diarrheal c. diff.
   - Vanc/caspo/flagyl are empiric at this time, flagyl day 1 ([**5-7**]),
   Vancomycin (day 1 = [**4-27**]? Then restarted), caspofungin (day 1 =
   [**5-7**]).  Will not redose vanco at this time and monitor.  Continue
   flagyl given concern for C. Diff other GI source.  D/c caspo at next
   opportunity.
   - Norepi/dopa to maitain MAPs >60
   - Fluid overloaded, continue CVVH, goal maintain CVP > or = 10.
   - Continue [**Last Name (un) 430**]/cipro/caspo/flagyl
   - Culture if spikes, no more surveillance cultures.
   - ID recs
   - Check beta glucan and galactomannan
   .
   Leukocytosis: In the setting of sepsis, and increasing in the setting
   of steroids
   -continue to monitor, getting treated empirically with anti-microbials
   as indicated above
   -daily surveillance cultures
   .
   Non-convulsive status epilepticus: Off pentobarb gtt - no new status,
   continuing solumedrol IV for now.  No change in underlying mental
   status, but will continue to assess.
   -On depakote, keppra, and dilantin, following levels and adjusting
   doses prn per neuro recs
   -pentobarb coma off, will await status of burst suppression per neuro
   -?Hashimoto's encephalitis, giving solumedrol at 50mg IV daily
   .
   Acute renal failure, ATN in the setting of sepsis/ hypotension,
   bicarbonate stable
   -CVVH per protocol
   -renal following
   .
   Volume overload: result of acute renal failure in the setting of IV
   resuscitation with sepsis
   -CVVH aggressively take off fluid with MAP>60 unless substantial
   increase in pressor requirements or hypothermia
   .
   Metabolic acidosis: resolved with CVVH
   .
   RV strain: presumably due to a PE despite subcutaneous heparin, with
   mucosal bleeding on heparin gtt, which was turned off.
   -Holding heparin gtt at this time for complication of bleeding
   .
   Respiratory failure: multifactorial etiology [**1-19**] pna, overload,
   presumed PE, decrease PEEP today to allow for more room on BP/CVVH.
   - Monitor VBG
   .
   Coagulopathy: coags elevated in the setting of sepsis and poor
   nutrition, s/p dose of vitamin K  with some improvement
   -Active type and cross
   -Transfuse HCT <21
   - hold tube feeds for now given bloody return from peg tube.
   .
   Thrombocytopenia: Likely [**1-19**] to infection, follow-up smear for ? HIT,
   ?medication effect from PPI
   - review other medications
   - trend, transfuse for active bleeding if < 50K or ,<10K
   - hold heparin products
   .
   Constipation: having BM
s, trend Hct, continue current med
s, hold tube
   feeds.
   ICU Care
   Nutrition: consult today for TPN rec
 holding tube feeds.
   Glycemic Control:
   Lines:
   PICC Line - [**2115-5-7**] 03:00 PM
   Dialysis Catheter - [**2115-5-7**] 03:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:  chlorhexadine
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2115-05-13 07:30:00 Physician Resident Progress Note
Chief Complaint: 76F with PMH respiratory failure with chronic vent
   dependence, seizure disorder, presented with hypoxemia after possible
   aspiration event, active issues currently include:
   1. Sepsis
   2. ARF
   3. Non-convulsive status epilepticus
   24 Hour Events:
   - ID: Recommended stopping vanco and caspo -> so d/c'd caspo as well
   after discussion, also recommends consider PCP [**Name9 (PRE) **] [**Name Initial (PRE) **]/ bactrim if
   remains on steroids.
   - Renal: Recommending IV Phos repletion x1
   - PM Hct 20.1 so gave 1 unit PRBC's, platelets 57
   - Neuro: No new rec's on Sunday, did not uptitrate valproic acid
   despite subtherapeutic level as not in status.
   - Having frequent SVT by tele overnight so held dopamine, MAP goal of
   60 -> patient tolerating, but had to dial back CVVH i/o goal.  ?
   restarting dopamine to continue diuresis with CVVH.
   - Checked beta-glucan and galactomannan
   - HIT panel pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2115-5-11**] 09:32 PM
   Caspofungin - [**2115-5-12**] 12:08 AM
   Ciprofloxacin - [**2115-5-12**] 04:37 PM
   Metronidazole - [**2115-5-12**] 11:15 PM
   Meropenem - [**2115-5-13**] 03:15 AM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-13**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.9
C (96.7
   HR: 86 (80 - 93) bpm
   BP: 114/51(65) {86/47(56) - 117/67(77)} mmHg
   RR: 18 (14 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
    CVP: 12 (6 - 12)mmHg
   Total In:
                                                                  4,841 mL
                                                                  1,415 mL
   PO:
   TF:
   IVF:
                                                                  4,605 mL
                                                                    750 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  6,056 mL
                                                                  1,967 mL
   Urine:
                                                                     41 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,215 mL
                                                                   -552 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: ///19/
   Ve: 6.6 L/min
   Physical Examination
   General: Less anasarcic today
   Neuro: non-responsive to verbal or painful stimuli.  Right pupil
   sluggish, left pupil non-reactive.  Corneal reflex in tact on the
   right.
   Cardiac: rrr, no murmurs
   Lungs: coarse ventilated
   Ext: 3+ pitting edema
   Abdomen: Distended, soft, peg draining blood
   Labs / Radiology
   57 K/uL
   8.6 g/dL
   171 mg/dL
   0.5 mg/dL
   19 mEq/L
   4.2 mEq/L
   10 mg/dL
   105 mEq/L
   132 mEq/L
   26.6 %
   20.1 K/uL
        [image002.jpg]
                             [**2115-5-11**]  05:34 AM
                             [**2115-5-11**]  05:51 AM
                             [**2115-5-11**]  01:11 PM
                             [**2115-5-11**]  05:45 PM
                             [**2115-5-12**]  01:12 AM
                             [**2115-5-12**]  05:44 AM
                             [**2115-5-12**]  12:31 PM
                             [**2115-5-12**]  05:54 PM
                             [**2115-5-13**]  12:09 AM
                             [**2115-5-13**]  05:51 AM
   WBC
   20.9
   24.2
   20.1
   Hct
   22.4
   22.9
   20.1
   26.6
   Plt
   91
   68
   57
   Cr
   0.7
   0.6
   0.6
   0.5
   0.5
   TCO2
   26
   Glucose
   92
   102
   142
   133
   145
   139
   300
   156
   171
   Other labs: PT / PTT / INR:14.1/35.3/1.2, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:16/41, Alk Phos / T Bili:227/0.5,
   Amylase / Lipase:146/161, Differential-Neuts:99.0 %, Band:0.0 %,
   Lymph:0.0 %, Mono:1.0 %, Eos:0.0 %, D-dimer:3948 ng/mL, Fibrinogen:291
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:214 IU/L, Ca++:7.7
   mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Microbiology: Blood cultures: NGTD
   Urine cultures: NGTD, only with yeast
   Sputum: 2+ GPR
   Assessment and Plan
   76F with PMH respiratory failure with chronic vent dependence, seizure
   disorder, presented with hypoxemia after possible aspiration event,
   active issues currently include:
   .
    Sepsis: Treating pseudomonal pneumonia with meropenem/cipro.
   Discontinued caspofungin and vancomycin per ID recs
   -Continue [**Last Name (un) 430**]/cipro for PSA PNA, though unclear if this patient will
   ever not be colonized with virulent organisms
   - Norepi/dopa to maitain MAPs >60
   - Culture if spikes, no more surveillance cultures.
   - ID recs
   - Check beta glucan and galactomannan, pending
   .
   Leukocytosis: In the setting of sepsis, and increasing in the setting
   of steroids
   -continue to monitor, getting treated empirically with anti-microbials
   as indicated above
   .
   Non-convulsive status epilepticus: Off pentobarb gtt - no new status,
   continuing solumedrol IV for now.  No change in underlying mental
   status, but will continue to assess.
   -On depakote, keppra, and dilantin, following levels and adjusting
   doses prn per neuro recs
   -pentobarb coma off, will await status of burst suppression per neuro
   -?Hashimoto's encephalitis, giving solumedrol at 50mg IV daily
   .
   Acute renal failure, ATN in the setting of sepsis/ hypotension,
   bicarbonate stable
   -CVVH per protocol
   -renal following
   .
   Volume overload: result of acute renal failure in the setting of IV
   resuscitation with sepsis
   -CVVH aggressively take off fluid with MAP>60 unless substantial
   increase in pressor requirements or hypothermia
   .
   Metabolic acidosis: resolved with CVVH
   .
   RV strain: presumably due to a PE despite subcutaneous heparin, with
   mucosal bleeding on heparin gtt, which was turned off.
   -Holding heparin gtt at this time for complication of bleeding
   .
   Respiratory failure: multifactorial etiology [**1-19**] pna, overload,
   presumed PE.  Current vent settings 400x16 with a PEEP of 10 and FiO2
   of 50%, most recent VBG 7.31
   - Monitor VBG
s and adjust prn
   .
   Coagulopathy: coags elevated in the setting of sepsis and poor
   nutrition, s/p dose of vitamin K  with some improvement
   -Active type and cross
   -Transfuse HCT <21
   - hold tube feeds for now given bloody return from peg tube.
   .
   Thrombocytopenia: Likely [**1-19**] to infection, follow-up smear for ? HIT,
   ?medication effect from PPI
   - trend, transfuse for active bleeding if < 50K or ,<10K
   - hold heparin products
   .
   Constipation: having BM
s, trend Hct, continue current med
s, hold tube
   feeds.
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2115-5-12**] 06:06 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2115-5-7**] 03:00 PM
   Dialysis Catheter - [**2115-5-7**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2115-05-13 08:03:00 Physician Attending Progress Note
Chief Complaint: status epilepticus
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 yo F w/chronic resp failure on vent, sz d/o, and recent progressive
   neurologic decline of unclear [**Name2 (NI) 2663**] admitted following tube feed
   aspiration and witnessed sz w/ altered mental status and hypoxemia.
   [**Hospital 2205**] hospital course c/b--
   non-convulsive status epilepticus, MOSF with hypotension, requiring
   pressors, recurrent VAP, progressive ARF w/ anasarca now on CVVH,
   presumed PE, ileus, sepsis
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2115-5-11**] 09:32 PM
   Caspofungin - [**2115-5-12**] 12:08 AM
   Ciprofloxacin - [**2115-5-12**] 04:37 PM
   Metronidazole - [**2115-5-12**] 11:15 PM
   Meropenem - [**2115-5-13**] 03:15 AM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-13**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 88 (80 - 93) bpm
   BP: 114/51(65) {86/47(56) - 117/67(77)} mmHg
   RR: 17 (14 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
   CVP: 12 (6 - 12)mmHg
   Total In:
                                                                  4,841 mL
                                                                  1,501 mL
   PO:
   TF:
   IVF:
                                                                  4,605 mL
                                                                    805 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  6,056 mL
                                                                  1,967 mL
   Urine:
                                                                     41 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,215 mL
                                                                   -466 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: ///19/
   Ve: 6.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   57 K/uL
   171 mg/dL
   0.5 mg/dL
   19 mEq/L
   4.2 mEq/L
   10 mg/dL
   105 mEq/L
   132 mEq/L
   26.6 %
   20.1 K/uL
        [image002.jpg]
                             [**2115-5-11**]  05:34 AM
                             [**2115-5-11**]  05:51 AM
                             [**2115-5-11**]  01:11 PM
                             [**2115-5-11**]  05:45 PM
                             [**2115-5-12**]  01:12 AM
                             [**2115-5-12**]  05:44 AM
                             [**2115-5-12**]  12:31 PM
                             [**2115-5-12**]  05:54 PM
                             [**2115-5-13**]  12:09 AM
                             [**2115-5-13**]  05:51 AM
   WBC
   20.9
   24.2
   20.1
   Hct
   22.4
   22.9
   20.1
   26.6
   Plt
   91
   68
   57
   Cr
   0.7
   0.6
   0.6
   0.5
   0.5
   TCO2
   26
   Glucose
   92
   102
   142
   133
   145
   139
   300
   156
   171
   Other labs: PT / PTT / INR:14.1/35.3/1.2, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:16/41, Alk Phos / T Bili:227/0.5,
   Amylase / Lipase:146/161, Differential-Neuts:99.0 %, Band:0.0 %,
   Lymph:0.0 %, Mono:1.0 %, Eos:0.0 %, D-dimer:3948 ng/mL, Fibrinogen:291
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:214 IU/L, Ca++:7.7
   mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
    General Appearance: gross anasarca
improving, not waking up
   Eyes / Conjunctiva: L pupil responsive, unchanged, L corneal reflex +
   MMM, line sites clean
   Cardiovascular: (S1: Normal), (S2: Normal, Distant) no murmur
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: ) decreased at bases
   Abdominal: less distended, softer, hypoactive bs
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, doesn
t withdraw to pain
   76 yo F w/chronic resp failure on vent, known sz d/o, and recent
   progressive neurologic decline of unclear [**Name2 (NI) 2663**] admitted following
   tube feed aspiration and witnessed sz w/ altered mental status and
   hypoxemia.
   [**Hospital 2205**] hospital course c/b
   non-convulsive status epilepticus, hypotension, requiring pressors,
   recurrent VAP, progressive ARF w/ anasarca, on  cvvh, presumed PE,
   ileus,  and recurrent sepsis
   Patient  remains unresponsive in a pentobarb coma to suppress sz
   activity .
   Although metabolic numbers appear improved since starting CVVH,
   underlying issues (MOSF) remain unchanged.
   Steroids added recently for ? hashimoto
s encephalopathy with plan to
   wean off pentobarb and reassess for potential recurrent sz or
   neurologic improvement, though prognosis remains extremely poor.
    Active issues remain:
   # Sepsis
   Multiple potential sources
 ileus question of c diff (no diarrhea, abd
   distention), fungal infection, line infection, skin breakdown effusions
   To date cxs growing only PSA (sp) and yeast in urine and sp. Now on
   steroids for CNS further increasing infectious risks. WBC increasing,
   which may be due to steroids. Platelets dropping. No e/o MRSA anywhere
   on cxs. Will peal off Vanc, and keep on other 4 antibiotics to cover
   cdiff, pseudomonas and yeast. Will peel off 1 antibiotic everyday.
   Continues to be on pressors and neg on CVVH. WBC increased today, may
   be due to steroids. Daily cxs. Check cdiff.
   # Non-convulsive status
   -- off pentobarb  --> remains on depakote, Keppra and Dilantin
   longer in status. On solumedrol given ? ? hashimotos encephalopathy /
   vasculits .
   -  not waking up, prognosis extremely poor
   # Hypotension:
   multifactorial [**1-19**] anti-epileptic meds, RV failure presumed PE, sepsis
   WBC increased to 24. No improvement in pressor requirement on multiple
   abx. Decrease Peep today
   # Hypothermia: persists, ? due to CVVH or persistent infection. Daily
   cxs.
    # ARF / gap metabolic acidosis/ volume overload
   -improved with CVVH
   # Presumed PE (echo findings of RV  dilation and severe HK)
    Bleeding from mouth, nose, lines, peg site, improved but persist
    Uremic and low plt dysfx further contributing
   Holding heparin gtt
   ## Resp Failure
    # resp muscle weakness
    # pseudomonal pna
antibx as above
   - Decrease peep/fio2 today
   # Thromobocytopenia:
   ? med related (vanco
 stopped today)
   Stop all heparin
   HIT and smear pend
   # constipation/ileus/abd distention
   -          improved, moving bowels, but cannot feed due to bloody PEG
   aspirates. To be started on TPN
   #  Goals of care
   MOSF with poor prognosis and progressive slow decline--family
   discussions ongoing, social work involved, ethics following.  Continue
   to have close discussions with family to address goals of care.
   CPR is felt to be ineffective and therefore will not be performed in
   the event of cardiac arrest. This has been communicated to pt
   family.
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2115-5-12**] 06:06 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2115-5-7**] 03:00 PM
   Dialysis Catheter - [**2115-5-7**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent:

2115-05-14 08:20:00 Physician Resident Progress Note
Chief Complaint: Unresponsive
   24 Hour Events:
   -ID recommending a course of [**Last Name (un) 430**]/cipro until [**5-15**]
   -PM crit came back at 19, re-checked and is 20.3, 25 did not transfuse
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2115-5-11**] 09:32 PM
   Caspofungin - [**2115-5-12**] 12:08 AM
   Ciprofloxacin - [**2115-5-13**] 03:47 PM
   Meropenem - [**2115-5-14**] 08:00 AM
   Metronidazole - [**2115-5-14**] 08:00 AM
   Infusions:
   Norepinephrine - 0.11 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2115-5-14**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-14**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.8
C (96.5
   HR: 89 (79 - 96) bpm
   BP: 108/46(59) {98/41(57) - 136/61(78)} mmHg
   RR: 21 (16 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 69 kg
   Height: 66 Inch
    CVP: 239 (239 - 239)mmHg
   Total In:
                                                                  5,084 mL
                                                                  1,604 mL
   PO:
   TF:
   IVF:
                                                                  3,730 mL
                                                                  1,269 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  6,296 mL
                                                                  2,314 mL
   Urine:
                                                                     16 mL
                                                                     16 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,212 mL
                                                                   -710 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 6.1 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: right pupil non-reactive, left pupil reactive
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, No(t) NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 1+, Left: 1+, mildly improved
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, unresponsive to verbal or tactile stimuli
   Labs / Radiology
   39 K/uL
   8.2 g/dL
   195 mg/dL
   0.5 mg/dL
   19 mEq/L
   4.0 mEq/L
   13 mg/dL
   105 mEq/L
   131 mEq/L
   25.0 %
   21.2 K/uL
        [image002.jpg]
                             [**2115-5-12**]  01:12 AM
                             [**2115-5-12**]  05:44 AM
                             [**2115-5-12**]  12:31 PM
                             [**2115-5-12**]  05:54 PM
                             [**2115-5-13**]  12:09 AM
                             [**2115-5-13**]  05:51 AM
                             [**2115-5-13**]  11:54 AM
                             [**2115-5-13**]  05:12 PM
                             [**2115-5-13**]  06:31 PM
                             [**2115-5-14**]  05:00 AM
   WBC
   24.2
   20.1
   21.2
   Hct
   22.9
   20.1
   26.6
   19.8
   20.3
   25.0
   Plt
   68
   57
   48
   39
   Cr
   0.6
   0.5
   0.5
   0.4
   0.5
   Glucose
   133
   145
   139
   300
   156
   171
   164
   186
   195
   Other labs: PT / PTT / INR:13.3/36.7/1.1, CK / CKMB /
   Troponin-T:241/12/0.39, ALT / AST:16/41, Alk Phos / T Bili:227/0.5,
   Amylase / Lipase:146/161, Differential-Neuts:99.0 %, Band:0.0 %,
   Lymph:0.0 %, Mono:1.0 %, Eos:0.0 %, D-dimer:3948 ng/mL, Fibrinogen:291
   mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.0 g/dL, LDH:214 IU/L, Ca++:7.8
   mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Imaging: [**5-13**]: no interval change of CXR, none on [**5-14**]
   Microbiology: [**5-12**] sputum culture:  ? OROPHARYNGEAL FLORA ABSENT.
    Due to mixed bacterial types ( >= 3 colony types) an abbreviated
   workup will be performed appropriate to the isolates recovered from
   this site.
   YEAST.  GRAM NEGATIVE ROD(S).    MODERATE GROWTH. GRAM NEGATIVE ROD
   #2.    SPARSE GROWTH.
   ( Previous sputum cultures with psedomonas)
   Assessment and Plan
   76F with PMH respiratory failure with chronic vent dependence, seizure
   disorder, presented with hypoxemia after possible aspiration event,
   active issues currently include:
    Sepsis/ VAP: Treating pseudomonal pneumonia with meropenem/cipro.
   Discontinued caspofungin and vancomycin per ID recs
   -Continue [**Last Name (un) 430**]/cipro for PSA PNA, though unclear if this patient will
   ever not be colonized with virulent organisms
   - Norepi/dopa to maitain MAPs >60
   - Culture if spikes, no more surveillance cultures.
   - ID recs
   - Check beta glucan and galactomannan, pending
   Non-convulsive status epilepticus: Off pentobarb gtt - no new status,
   continuing solumedrol IV for now.  No change in underlying mental
   status, but will continue to assess.
   -On depakote, keppra, and dilantin, following levels and adjusting
   doses prn per neuro recs
   -pentobarb coma off, will await status of burst suppression per neuro.
   Will not change doses of antiepileptics as patient currently not in
   status.
   -?Hashimoto's encephalitis, giving solumedrol at 50mg IV daily
   .
   Acute renal failure, ATN in the setting of sepsis/ hypotension,
   bicarbonate stable.  We trailed CVVH in an attempt to clear her mental
   status in the setting of acute uremia.  However, given that the patient
   has not had improvement in her mental status, it is unlikely that
   continuing CVVH will improve her overall course.  Therefore we will
   transition to HD if possible and stop CVVH.  This will also help with
   transition of care to a chronic facility.
   -renal following
   Volume overload: result of acute renal failure in the setting of IV
   resuscitation with sepsis
   - will continue to try and diurese.  Will trial furosemide as BP
   tolerates today
   Metabolic acidosis: resolved with CVVH, likely due to her renal failure
   RV strain: presumably due to a PE despite subcutaneous heparin, with
   mucosal bleeding on heparin gtt, which was turned off.
   -Holding heparin gtt at this time for complication of bleeding.  It
   seems less likely that the RV strain was caused by PE that has not been
   untreated for >5 days.
   Respiratory failure: multifactorial etiology [**1-19**] pna, overload,
   presumed PE.  Current vent settings 400x16 with a PEEP of 10 and FiO2
   of 50%, most recent VBG 7.31
   - Monitor VBG
s and adjust prn
   Coagulopathy: coags elevated in the setting of sepsis and poor
   nutrition, s/p dose of vitamin K  with some improvement
   -Active type and cross
   -Transfuse HCT <21
   - hold tube feeds for now given bloody return from peg tube.
   Thrombocytopenia: Likely [**1-19**] to infection, follow-up smear for ? HIT,
   ?medication effect from PPI
   - trend, transfuse for active bleeding if < 50K or ,<10K
   - hold heparin products
   Constipation: having BM
s, trend Hct, continue current med
s, hold tube
   feeds.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2115-5-13**] 06:00 PM 41.[**Telephone/Fax (3) 1761**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2115-5-7**] 03:00 PM
   Dialysis Catheter - [**2115-5-7**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition: ICU for now, but will attempt to transition to chronic
   care facility